2167-01-29 08:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypoxoemia increased O2
   requriements
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo F with complicated course recently dx'd AML course c/b pna,
   fevers , extensive w/u ncluding fungal assessment, bronchoscpy X 2 lat
   2 days ago, improvement in rul process but progressive graound gallss
   on chest ct
   24 Hour Events:
   fatigue with increased WOB--intubated overnight
   hypertensive and tacycardic pre intubation
 MULTI LUMEN - START [**2167-1-28**] 11:32 PM
 NON-INVASIVE VENTILATION - START [**2167-1-29**] 12:00 AM
 BLOOD CULTURED - At [**2167-1-29**] 01:42 AM
 EKG - At [**2167-1-29**] 01:43 AM
 NON-INVASIVE VENTILATION - STOP [**2167-1-29**] 02:30 AM
 INVASIVE VENTILATION - START [**2167-1-29**] 02:35 AM
 ARTERIAL LINE - START [**2167-1-29**] 03:03 AM
   History obtained from house staff
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-1-28**] 11:30 PM
   Meropenem - [**2167-1-29**] 07:44 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-1-29**] 01:05 AM
   Midazolam (Versed) - [**2167-1-29**] 02:56 AM
   Fentanyl - [**2167-1-29**] 03:45 AM
   Other medications:
   per [**Month (only) **] (reviewed) vori, [**Last Name (un) 430**], methylpred 40 Q 12, versed fent, PPI
   chlorhex, vanco, levo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-29**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 112 (112 - 134) bpm
   BP: 124/78(94) {99/65(77) - 124/78(94)} mmHg
   RR: 31 (24 - 39) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                    103 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                    103 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    748 mL
   Urine:
   748 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 446 (446 - 446) mL
   RR (Set): 32
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/37/305/16/-8
   Ve: 11.4 L/min
   PaO2 / FiO2: 508
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   73 K/uL
   77 mg/dL
   3.4 mg/dL
   16 mEq/L
   4.4 mEq/L
   51 mg/dL
   113 mEq/L
   151 mEq/L
   28.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2167-1-29**]  12:19 AM
                             [**2167-1-29**]  02:00 AM
                             [**2167-1-29**]  04:22 AM
   WBC
   0.1
   Hct
   28.9
   Plt
   73
   Cr
   3.4
   TCO2
   18
   18
   Glucose
   77
   Other labs: PT / PTT / INR:16.0/30.4/1.4, ALT / AST:13/29, Alk Phos / T
   Bili:92/0.4, Fibrinogen:940 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9
   g/dL, LDH:741 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Fluid analysis / Other labs: TTE [**1-27**] ef 55%, trivial MR
   Imaging: neg headt ct for bleed,  [**1-28**]
   CXR--et ok, r ij ok, og ok, diffuse b/l fluffy infiltrastes R > L, ?
   small L effusion vs atelectasis 9stable to worse c/t [**1-27**])
   CT [**1-27**]--diffuse b/l process with alveolar opacities, ABG, and
   consolidation upper and lower zones, tiny effusions, atelecatsis at
   bases, progressive c/t [**1-20**]
   Microbiology: blood cx pending [**1-24**], 4 5 6
   rsv and viral screens neg
   [**1-27**] bronch bal--pending
   dfa pcp neg
   BG and GM neg
   Assessment and Plan
   Assessment and Plan
   Respiratory Failure
   Pulmonary Infiltrates
   Fever/ Neutropenia
   AML
   68 yo woman with past h/o stage II breast Ca, polio and post-polio syn
   transferred to [**Hospital1 **] from OSH on [**12-31**] with pancytopenia, fatigue and light
   headedness - dx of AML.  Started on [**5-28**] on [**1-6**]. Course has been
   complicated by fever, fluid overload, renal failure, and progressive
   pulmonary infiltrates.  W/U of pulm process has included bronch x 2
   (cx, PJP neg; no hemorrhage).  multiple cx.  Beta glucan and
   galactomanin neg.  Most recently on Vanco, [**Last Name (un) 430**], Levo and vorconazol.
   Briefly treated empiracally for PJP including steroids and received
   Solu-Medrol today.
     Cough  and fever, pancytopenia, new AML dx with pna fever, worsening
   infilktrates on chest imaging, with  ards pciture
   Cotinue aggressive aupprotive care and steroids with broad coverage.
   Respiratory failure with worsening  b/l infiltrates on chest imaging
   ards
extensive infectious w/u has been unrevealing, though has been on
   broad antibx, concern for drug reaction, no DAH,  recent echo volume
   o/l may be conributing but does not seem to be primary issue  possible
   infectious process resulting in pneumonitis ards though possibility of
   steroid responsiveness
         Continue broad coverage, continue empiric steroids
          f/u cx
          oxygenation well on 60% and 10 oeeo
can decrease FIO2
         primatily met acidosis
tolerating high rates on vent with stable
   pressures, will icnrease tv slightly to 400 and follow abg, permissive
   acidosis in setting of ARDS
        MDI
   Seemed dry wiuty progressive cr increase
will hold diruese
   Chemotherapy
per onc
   Neurtopenia
broad coaverge,
   Anemia
follow, dry on exam from aggressive diureis, no indication for
   transfusion
   Tjhromvbocytopenia--
   Renal Failure
diruesis, FENA 4%, prerenal + atn most likely , urine eos
   neg, renally dose meds change vori to PO, gap acidosis, no acute
   indication for RRT, renal following
    Hypernatremia--Verses  citure, check osms, free water, hold on
   dirueses, replace free water def
    Altered MS--waxing and [**Doctor Last Name 42**] X days with acute worsening yesterday--?
   Related to altered sleep wake, hypernatremia, steroids, vereses aml in
   cns
follow onc recs, monitor, neg head ct
   Fluid Overload
hold on diuresis, given
   Etiology of respiratory failure is unclear.  With two neg bronchs PJP
   seems unlikely and lack of blood makes alveolar hemorrhage equally
   unlikely. Although she is total body volume overloaded her exam does
   not suggest CHF with prominent mid-insp crackles.  She is tiring after
   initially responding to mask ventilation and is increasingly
   uncomfortable so we will intubate. She will need substantial sedation
   and likely a high minute ventilation as she is currently generating
   14-17 lpm. Her hemodynamic response to intubation may help us assess
   her intravascular volume status.  We are trying to diurese and will
   continue if her BP allows.  She is continuing on broad abx but it seems
   increasingly likely her pulmonary process is non-infectious.  She did
   get a dose of Solu-Medrol and will discuss with BMT whether that should
   be continued.  Plan is to try to correct free water deficit - will need
   to factor in ongoing losses if we continue diuresis.  Dosing all meds
   for her rising creatinine.  Will need to monitor glucose on steroids.
   ICU Care
   Nutrition:  TF--nutritiion
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  50

2167-01-30 07:57:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   - elevated anion gap acidosis, unclear if [**12-27**] uremia
   - started on bicarb per renal > alkalemia
   - decreasing FiO2 requirement
   - Hem/Onc-plan to repeat BMBx & family meeting in am
   - UOP not responding to IVFs
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-1-29**] 07:44 AM
   Levofloxacin - [**2167-1-29**] 11:45 AM
   Voriconazole - [**2167-1-29**] 10:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-1-29**] 10:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-30**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 103 (80 - 118) bpm
   BP: 102/61(74) {96/59(70) - 144/86(107)} mmHg
   RR: 24 (24 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  3,739 mL
                                                                    821 mL
   PO:
   TF:
                                                                     40 mL
                                                                    223 mL
   IVF:
                                                                  3,584 mL
                                                                    598 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                     77 mL
   Urine:
                                                                  1,035 mL
                                                                     77 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,704 mL
                                                                    744 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.49/33/130/24/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   46 K/uL
   7.3 g/dL
   205 mg/dL
   3.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   68 mg/dL
   105 mEq/L
   138 mEq/L
   20.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2167-1-29**]  12:19 AM
                             [**2167-1-29**]  02:00 AM
                             [**2167-1-29**]  04:22 AM
                             [**2167-1-29**]  11:22 AM
                             [**2167-1-29**]  03:39 PM
                             [**2167-1-29**]  11:23 PM
                             [**2167-1-30**]  01:20 AM
                             [**2167-1-30**]  03:30 AM
                             [**2167-1-30**]  04:06 AM
   WBC
   0.1
   0.1
   Hct
   28.9
   20.6
   Plt
   73
   46
   Cr
   3.4
   3.4
   3.7
   TCO2
   18
   18
   20
   22
   26
   26
   Glucose
   77
   246
   205
   Other labs: PT / PTT / INR:14.7/33.6/1.3, ALT / AST:13/29, Alk Phos / T
   Bili:92/0.4, Fibrinogen:940 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:741 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68 y.o. F with L BR CA diagnosed in [**7-/2161**], h/o polio and osteoporosis,
   transferred from OSH ER after presenting with cough and fevers x [**12-28**]
   days with reported LUL opacity, then found to be pancytopenic, now with
   new diagnosis of AML s/p completion of 7+3. S/P Bronchoscopy and BAL on
   [**1-27**], now with worsening hypoxia and mental status changes. CT Head
   negative for bleed this pm.
   .
   # AML: s/p completion of 7+3. Day 23. Neutropenic.
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor ANCs - neutropenic - ANC rose from 40 to 60 today. Avoiding
   G-CSF.
   .
   # Respiratory Failure - infection v. pneumonitis (aspiration v allergic
   v. meds) v. pulmonary edema v broncheoalveolar hemorrhage.  Has been on
   non-rebreather for > 24 hours s/p bronchoscopy, concern for intubation
   given h/o polio.
   - cont steroids for possible pneumonitis picture per pulm consult,
   though unlikely to benefit
   - cont vanc, dosed by level, [**Last Name (un) 430**], levo, and fluc
   - follow up on all cx data
   - evidence of fluid overload which could be confounding picture, will
   continue to diurese in the face of renal failure with 40-80mg IV last,
   per renal, if hypertension, not responsive to intubation, pulmonary
   edema less likely
   - attempts and non-invasive had been met with improvement but pt still
   very tachypneic with minute ventilations between 13 and 17, have
   discussed with pt and husband, will proceed to intubation
   .
   # Pneumonia/Febrile Neutropenia: Persistent low grade fevers, cultured.
   CT chest [**1-8**] showed decreased LUL opacity but more diffuse
   tree-and-[**Male First Name (un) 667**] opacities concerning for atypical PNA, pulmonary
   hemorrhage, pulmonary edema. CT Chest [**12/2087**]- showed diffuse ground glass
   opacities. Pt continued to spike daily, refused repeat bronchoscopy.
   Was started on atovaquone and prednisone for empiric coverage of PCP [**Name Initial (PRE) **]
   [**Last Name (NamePattern4) **]'d on [**1-26**] with negative glucan. Repeat CT [**1-27**] with rapid worsening,
   pt agreed to bronch. On am of bronchoscopy pt had a 4L O2 Requirement,
   was requiring 8L NC post bronch. Over course of last pm and today pt
   requiring NRB.
   - intubate
   - continue vancomycin. Dosing by level - will repeat trough tomorrow
   AM
   - continue meropenem and levaquin
   - changed voriconazole to IV this pm - will need to discuss changing to
   alternative [**Doctor Last Name **] as long-term use of IV formulation is contraindicated
   in renal failure
   - solumedrol 40mg q12H
   - f/u mycolytic blood cultures, blood cultures, all micro and lab data
   - neg to date
   - f/u BAL culture data - negative to date
   - Pt now NPO, concern for ability to protect airway. Pt has hx of
   polio, baseline weakness
   - appreciate ID input
   .
   # ARF - FeNa 4%, likely ATN caused by underlying infection. Given
   worsening resp status, plan to diurese
   - Continue lasix 80mg IV PRN
   - continue to monitor Cr and renally dose meds
   - appreciate renal input
   .
   # Mental Status changes - over the course of today the patient has
   become non-verbal. She now has increased confusion but continues to
   follow commands with prompting.  Likely large componenet of fatigue
   from respiratory effort and no sleep.   CT Head negative for evidence
   of bleed. No clear evidence of metastatic disease or emboli. However,
   given initial path significant for M4 AML which is known for CNS
   spread.  Bone marrow biopsy on [**1-19**] showed evidence of residual disease
   in addition to her LDH which has been steadily rising since her nadir
   on [**1-10**]. Consider toxic/metabolic effect as well. Continue to renally
   dose meds, treat hypoxia
   - consider MRI if fails to clear with correction of hypoxia
   - will discuss with heme-onc rationale for tap +/- intrathecal
   chemotherapy
   .
   Hypernatremia - recent, central DI v. reset osmostat v extreme
   diuresis, urine osms 324
   - calculate free water deficit
   - free water boluses
   .
   Tachycardia -  baseline 120s for last several days, [**1-27**] TTE not
   concerning for cardiotoxicity or damage in setting of sepsis, no gross
   abnormalities.  Could be a common side effect of chemptherapy
   treatment.
   - EKG
   - attempting diuresis,  however, if concern for intravascular depletion
   can bolus
   - can transfuse for HCT<25
   .
   # History of Breast Cancer:
   - hold tamoxifen during evaluation
   .
   # FEN: replete lytes prn, nutrition consult in am
   .
   # PPX: pneumoboots
   .
   # ACCESS: R CVL
   .
   # CODE: FULL
   .
   # CONTACT: patient and husband
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 140**] Pulmonary (Full) - [**2167-1-29**] 10:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-01-30 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  68 yo F w/ h/o stage II breast Ca, polio and post-polio syn,
   recently dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna,
   volume ol, ARF and progressive b/l pulmonary infiltrates with extensive
   infection w/u unrevealing transferred  to ICU for progressive
   hypoxemia, intubated for respiratory failure, ards
   24 Hour Events:
   bicarb and LR bolus yesterday with improved acidemia-- now alkalotic
   from vent and bicarb
   decreased u/o despite fluids
   History obtained from house staff
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-1-29**] 10:00 PM
   Meropenem - [**2167-1-30**] 09:01 AM
   Levofloxacin - [**2167-1-30**] 10:33 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-1-30**] 08:02 AM
   Other medications:
   per [**Month (only) **] (reviewed) vanco day 16
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-30**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 95 (80 - 113) bpm
   BP: 138/75(96) {96/59(70) - 143/80(104)} mmHg
   RR: 21 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 76.1 kg
   Height: 59 Inch
   CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  3,739 mL
                                                                  1,373 mL
   PO:
   TF:
                                                                     40 mL
                                                                    356 mL
   IVF:
                                                                  3,584 mL
                                                                    874 mL
   Blood products:
                                                                     53 mL
   Total out:
                                                                  1,035 mL
                                                                    104 mL
   Urine:
                                                                  1,035 mL
                                                                    104 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,704 mL
                                                                  1,269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/33/130/24/3
   Ve: 10.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   dry MM
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing, dep
   edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: intubated, No(t) Oriented (to): , Movement: sedated on vent,
   Sedated, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   46 K/uL
   205 mg/dL
   3.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   68 mg/dL
   105 mEq/L
   138 mEq/L
   20.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2167-1-29**]  12:19 AM
                             [**2167-1-29**]  02:00 AM
                             [**2167-1-29**]  04:22 AM
                             [**2167-1-29**]  11:22 AM
                             [**2167-1-29**]  03:39 PM
                             [**2167-1-29**]  11:23 PM
                             [**2167-1-30**]  01:20 AM
                             [**2167-1-30**]  03:30 AM
                             [**2167-1-30**]  04:06 AM
   WBC
   0.1
   0.1
   Hct
   28.9
   20.6
   Plt
   73
   46
   Cr
   3.4
   3.4
   3.7
   TCO2
   18
   18
   20
   22
   26
   26
   Glucose
   77
   246
   205
   Other labs: PT / PTT / INR:14.7/33.6/1.3, ALT / AST:13/29, Alk Phos / T
   Bili:92/0.4, Fibrinogen:940 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:741 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: anc 70
   vanco 46.6
   Imaging: cxr--et and rij ok--imoproved aeration, clearer R base c/t
   prior
   Microbiology: cmv viral load--> pending
   bal data [**1-25**] ngtd
   no new data
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   #  Respiratory failure
   # b/l pulmonary infiltrates
   # ARDS
   # vent
   extensive infectious w/u has been unrevealing, though has been on broad
   antibx at time of bronchs,
    increasing concern for noninfectious etiology ? drug reaction,
    no evidence from bronch for DAH
    volume o/l may have contributed though does not appear primary issue
   and now appears intravascularly dry with worsening renal dfx and
   elevated na
   -          Continue broad antibx and an and discuss with onc
   team
utility of steroids in ards is poor and may worsen incidence of
   infection, but if a steroid response process is of highest suspcion,
   such as ? drug reaction, would be useful to continue
              -       f/u cx
               -      mdi
               -      oxygenating well on 60% fio2 and 10 peep
will
   attempt decreasing fio2 and following abg
                      compensating for a primatily met acidosis with vent
> tolerating high rates with stable pressures
                      increase tv to 400 to further improve ph though
   allow for permissive acidosis in setting of ARDS
                      hold diruese
   ards--stable oxygenation
   f/u cx datathough unlikely infectious given extensive neg w/u to dadte
   continue broad caverage
   continue steroids--imaging appears improved in appearance, minimally,
   continue empriic steroids for anoiuther 2-3 days and reassess
   # ARF/ alkalosis--repeat abg then will reduce MV by coming down on rr
   on vent, other vent settings stable with stable oxygention gap acidosis
   resolved with hydration and bicarb, cr remains elevated likely multiple
   etiology with emds, atn
   f/u renal recs, no acute ind for RRT
   u/o remains continue to monitor
likely mixed--prerenal + atn, FENA 4%, urine eos neg, renal following,
   check CVP
   renally dose meds change vori IV  to PO
   gap acidosis, with vent compensation
   no acute indication for RRT at this time
   decreased u/o--? Kidney shutting down from atn vs prerenal, though
   appears total body volume o/l
  will fluid challenge
   anemia/h/h drop--some dilutional component in setting of IVF boluses,
   post0chemo response,bleeding
   repeat after blood transfusion, recheck hemooplysis/dic labs
   # Hypernatremia--check osms, repalce free water deficit,
   hold on further dirueses at this time
   # AML/Chemotherapy
   aml/chemo--family mtg with onc to readdress
   ? of repeat BMBX or reinduction
   clarify with onc
   # fevers/Neurtopenia
broad coverage as above
   # Altered MS--waxing and [**Doctor Last Name 42**] X days with acute worsening
   yesterday--? Related to altered sleep wake, hypernatremia, steroids,
   vereses aml in cns
follow onc recs, monitor, neg head ct
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-1-29**] 10:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2167-01-31 07:50:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 BLOOD CULTURED - At [**2167-1-31**] 02:40 AM
 URINE CULTURE - At [**2167-1-31**] 03:13 AM
   -- patient tolerated decrease of vent rate
   -- no evidence of hemolysis
   -- Cr continues to rise
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-1-30**] 09:01 AM
   Levofloxacin - [**2167-1-30**] 10:33 AM
   Voriconazole - [**2167-1-30**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-1-30**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-31**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 97 (87 - 102) bpm
   BP: 109/60(78) {107/58(75) - 145/79(102)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.8 kg (admission): 76.1 kg
   Height: 59 Inch
    CVP: 8 (4 - 350)mmHg
   Total In:
                                                                  2,986 mL
                                                                    640 mL
   PO:
   TF:
                                                                    926 mL
                                                                    311 mL
   IVF:
                                                                  1,176 mL
                                                                    279 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    269 mL
                                                                    140 mL
   Urine:
                                                                    269 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,717 mL
                                                                    500 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.37/39/98.[**Numeric Identifier 248**]/22/-2
   Ve: 9.1 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic), difficult to appreciate [**12-27**]
   vent
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: ), course breath sounds [**12-27**] vent
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   9.9 g/dL
   152 mg/dL
   4.4 mg/dL
   22 mEq/L
   5.1 mEq/L
   96 mg/dL
   106 mEq/L
   140 mEq/L
   28.6 %
   0.2 K/uL
        [image002.jpg]
                             [**2167-1-29**]  03:39 PM
                             [**2167-1-29**]  11:23 PM
                             [**2167-1-30**]  01:20 AM
                             [**2167-1-30**]  03:30 AM
                             [**2167-1-30**]  04:06 AM
                             [**2167-1-30**]  11:31 AM
                             [**2167-1-30**]  03:55 PM
                             [**2167-1-30**]  05:22 PM
                             [**2167-1-31**]  02:13 AM
                             [**2167-1-31**]  05:26 AM
   WBC
   0.1
   0.2
   Hct
   20.6
   29.2
   28.6
   Plt
   46
   45
   55
   Cr
   3.4
   3.7
   4.1
   4.4
   TCO2
   22
   26
   26
   25
   24
   23
   Glucose
   [**Telephone/Fax (3) 1461**]52
   Other labs: PT / PTT / INR:14.2/29.6/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   68 y.o. F with L BR CA diagnosed in [**7-/2161**], h/o polio and osteoporosis,
   transferred from OSH ER after presenting with cough and fevers x [**12-28**]
   days with reported LUL opacity, then found to be pancytopenic, now with
   new diagnosis of AML s/p completion of 7+3. S/P Bronchoscopy and BAL on
   [**1-27**], now with worsening hypoxia and mental status changes. CT Head
   negative for bleed this pm.
   .
   # AML: s/p completion of 7+3. Day 24. Neutropenic.
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor ANCs - neutropenic - ANC rising.   Avoiding G-CSF.
   - Family meeting today with onc team
   - repeat BMB
   .
   # Respiratory Failure - infection v. pneumonitis (aspiration v allergic
   v. meds) v. pulmonary edema v broncheoalveolar hemorrhage.  Has been on
   non-rebreather for > 24 hours s/p bronchoscopy, concern for intubation
   given h/o polio.
   - cont steroids for possible pneumonitis picture per pulm consult,
   probably [**1-28**] day coourse, some improvement seen on CXR today,
   - cont vanc, dosed by level, [**Last Name (un) 430**], levo, and fluc
   -   follow up on all cx data, CMV viral load
   - f/u ID rec
   .
   # Anemia
 HCT 28.9>20.6, no obvious soucr of bleeind, likely dilution
   as pt had been aggressively diuresed and had not been taking po
s for
   several days prior to intubation.
   - transfuse 2 u pRBCs, HCT goal >25
   - f/u post-transfusion HCT
   - guaiac stools
   - hemolysis labs
   # Pneumonia/Febrile Neutropenia: Persistent low grade fevers, cultured.
   CT chest [**1-8**] showed decreased LUL opacity but more diffuse
   tree-and-[**Male First Name (un) 667**] opacities concerning for atypical PNA, pulmonary
   hemorrhage, pulmonary edema. CT Chest [**12/2087**]- showed diffuse ground glass
   opacities. Pt continued to spike daily, refused repeat bronchoscopy.
   Was started on atovaquone and prednisone for empiric coverage of PCP [**Name Initial (PRE) **]
   [**Last Name (NamePattern4) **]'d on [**1-26**] with negative glucan. Repeat CT [**1-27**] with rapid worsening,
   pt agreed to bronch. On am of bronchoscopy pt had a 4L O2 Requirement,
   was requiring 8L NC post bronch.  Now intubated
   - continue vancomycin. Dosing by level - will repeat trough tomorrow
   AM
   - continue meropenem, voriconazole, and levaquin
   - solumedrol 40mg q12H
   - f/u mycolytic blood cultures, blood cultures, all micro and lab data
   - neg to date
   - f/u BAL culture data - negative to date
   - appreciate ID input
   .
   # Alkalemia
 likely [**12-27**] to bicarb administration
   - recheck ABG
   - decrease respiratory rate
   - no more bicarb
   .
   # ARF - FeNa 4%, likely ATN caused by underlying infection. Cr rising,
   UOP down, not responsive to fluid bolus.  Will likely get worse before
   it gets better.   Renal not recommending dialysis at this time
   - continue to monitor Cr and renally dose meds
   - appreciate renal input
   - pm lytes
   - no more free water or bicarb at this time
   .
   # Mental Status changes - over the course of today the patient has
   become non-verbal. She now has increased confusion but continues to
   follow commands with prompting.  Likely large componenet of fatigue
   from respiratory effort and no sleep.   CT Head negative for evidence
   of bleed. No clear evidence of metastatic disease or emboli. However,
   given initial path significant for M4 AML which is known for CNS
   spread.  Bone marrow biopsy on [**1-19**] showed evidence of residual disease
   in addition to her LDH which has been steadily rising since her nadir
   on [**1-10**]. Consider toxic/metabolic effect as well. Continue to renally
   dose meds, treat hypoxia .  Will not be able to evaluate unil patient
   extubated.  At that time, if not improved, can consider  MRI +/- tap.
   .
   Hypernatremia - recent, central DI v. reset osmostat v extreme
   diuresis, urine osms 324
   - resolved with free water infusion
   .
   Tachycardia -  baseline 120s for last several days, [**1-27**] TTE not
   concerning for cardiotoxicity or damage in setting of sepsis, no gross
   abnormalities.  Could be a common side effect of chemptherapy
   treatment.
   - no intervention at this time
   - if concern for intravascular depletion can bolus
   - can transfuse for HCT<25
   .
   # History of Breast Cancer:
   - hold tamoxifen during evaluation
   .
   # FEN: replete lytes prn, hold off on K for renal failure, tube feeds
   .
   # PPX: pneumoboots
   .
   # ACCESS: R CVL
   .
   # CODE: FULL
   .
   # CONTACT: patient and husband
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 140**] Pulmonary (Full) - [**2167-1-29**] 10:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   [**Year (4 digits) 140**] Pulmonary (Full) - [**2167-1-31**] 12:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2167-01-31 12:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-1-31**] 02:40 AM
 URINE CULTURE - At [**2167-1-31**] 03:13 AM
   Febrile at 100.1 - cultures sent
   Creatinine rising -  muddy  brown casts present on spun urine
   Hct dropped from 28.9 to 20.6. Baseline Hct was ~24 prior to that with
   one [**Location (un) 308**] of 28.9.
   Transfused 2 units, bumped to ~29
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-1-30**] 09:01 AM
   Levofloxacin - [**2167-1-30**] 10:33 AM
   Voriconazole - [**2167-1-30**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-1-31**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 86 (86 - 100) bpm
   BP: 129/76(96) {106/57(74) - 142/79(102)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.2 kg (admission): 76.1 kg
   Height: 59 Inch
   CVP: 12 (4 - 348)mmHg
   Total In:
                                                                  2,986 mL
                                                                    891 mL
   PO:
   TF:
                                                                    926 mL
                                                                    471 mL
   IVF:
                                                                  1,176 mL
                                                                    371 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    269 mL
                                                                    182 mL
   Urine:
                                                                    269 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,717 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.37/39/98.[**Numeric Identifier 248**]/22/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Postpolio syndrome with ? contractures
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   55 K/uL
   152 mg/dL
   4.4 mg/dL
   22 mEq/L
   5.1 mEq/L
   96 mg/dL
   106 mEq/L
   140 mEq/L
   28.6 %
   0.2 K/uL
        [image002.jpg]
                             [**2167-1-29**]  03:39 PM
                             [**2167-1-29**]  11:23 PM
                             [**2167-1-30**]  01:20 AM
                             [**2167-1-30**]  03:30 AM
                             [**2167-1-30**]  04:06 AM
                             [**2167-1-30**]  11:31 AM
                             [**2167-1-30**]  03:55 PM
                             [**2167-1-30**]  05:22 PM
                             [**2167-1-31**]  02:13 AM
                             [**2167-1-31**]  05:26 AM
   WBC
   0.1
   0.2
   Hct
   20.6
   29.2
   28.6
   Plt
   46
   45
   55
   Cr
   3.4
   3.7
   4.1
   4.4
   TCO2
   22
   26
   26
   25
   24
   23
   Glucose
   [**Telephone/Fax (3) 1461**]52
   Other labs: PT / PTT / INR:14.2/29.6/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Fluid analysis / Other labs: ANC 130
   Creat rising from admit of 2.4 to 4.4
   Vano level 40.2
   Microbiology: pending
   CMV repeated - negative
   BAL - gram stains 1+ poly, fungal neg
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   #  Respiratory failure
   # ARDS
   # vent management
   extensive infectious w/u has been unrevealing, though has been on broad
   antibx at time of bronchs,
    increasing concern for noninfectious etiology ? drug reaction,
    no evidence from bronch for DAH
    volume o/l may have contributed though does not appear primary issue
   making slow improvement on imaging
 which might suggest steroid
   response
   -          Continue broad antibx
   -           Cont steroids - solumed 40 q12h. Continue for now at same
   dose
              -       f/u cx
               -      mdi
               -      stable oxygenation 60% fio2 and 10 peep, try
   decreasing fio2 and weaning peep over next 24-48 hrs
               -      CXR overall improved. PS trials over weekend
   # ARF/ alkalosis
likely a mixed pre-renal atn picture (muddy brown
   casts on u/a) with improved gap met acidosis after fluids and bicarb
   repeat abg then will reduce MV by coming down on rr on vent as above
   without good u/o response to IVF
   f/u renal recs, no acute ind for RRT. [**Name (NI) 60**] need dialysis if u/o worsens
   #  anemia withh/h drop--some dilutional component in setting of IVF
   boluses + post-chemo response
   ? bleeding - no signs of active bleed
   Follow h/h and recheck hemolysis/dic labs
    # Hypernatremia
resolved with fluids and free water.
    # Hyperkalemia
 will watch. d/t ARF
   # AML/Chemotherapy
   Plan for repeat BMBX on [**2-2**].
   No GM-CSF per onc.
    # fevers/Neutropenia
continue broad coverage as above, low grade fever
   overnight. [**Last Name (un) **]/levo/voriconazone.
    # Altered MS--difficult to assess while sedated and on vent
   # Lines - has right subclav ? since [**1-8**]. If spikes high fever, will
   need to change line.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-1-31**] 12:44 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-02-02 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - gave Lasix + chlorthiazide to force diuresis, still net even
   - weaning sedation, pt intermittently responding to commands
   - tolerated PS throughout the day, rested on AC overnight
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-1**] 09:00 AM
   Voriconazole - [**2167-2-1**] 09:00 AM
   Meropenem - [**2167-2-1**] 10:30 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-1**] 08:00 AM
   Furosemide (Lasix) - [**2167-2-1**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-2**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 85 (72 - 96) bpm
   BP: 150/86(113) {131/70(95) - 159/91(120)} mmHg
   RR: 17 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
    CVP: 13 (4 - 16)mmHg
   Total In:
                                                                  1,387 mL
                                                                    101 mL
   PO:
   TF:
                                                                    654 mL
                                                                     17 mL
   IVF:
                                                                    572 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,062 mL
                                                                    540 mL
   Urine:
                                                                  1,062 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -439 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 185 (185 - 468) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.41/30/105/19/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   b/l, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   38 K/uL
   9.9 g/dL
   126 mg/dL
   5.5 mg/dL
   19 mEq/L
   4.7 mEq/L
   140 mg/dL
   109 mEq/L
   141 mEq/L
   29.8 %
   0.4 K/uL
        [image002.jpg]
                             [**2167-1-31**]  05:26 AM
                             [**2167-1-31**]  05:02 PM
                             [**2167-1-31**]  05:45 PM
                             [**2167-2-1**]  05:53 AM
                             [**2167-2-1**]  06:07 AM
                             [**2167-2-1**]  04:11 PM
                             [**2167-2-1**]  05:16 PM
                             [**2167-2-1**]  07:06 PM
                             [**2167-2-2**]  04:58 AM
                             [**2167-2-2**]  05:15 AM
   WBC
   0.2
   0.2
   0.3
   0.3
   0.4
   Hct
   28.6
   28.6
   29.6
   28.9
   29.8
   Plt
   55
   47
   44
   35
   38
   Cr
   4.4
   4.8
   5.1
   5.1
   5.5
   TCO2
   24
   23
   21
   23
   20
   Glucose
   152
   144
   173
   174
   126
   Other labs: PT / PTT / INR:14.3/24.9/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.8
   mg/dL
   Fluid analysis / Other labs: ABG on PS 10/5:
    pH 7.35
   pCO2 37
   pO2 94
   HCO3 21
   Imaging: The endotracheal tube, right-sided IJ central venous catheter
   and nasogastric
   tube are unchanged in position.  Again, the nasogastric tube is looped
   upon
   itself and the distal tip is pointing towards the GE junction.  The
   cardiac
   silhouette and mediastinum is unchanged in size.  There is minimal
   prominence
   of the pulmonary vascular markings.  The left retrocardiac region again
   demonstrates some streaky opacity, stable.
   Microbiology: Sputum Cx:  GRAM STAIN (Final [**2167-2-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
   URINE CULTURE (Final [**2167-2-1**]):    NO GROWTH.
   CMV DNA not detected.
   SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND
         RSV. Negative
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developped bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad antibx at time of
   bronch.  Clinical picture complicated by component of volume overload,
   but infiltrates not likely [**12-27**] pulm edema alone. Tolerated PS trial
   yesterday.  Working towards extubation in next 48hrs
   - Vanc continues to be supratherapeutic, holding for now
   - continue meropenem, levofloxacin and voriconazole
   - continue steroid taper, solumedrol from 30mg [**Hospital1 **] to 20mg today
   -  f/u ID recs
   -  f/u pending culture data
   -  difficult to diurese, continue aggressive diuresis with Lasix
   increased to 120mg IV + Chlorthiazide has been unsuccessful.  Followed
   by renal, planned single HD session today after placement of temporary
   HD line.
   # AML:  Day 24 s/p induction with 7+3. Neutropenic, gran count 120,
   monos return on diff from [**1-30**] e/o marrow reconstitution
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , still neutropenic but ANC rising.   Avoiding
   G-CSF.
   - repeat BMBx today to evaluate for continued blasts per hem/onc
   .
   # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix 120mg challenge. Potassium down to normal range from
   5.1, but no EKG changes noted.
   - continue to monitor lytes [**Hospital1 **] & renally dose meds.
   - HD today given unresolving supratherapeutic vanc level, planned one
   time session.  Temporary HD cath should be removed.
   - continue lanthanum for elevated phos
   - f/u renal recs
   - switched tube feeds to nutren renal for less K
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Post transfusion hct has been stable at
   29, no obvious source of bleeding.  Marrow beginning to reconstitute
   - transfusion to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   .
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
   -continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   .
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-02 12:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2167-2-1**] 06:00 PM
   Tolerated PS, put back on AC overnight
   HD line placed, plan to dialyse x 1
                   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-1**] 09:00 AM
   Voriconazole - [**2167-2-1**] 09:00 AM
   Meropenem - [**2167-2-1**] 10:30 AM
   Infusions:
   Propofol - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-1**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-2**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 88 (72 - 97) bpm
   BP: 161/84(115) {131/70(95) - 169/92(124)} mmHg
   RR: 24 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
   CVP: 12 (4 - 15)mmHg
   Total In:
                                                                  1,387 mL
                                                                    469 mL
   PO:
   TF:
                                                                    654 mL
                                                                     17 mL
   IVF:
                                                                    572 mL
                                                                    145 mL
   Blood products:
                                                                    308 mL
   Total out:
                                                                  1,062 mL
                                                                    708 mL
   Urine:
                                                                  1,062 mL
                                                                    708 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                   -239 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 334 (185 - 468) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.39/33/82.[**Numeric Identifier 96**]/19/-3
   Ve: 8.1 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Diaphoretic, sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   38 K/uL
   126 mg/dL
   5.5 mg/dL
   19 mEq/L
   4.7 mEq/L
   140 mg/dL
   109 mEq/L
   141 mEq/L
   29.8 %
   0.4 K/uL
        [image002.jpg]
                             [**2167-1-31**]  05:02 PM
                             [**2167-1-31**]  05:45 PM
                             [**2167-2-1**]  05:53 AM
                             [**2167-2-1**]  06:07 AM
                             [**2167-2-1**]  04:11 PM
                             [**2167-2-1**]  05:16 PM
                             [**2167-2-1**]  07:06 PM
                             [**2167-2-2**]  04:58 AM
                             [**2167-2-2**]  05:15 AM
                             [**2167-2-2**]  10:40 AM
   WBC
   0.2
   0.3
   0.3
   0.4
   Hct
   28.6
   29.6
   28.9
   29.8
   Plt
   47
   44
   35
   38
   Cr
   4.8
   5.1
   5.1
   5.5
   TCO2
   24
   23
   21
   23
   20
   21
   Glucose
   144
   173
   174
   126
   Other labs: PT / PTT / INR:14.3/24.9/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.8
   mg/dL
   Fluid analysis / Other labs: Vanco 38 today
   Imaging: CXR pending for line placements
   AM CXR shows some improvement of right lung opacities
   Microbiology: sputum cx - no growth
   urine - neg
   CMV and PCP dfa negative
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   #  Acute Respiratory failure with ARDS, unknown precipitant, possible
   steroid responsive pneumonitis. Did very well on PSV, will likely
   extubate today after BM bx. Taper steroids to solumedrol 20 IV q12h.
    # ARF/ alkalosis
likely a mixed pre-renal atn picture (muddy brown
   casts on u/a) with improved gap met acidosis after fluids and bicarb.
   Creat up. Renal plans on dialysing today for elevated Vanco level. Plan
   is for UF as well.
   #  anemia: no signs of active bleed
    # Hyperkalemia
 down from 5.1 yesterday.
   # Hyperphos - can't give phos binders through NG
   # AML/Chemotherapy: plan for repeat BMBX today.
   No GM-CSF per onc
   # fevers/Neutropenia
afeb now, continue broad coverage as above.
   [**Last Name (un) **]/levo/voriconazone.
   #  Lines - new R IJ dial catheter, and new left PICC inserted [**2-2**]
   ICU Care
   Nutrition:
   Comments: Tube feeds held
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-02-03 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2167-2-2**] 09:30 AM
   PICC placed by IV RN. Awaiting CXR confirmation of tip placement.
 MULTI LUMEN - STOP [**2167-2-2**] 11:30 AM
 DIALYSIS CATHETER - START [**2167-2-2**] 11:30 AM
 EKG - At [**2167-2-2**] 12:06 PM
   -- Patient w/ AF w/ RVR yesterday, inintially limited blockade w/ dilt
   boluses.  Started on diltiazem gtt, and PO doses titrated up.  Gtt now
   d/c'd (2am) and HR controlled on dilt 120mgPO TID.  Currently in sinus
   -- Had PICC placed, RIJ removed and temporary HD cath placed.
   -- HD w/ removal of 2.5L
   -- Had been doing well all day on pressure support, became alkalemic
   during HD.  Switched over  to AC, but w/ marginal improvement.  Patient
   tachypneic.  Sedation increased, but SBP decreased to low 80s.
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-1**] 09:00 AM
   Voriconazole - [**2167-2-1**] 09:00 AM
   Meropenem - [**2167-2-1**] 10:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2167-2-2**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 77 (69 - 144) bpm
   BP: 128/69(91) {95/53(68) - 169/92(124)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
    CVP: 12 (11 - 15)mmHg
   Total In:
                                                                    971 mL
                                                                    196 mL
   PO:
   TF:
                                                                     17 mL
   IVF:
                                                                    422 mL
                                                                    146 mL
   Blood products:
                                                                    532 mL
   Total out:
                                                                  3,493 mL
                                                                    125 mL
   Urine:
                                                                    993 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,522 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 450 (334 - 505) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.49/39/110/26/5
   Ve: 8.3 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4, Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , No(t) Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   88 K/uL
   10.7 g/dL
   112 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   58 mg/dL
   102 mEq/L
   140 mEq/L
   30.7 %
   0.5 K/uL
        [image002.jpg]
                             [**2167-2-2**]  10:40 AM
                             [**2167-2-2**]  03:47 PM
                             [**2167-2-2**]  05:49 PM
                             [**2167-2-2**]  06:00 PM
                             [**2167-2-2**]  09:29 PM
                             [**2167-2-2**]  09:55 PM
                             [**2167-2-3**]  12:05 AM
                             [**2167-2-3**]  01:09 AM
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
   WBC
   0.5
   Hct
   30.7
   Plt
   91
   88
   Cr
   2.1
   2.6
   TCO2
   21
   19
   31
   29
   27
   28
   31
   Glucose
   112
   Other labs: PT / PTT / INR:14.4/27.0/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developped bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad antibx at time of
   bronch.  Clinical picture complicated by component of volume overload,
   but infiltrates not likely [**12-27**] pulm edema alone. Tolerated PS trial
   yesterday.  Working towards extubation in next 48hrs
   - Vanc continues to be supratherapeutic, holding for now
   - continue meropenem, levofloxacin and voriconazole
   - continue steroid taper, solumedrol from 30mg [**Hospital1 **] to 20mg today
   -  f/u ID recs
   -  f/u pending culture data
   -  difficult to diurese, continue aggressive diuresis with Lasix
   increased to 120mg IV + Chlorthiazide has been unsuccessful.  Followed
   by renal, planned single HD session today after placement of temporary
   HD line.
   # AML:  Day 24 s/p induction with 7+3. Neutropenic, gran count 120,
   monos return on diff from [**1-30**] e/o marrow reconstitution
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , still neutropenic but ANC rising.   Avoiding
   G-CSF.
   - repeat BMBx today to evaluate for continued blasts per hem/onc
   .
   # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix 120mg challenge. Potassium down to normal range from
   5.1, but no EKG changes noted.
   - continue to monitor lytes [**Hospital1 **] & renally dose meds.
   - HD today given unresolving supratherapeutic vanc level, planned one
   time session.  Temporary HD cath should be removed.
   - continue lanthanum for elevated phos
   - f/u renal recs
   - switched tube feeds to nutren renal for less K
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Post transfusion hct has been stable at
   29, no obvious source of bleeding.  Marrow beginning to reconstitute
   - transfusion to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   .
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
   -continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   .
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-1-28**] 11:32 PM
   Arterial Line - [**2167-1-29**] 03:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-2**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-03 12:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Events noted.
   Dialysed.
 PICC LINE - START [**2167-2-2**] 09:30 AM
   PICC placed by IV RN. Awaiting CXR confirmation of tip placement.
 MULTI LUMEN - STOP [**2167-2-2**] 11:30 AM
 DIALYSIS CATHETER - START [**2167-2-2**] 11:30 AM
 EKG - At [**2167-2-2**] 12:06 PM
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-1**] 09:00 AM
   Meropenem - [**2167-2-3**] 08:00 AM
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2167-2-2**] 02:30 PM
   Lansoprazole (Prevacid) - [**2167-2-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-3**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 71 (69 - 144) bpm
   BP: 115/61(81) {95/53(68) - 158/90(113)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                    971 mL
                                                                    490 mL
   PO:
             TF:
                                                                     17 mL
   IVF:
                                                                    422 mL
                                                                    380 mL
   Blood products:
                                                                    532 mL
   Total out:
                                                                  3,493 mL
                                                                    242 mL
   Urine:
                                                                    993 mL
                                                                    242 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,522 mL
                                                                    248 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 215 (215 - 505) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.50/37/68/26/4
   Ve: 5.3 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant)
   Extremities: Right: 1+, Left: 1+, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   88 K/uL
   112 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   58 mg/dL
   102 mEq/L
   140 mEq/L
   30.7 %
   0.5 K/uL
        [image002.jpg]
                             [**2167-2-2**]  03:47 PM
                             [**2167-2-2**]  05:49 PM
                             [**2167-2-2**]  06:00 PM
                             [**2167-2-2**]  09:29 PM
                             [**2167-2-2**]  09:55 PM
                             [**2167-2-3**]  12:05 AM
                             [**2167-2-3**]  01:09 AM
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
                             [**2167-2-3**]  10:06 AM
   WBC
   0.5
   Hct
   30.7
   Plt
   91
   88
   Cr
   2.1
   2.6
   TCO2
   19
   31
   29
   27
   28
   31
   30
   Glucose
   112
   Other labs: PT / PTT / INR:14.4/27.0/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Fluid analysis / Other labs: ANC - 380
   Vanco 28
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis. Did well on PSV,
   possible extubation next 1-2 days.
   Taper steroids to solumedrol 20 IV q12h. Will try to aggressively
   diurese and extubate if good mechanics, decreased FiO2 in AM.
   2.  ARF: likely a mixed pre-renal atn picture (muddy brown casts on
   u/a) with improved gap met acidosis after fluids and bicarb. Creat up.
   Was dialysed for elevated Vanco level.
   3.  anemia: stable, likely from chemo, renal failure. no signs of
   active bleed
   4. Hyperkalemia, hyperphos
 resolved on HD.
   5. AML/Chemotherapy: BMT to consider repeating BM bx. Neutropenic, ANC
   improving, no GM-CSF per onc
   6.  Neutropenia
afeb now, continue broad coverage with
   [**Last Name (un) **]/levo/voriconazole. High vanco level.
   8.  Lines - new R IJ dial catheter, and new left PICC inserted [**2-2**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-02-04 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did not put out appreciable to lasix + thiazide + albumin
   - weaned FiO2 and able to decrease PEEP from 8 to 5
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-1**] 09:00 AM
   Meropenem - [**2167-2-3**] 08:00 AM
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 104 (71 - 104) bpm
   BP: 155/78(107) {101/57(72) - 165/87(116)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,182 mL
                                                                    340 mL
   PO:
             TF:
                                                                    200 mL
                                                                    230 mL
   IVF:
                                                                    672 mL
                                                                    111 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    894 mL
                                                                    460 mL
   Urine:
                                                                    894 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    288 mL
                                                                   -120 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 367 (215 - 382) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.49/35/80.[**Numeric Identifier 248**]//3
   Ve: 8.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   104 K/uL
   10.8 g/dL
   112 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   58 mg/dL
   102 mEq/L
   140 mEq/L
   31.2 %
   0.9 K/uL
        [image002.jpg]
                             [**2167-2-2**]  09:55 PM
                             [**2167-2-3**]  12:05 AM
                             [**2167-2-3**]  01:09 AM
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
                             [**2167-2-3**]  10:06 AM
                             [**2167-2-3**]  06:27 PM
                             [**2167-2-3**]  10:00 PM
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
   WBC
   0.5
   0.9
   Hct
   30.7
   31.2
   Plt
   88
   104
   Cr
   2.6
   TCO2
   29
   27
   28
   31
   30
   28
   26
   27
   Glucose
   112
   Other labs: PT / PTT / INR:14.4/27.0/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Fluid analysis / Other labs: Vanc: 26.7 ( down from 28.6 previous day
   and peak of 51.1)
   Imaging: There has been mild interval worsening in left lower lung
   opacities with
   obscuration of the left hemidiaphragm. Elsewhere, bilateral diffuse
   opacities
   are stable. There is a small left pleural effusion. Cardiomediastinal
   contours
   are unchanged. Right IJ catether tip is in the SVC. ET tube is in
   standard
   position.  NG tube tip is out of view below the diaphragm. Left PICC
   remains
   in place.
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developped bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad antibx at time of
   bronch.  Clinical picture complicated by component of volume overload
   w/ BNP >[**Numeric Identifier 1527**] normal EF, but infiltrates not likely [**12-27**] pulm edema
   alone.  SBI showed drop in PO2 to 60.  CXR shows worsening fluid
   overload in oliguric patient.  Working towards extubation in next
   48hrs.
   - Will discuss further diuresis today to help w/ fluid overload to
   facilitate extubation.  Difficult to diurese, 2.5L taken off by HD,
   catheter now pulled.  Poor response to laxix/thiazide/albumin
   yesterday.
   - Vanc continues to be supratherapeutic, holding for now, HD tow days
   agao to lower level, still remains elevated
   - continue meropenem, levofloxacin and voriconazole.  Will recheck
   today, but will continue despite neutrapenia in setting of
   neutrapenia.  If not neutrapenic, can d/c levo and will discuss
   stripping other abx with ID.
   - continue steroid taper, solumedrol from 10 mg [**Hospital1 **] today.  Will d/c
   today
   -  f/u ID recs
   -  f/u pending culture data
   - repeat b-glucan
   - Has done well on pressure support w/ PEEP now down to 5 and FIO2
   40%.   Will attempt to extubate today/tomorrow.  While patient rapid RR
   contributing to alkalosis, some secondary metabolic process also
   contributing to alkalemia.
   # AML:  Day 28 s/p induction with 7+3. Neutropenic, monos return on
   diff from [**1-30**] e/o marrow reconstitution
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , still neutropenic but ANC rising.  Awaing
   today
s diff.   Avoiding G-CSF.
   - f/u BMT rec
   # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix/thiazide/albumin. No Longer hyperkalemic.   Pt required
   HD x1 [**2-2**] for elevated vanc level is setting of renal failure and
   marrow suppression.  2.5L removed.  HD catheter removed after the one
   use.
   - push for HD today
   - appreciate renal rec
   - cont phos binders
   # Afib
 new, started [**2-2**] following insertion of the HD catheter,
   likely due to atrial irritation.  Was temporary controlled on dilt gtt,
   now well controlled in sinus on po meds.  Will follow.
   - continue current regimen
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Post transfusion hct has been stable at
   29, no obvious source of bleeding.  Marrow beginning to reconstitute.
   Received Eop with HD
   - transfusion to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
   - continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-4**] 01:19 AM 40 mL/hour
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Comments: HD cath placed [**2-2**] removed [**2-3**]
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-04 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   aggressive diuresis attempted without good u/o
   SBT this AM
   No complaints, afeb
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-3**] 08:00 AM
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-4**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 89 (76 - 104) bpm
   BP: 140/80(106) {101/57(72) - 165/87(116)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,182 mL
                                                                    420 mL
   PO:
             TF:
                                                                    200 mL
                                                                    240 mL
   IVF:
                                                                    672 mL
                                                                    181 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                    894 mL
                                                                    620 mL
   Urine:
                                                                    894 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    288 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 378 (240 - 415) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 92%
   ABG: 7.48/31/64/26/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : few at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   104 K/uL
   124 mg/dL
   3.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   83 mg/dL
   101 mEq/L
   137 mEq/L
   31.2 %
   0.9 K/uL
        [image002.jpg]
                             [**2167-2-3**]  12:05 AM
                             [**2167-2-3**]  01:09 AM
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
                             [**2167-2-3**]  10:06 AM
                             [**2167-2-3**]  06:27 PM
                             [**2167-2-3**]  10:00 PM
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
                             [**2167-2-4**]  09:41 AM
   WBC
   0.5
   0.9
   Hct
   30.7
   31.2
   Plt
   88
   104
   Cr
   2.6
   3.4
   TCO2
   27
   28
   31
   30
   28
   26
   27
   24
   Glucose
   112
   124
   Other labs: PT / PTT / INR:13.9/23.1/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:47.0 %,
   Mono:20.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Fluid analysis / Other labs: Vanoc level 26
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis, off steroids as of
   yesterday. Did well on PSV, but still hypoxemic. Will extubate once
   oxygenation improves. Did not respond to diuretics. Volume overload is
   a concern especially once off positive pressure.
   2.  ARF: creat increasing, oliguric, likely a mixed pre-renal atn
   picture (muddy brown casts on u/a). Was dialysed for elevated Vanco
   level. Would likely benefit from HD for volume overload.
   3. Anemia: improved hct
   4. AML/Chemotherapy: BMT to consider repeating BM bx. Neutropenic, ANC
   improving, no GM-CSF per onc
   5.  Neutropenia resolved
 afeb now, continue broad coverage with
   [**Last Name (un) **]/levo/voriconazole. Appreciate ID input. Will d/c levofloxacin when
   ANC>500.
   6.  Lines - new R IJ dial catheter, and new left PICC inserted [**2-2**]
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Tube feeds.
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2167-02-05 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - went to IR for dialysis line placement
   - levofloxacin was d/c'd as ANC >500
   - plan for HD in am, left on PS 10/5 overnight
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Meropenem - [**2167-2-4**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 101 (72 - 101) bpm
   BP: 136/90(109) {105/63(79) - 158/100(117)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.4 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,351 mL
                                                                    376 mL
   PO:
             TF:
                                                                    641 mL
                                                                    256 mL
   IVF:
                                                                    500 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    200 mL
   Urine:
                                                                  1,185 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    166 mL
                                                                    176 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 450 (363 - 468) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.48/31/64//0
   Ve: 6.8 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine at bases), No longer w/ coarse breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   104 K/uL
   10.8 g/dL
   124 mg/dL
   3.4 mg/dL
   26 mEq/L
   4.4 mEq/L
   83 mg/dL
   101 mEq/L
   137 mEq/L
   31.2 %
   0.9 K/uL
        [image002.jpg]
                             [**2167-2-3**]  12:05 AM
                             [**2167-2-3**]  01:09 AM
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
                             [**2167-2-3**]  10:06 AM
                             [**2167-2-3**]  06:27 PM
                             [**2167-2-3**]  10:00 PM
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
                             [**2167-2-4**]  09:41 AM
   WBC
   0.5
   0.9
   Hct
   30.7
   31.2
   Plt
   88
   104
   Cr
   2.6
   3.4
   TCO2
   27
   28
   31
   30
   28
   26
   27
   24
   Glucose
   112
   124
   Other labs: PT / PTT / INR:13.9/23.1/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:6.9
   mg/dL
   Imaging:
   Diffuse interstitial pulmonary abnormality with areas of consolidative
   coalescence have been present for several weeks.  Compared to [**2-2**],
   the
   interstitial edema and moderate right pleural effusion present have
   increased
   though heart size remains normal.  ET tube and nasogastric tube in
   standard
   placements.  Left PIC catheter can be traced to a low SVC, but the tip
   is
   indistinct.  No pneumothorax.
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developped bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be
   [**12-27**] to reactive pneumonitis, as had responded to steroids.  Clinical
   picture complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**]
   normal EF, but infiltrates not likely [**12-27**] pulm edema alone.  SBI
   yesterday showed drop in PO2 to 60.  CXR shows worsening fluid overload
   in oliguric patient.  HD catheter placed yesterday, w/ planned for HD
   today in order to hopefully facilitaty extubation with concern that
   patient would have possibility of flashing w/ elimination of PEEP.
   - Vanc (day 1 [**1-15**]) continues to be supratherapeutic, holding for now,
   HD tow days agao to lower level, still remains elevated
   -  Patient no longer neutrapenic, and levofloxacin d/c yesterday.  Will
   continue meropenem (day 11) / voriconazole (since [**1-7**]), but will
   discuss w/ ID if they feel comfortable stripping off abx.
   - steroids started for reactive pneumonitis now tapered off
   - repeat b-glucan pending
   - Has done well on pressure support w/ PEEP now down to 5 and FIO2 50%
   (increased from 40% overnight.)   Will attempt to extubate
   today/tomorrow following dialysis.  While patient rapid RR contributing
   to alkalosis, some secondary metabolic process also contributing to
   alkalemia.
   # AML:  Day 28 s/p induction with 7+3. Neutropenic, monos return on
   diff from [**1-30**] e/o marrow reconstitution
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , no longer neutropenic  Avoiding G-CSF.
   - f/u BMT rec
   # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix/thiazide/albumin. No Longer hyperkalemic.   Pt required
   HD x1 [**2-2**] for elevated vanc level is setting of renal failure and
   marrow suppression.  2.5L removed.  HD catheter removed after the one
   use.  Pt oliguric yesterday and concern that patient could have
   worsened volume overload comprimising respiration after extubation.  HD
   catheter yesterday placed, but was not dialyzed.  Planed for HD today,
   but patient now making urine.
   - plan  for HD today, but will consider new lasix trial to see if
   necessary
   - appreciate renal rec
   - cont phos binders, increased yesterday
    # Afib
 new, started [**2-2**] following insertion of the HD catheter,
   likely due to atrial irritation.  Was temporary controlled on dilt gtt,
   now well controlled in sinus on po meds.  Will follow.
   - continue current regimen
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Post transfusion hct has been stable at
   29, no obvious source of bleeding.  Marrow beginning to reconstitute.
   Received Eop with HD
   - transfusion to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
    -continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-5**] 05:11 AM 40 mL/hour
   Comments: NPO this am for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-05 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Levoflox d/c'd as not neutropenic, afebrile
   Dialysis catheter inserted, HD not started
   PS increased o/n then back to 10.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Meropenem - [**2167-2-5**] 08:23 AM
   Infusions:
   Propofol - 11 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-5**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-5**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (72 - 101) bpm
   BP: 136/74(94) {105/63(79) - 158/100(117)} mmHg
   RR: 23 (18 - 33) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,351 mL
                                                                    834 mL
   PO:
             TF:
                                                                    641 mL
                                                                    418 mL
   IVF:
                                                                    500 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                    346 mL
   Urine:
                                                                  1,185 mL
                                                                    346 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    166 mL
                                                                    488 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 398 (366 - 468) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 15 cmH2O
   SpO2: 91%
   ABG: 7.45/33/95.[**Numeric Identifier 607**]/23/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   114 K/uL
   94 mg/dL
   3.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   103 mg/dL
   99 mEq/L
   136 mEq/L
   29.9 %
   1.0 K/uL
        [image002.jpg]
                             [**2167-2-3**]  04:06 AM
                             [**2167-2-3**]  05:53 AM
                             [**2167-2-3**]  10:06 AM
                             [**2167-2-3**]  06:27 PM
                             [**2167-2-3**]  10:00 PM
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
                             [**2167-2-4**]  09:41 AM
                             [**2167-2-5**]  04:57 AM
                             [**2167-2-5**]  06:29 AM
   WBC
   0.5
   0.9
   1.0
   Hct
   30.7
   31.2
   29.9
   Plt
   88
   104
   114
   Cr
   2.6
   3.4
   3.9
   TCO2
   31
   30
   28
   26
   27
   24
   24
   Glucose
   112
   124
   94
   Other labs: PT / PTT / INR:13.0/22.0/1.1, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:7.8
   mg/dL
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing, transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
    1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis, off steroids as of
   [**2-3**]. Has been tolerating PSV with low pressures however remained
   oliguric and hypoxemic. Started to put out urine yesterday but dialysis
   will be helpful. Will likely extubate today following HD.
   2.  ARF: bun and creat increasing, oliguric improving, seems to have
   started putting out urine, likely a mixed pre-renal atn picture (muddy
   brown casts on u/a). Was dialysed for elevated Vanco level. Would
   likely benefit from HD for volume overload. Hyperphos likely to
   normalize now that she's urinating.
   3. Anemia: improved hct, stable
   4. AML/Chemotherapy: BMT following.
   5.  ID: non-neutropenic now, afeb now, on broad coverage with
   [**Last Name (un) **]/voriconazole. Appreciate ID input. Will d/c vori today.
   6.  Lines - new R IJ dial catheter, and new left PICC inserted [**2-2**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-5**] 05:11 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Tube feeds
   - hold for extubation
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total critical care time spent: 35 minutes
   Patient is critically ill

2167-02-06 07:19:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 FEVER - 101.5
F - [**2167-2-5**] 09:00 PM
   -- patient underwent HD, w/ removal of 1.5L
   -- patient w/ lower O2 sats in high 80s/low 90s, and PEEP increased to
   10.  Over night, have decreased PEEP to 8 now to 5.  Has tolerated
   well.  Have not reduced pressure support as patient becomes tachypneic
   and already has contraction alkalosis.
   -- spike temp of 101.5, sent BCx and UCx
   -- BMT does not want any antibiotics stripped until not-neutrapenic for
   7 days
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-3**] 10:00 AM
   Meropenem - [**2167-2-5**] 08:23 AM
   Voriconazole - [**2167-2-5**] 03:59 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-5**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.5
C (101.3
   HR: 108 (95 - 118) bpm
   BP: 149/63(91) {109/59(76) - 153/84(102)} mmHg
   RR: 32 (20 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,859 mL
                                                                    310 mL
   PO:
             TF:
                                                                    849 mL
                                                                    171 mL
   IVF:
                                                                    639 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  2,546 mL
                                                                    200 mL
   Urine:
                                                                    546 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -687 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (289 - 398) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 196
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.51/40/90.[**Numeric Identifier 128**]/32/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : ), coarse
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   95 K/uL
   10.1 g/dL
   113 mg/dL
   2.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   53 mg/dL
   101 mEq/L
   141 mEq/L
   29.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
                             [**2167-2-4**]  09:41 AM
                             [**2167-2-5**]  04:57 AM
                             [**2167-2-5**]  06:29 AM
                             [**2167-2-5**]  01:36 PM
                             [**2167-2-5**]  08:10 PM
                             [**2167-2-5**]  10:43 PM
                             [**2167-2-6**]  02:44 AM
                             [**2167-2-6**]  05:44 AM
   WBC
   0.9
   1.0
   1.3
   Hct
   31.2
   29.9
   29.8
   Plt
   104
   114
   95
   Cr
   3.4
   3.9
   2.8
   TCO2
   27
   24
   24
   32
   34
   34
   33
   Glucose
   124
   94
   113
   Other labs: PT / PTT / INR:13.9/26.0/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developed bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be
   [**12-27**] to reactive pneumonitis, as had responded to steroids.  Clinical
   picture complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**]
   normal EF, but infiltrates not likely [**12-27**] pulm edema alone.
   - Vanc (day 1 [**1-15**]) continues to be supratherapeutic, holding for now,
   despite HD, still remains elevated
   -  Patient no longer neutrapenic, and levofloxacin and vori had been
   d/c
d, however, BMT would like to keep all antibiotics on until not
   neutropenic for 7 days and off the vent.  Vori restarted and
   subsequently LVQ also restarted [**12-27**] persistent fevers.
   - steroids started for reactive pneumonitis now tapered off
   - Has done well on pressure support w/ PEEP now down to 8 and FIO2 50%
   (increased from 40% overnight.)   Will attempt to extubate
   today/tomorrow with aggressive vent weaning.
   - While patient rapid RR contributing to alkalosis, some secondary
   metabolic process also contributing to alkalemia likely contraction.
   # Fever
 new infection v re-engraftment
   - cont broad spectrum antibiotics
 vanc, vori, [**Last Name (un) 430**]
   - restart levo
   - f/u cx
   # AML:  Day 29 s/p induction with 7+3. No longer neutrapecic
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , no longer neutropenic  Avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
 following HD
   patient again became quite alkalemic, likely a contraction effect [**12-27**]
   to taking large volume of fluid off, however, does not explain ABG, pt
   also has a second componenet of respiratory alkalosis likely [**12-27**]
   hyperventilation with RR>30.
   - for metabolic alk
 likely contraction, no intervention, will follow
   gases
   - for resp
 titrate vent to decrease RR, inc sedation if necessary
   # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix/thiazide/albumin. No Longer hyperkalemic.   Pt required
   HD x2 for elevated vanc level is setting of renal failure and marrow
   suppression.  2.5L removed.  Pt became oliguric with oncern that
   patient could have worsened volume overload comprimising respiration
   after extubation.  HD catheter  placed and pt dialyzed.  Patient
   currelty making urine ~30cc/h
   - no HD today
   - appreciate renal rec
   - cont phos binders, increased yesterday
    # Afib
 new, started [**2-2**] following insertion of the HD catheter,
   likely due to atrial irritation.  Was temporary controlled on dilt gtt,
   now well controlled in sinus on po meds.  Will follow.
   - continue current regimen
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Post transfusion hct has been stable at
   29, no obvious source of bleeding.  Marrow beginning to reconstitute.
   Received Eop with HD
   - transfusion to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
    -continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2167-02-06 12:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Temp 101.5
   Pancultured
   Ultrafiltrated by dialysis yesterday, removal of 1.5 L
   This AM, increasing Fio2/peep requirements.
   Meropenem d 12
   Voriconazole
   vancomycin d 22
                   Patient unable to provide history: intubated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-5**] 08:23 AM
   Voriconazole - [**2167-2-5**] 03:59 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-6**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 88 (88 - 118) bpm
   BP: 109/52(69) {105/51(69) - 153/84(100)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,859 mL
                                                                    482 mL
   PO:
             TF:
                                                                    849 mL
                                                                    171 mL
   IVF:
                                                                    639 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  2,546 mL
                                                                    220 mL
   Urine:
                                                                    546 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -687 mL
                                                                    262 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 315 (289 - 363) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 196
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.51/40/90.[**Numeric Identifier 128**]/32/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   95 K/uL
   113 mg/dL
   2.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   53 mg/dL
   101 mEq/L
   141 mEq/L
   29.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-4**]  05:30 AM
                             [**2167-2-4**]  05:52 AM
                             [**2167-2-4**]  09:41 AM
                             [**2167-2-5**]  04:57 AM
                             [**2167-2-5**]  06:29 AM
                             [**2167-2-5**]  01:36 PM
                             [**2167-2-5**]  08:10 PM
                             [**2167-2-5**]  10:43 PM
                             [**2167-2-6**]  02:44 AM
                             [**2167-2-6**]  05:44 AM
   WBC
   0.9
   1.0
   1.3
   Hct
   31.2
   29.9
   29.8
   Plt
   104
   114
   95
   Cr
   3.4
   3.9
   2.8
   TCO2
   27
   24
   24
   32
   34
   34
   33
   Glucose
   124
   94
   113
   Other labs: PT / PTT / INR:13.9/26.0/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.8
   mg/dL
   Fluid analysis / Other labs: Vanco 23.4
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing, transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
    1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis, off steroids as of
   [**2-3**]. Has been tolerating PSV but today needs increased FiO2/Peep. CXR
   not showing any new infiltrates. Continues to put out urine. Does not
   seem to need dialysis today. Continue to wean vent as tolerated.
   2.  ARF: creat improved. Likely a resolving mixed pre-renal atn picture
   (muddy brown casts on u/a). Was dialysed for elevated Vanco level.
   3. Anemia: improved hct, stable
   4. AML/Chemotherapy: BMT following.
   5.  ID: non-neutropenic now, [**Month (only) **] now, will add back levofloxacin.
   Continue broad coverage with [**Last Name (un) **]/voriconazole/voriconazole. Appreciate
   ID input.
   6.  Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted
   [**2-2**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: Husband has been updated by
   me daily
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min critical care time minutes
   Patient is critically ill

2167-02-07 08:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - restarted LVQ for persistent fevers
   - CMV viral load P - must be ordered weekly
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-5**] 08:23 AM
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Voriconazole - [**2167-2-7**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   VANC LEVEL  19.9
   Other medications:
   Flowsheet Data as of  [**2167-2-7**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 104 (86 - 110) bpm
   BP: 162/72(100) {103/52(69) - 164/76(105)} mmHg
   RR: 23 (21 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,392 mL
                                                                    494 mL
   PO:
             TF:
                                                                    500 mL
                                                                    163 mL
   IVF:
                                                                    546 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    185 mL
   Urine:
                                                                    555 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                    309 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (293 - 421) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.49/32/84.[**Numeric Identifier 1625**]/26/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Labs / Radiology
   116 K/uL
   8.6 g/dL
   81 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   64 mg/dL
   100 mEq/L
   139 mEq/L
   24.9 %
   1.1 K/uL
        [image002.jpg]
                             [**2167-2-5**]  04:57 AM
                             [**2167-2-5**]  06:29 AM
                             [**2167-2-5**]  01:36 PM
                             [**2167-2-5**]  08:10 PM
                             [**2167-2-5**]  10:43 PM
                             [**2167-2-6**]  02:44 AM
                             [**2167-2-6**]  05:44 AM
                             [**2167-2-6**]  06:31 PM
                             [**2167-2-7**]  05:45 AM
                             [**2167-2-7**]  06:07 AM
   WBC
   1.0
   1.3
   1.1
   Hct
   29.9
   29.8
   24.9
   Plt
   114
   95
   116
   Cr
   3.9
   2.8
   3.6
   TCO2
   24
   32
   34
   34
   33
   27
   25
   Glucose
   94
   113
   81
   Other labs: PT / PTT / INR:14.6/30.2/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:80.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.3
   mg/dL
   Fluid analysis / Other labs: Vanc level 19.9
   Imaging: CXR [**2-6**]:
   Note is made that this radiograph is of suboptimal technique due to
   severe
   motion/ breathing artifacts.  The ETT tube is 4 cm above the carina.
   The NG
   tube can be followed up to the gastroesophageal junction but most
   likely
   terminates in the stomach and cannot be seen due to breathing
   artifacts.
   Allowing to the technical differences, there is no change in bilateral
   perihilar opacities predominantly involving the lower lobes, consistent
   with
   pulmonary edema and pleural effusion
   [**Month/Year (2) 1475**]: CMV pending
   C Diff neg from [**2-3**]
   All blood & Urine Cx since [**2-2**] NGTD
   [**2167-1-27**] 2:24 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2167-1-27**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2167-1-29**]):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Final [**2167-2-3**]):    NO LEGIONELLA ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2167-1-28**]):
         PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies.
         if pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 1475**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2167-1-28**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED.
      ACID FAST SMEAR (Final [**2167-1-28**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, initially
   improved on Abx. Then, after induction with 7+3 developed bilateral
   lower lobe infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive
   infectious workup has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be
   [**12-27**] to reactive pneumonitis, as had responded to steroids.  Clinical
   picture complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**]
   normal EF, but infiltrates not likely [**12-27**] pulm edema alone.   RSBI
   high, pt initially tolerated PS, now getting tachypneic & unable to
   tolerate?
   -  Patient no longer neutrapenic, and levofloxacin and vori had been
   d/c
d, however, BMT would like to keep all antibiotics on until not
   neutropenic for 7 days and off the vent.  Vori restarted and
   subsequently LVQ also restarted [**12-27**] persistent fevers.
   - initially looking ready to extubate, now high RSBI's?
   - steroids started for reactive pneumonitis now tapered off
   - Has done well on pressure support w/ PEEP now down to 8 and FIO2 50%
   (increased from 40% overnight.)   Will attempt to extubate
   today/tomorrow with aggressive vent weaning.
   - While patient rapid RR contributing to alkalosis, some secondary
   metabolic process also contributing to alkalemia likely contraction
   # Fever
 new infection vs re-engraftment,cultures NGTD  r/o line site
   infection, DVT, sinusitis, VAP?
   - cont broad spectrum antibiotics
 vanc, voriconazole, [**Last Name (un) 430**] & levo
   today
   - f/u cx
   # AML:  Day 30 s/p induction with 7+3. No longer neutrapecic
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , no longer neutropenic  Avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
 following HD
   patient again became quite alkalemic, likely a contraction effect [**12-27**]
   to taking large volume of fluid off, however, does not explain ABG, pt
   also has a second componenet of respiratory alkalosis likely [**12-27**]
   hyperventilation with RR>30.
   - for metabolic alk
 likely contraction, no intervention, will follow
   gases
   - for resp
 titrate vent to decrease RR, inc sedation if necessary
    # ARF
 pt with rising BUN/Creatinine & [**Month (only) 38**] UOP. Muddy brown casts in
   urinary sediment consistent with ATN, etiology unclear.   Creatinine
   plateau not defined yet, waiting on resolution.  UOP did not respond
   approp to Lasix/thiazide/albumin. Pt has required HD x2 for elevated
   vanc level is setting of renal failure and marrow suppression.  2.5L
   removed.  Pt became oliguric with oncern that patient could have
   worsened volume overload comprimising respiration after extubation.  HD
   catheter placed and pt dialyzed.  Patient making urine ~30cc/h
   - plan for HD? today, can give 1u pRBCs with HD
   - appreciate renal rec
   - cont phos binders, increased yesterday
    # Afib
 new, started [**2-2**] following insertion of the HD catheter,
   likely due to atrial irritation.  Was temporary controlled on dilt gtt,
   now well controlled in sinus on po meds.  Will follow.
   - continue current regimen
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Hct drop o/n from 29.8 to 24.9, no
   obvious source of bleeding.  Marrow beginning to reconstitute.
   - transfuse with 1upRBCs today, goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head negative for evidence of bleed. No clear evidence of metastatic
   disease or emboli. However, given initial path significant for M4 AML
   which is known for CNS spread. Consider toxic/metabolic/hypoxia &
   polypharmacy as most likely etiology of MS changes.
    -continue to renally dose meds, treat hypoxia .
   -will be able to better evaluate when patient extubated, will consider
   MRI if MS [**First Name (Titles) 292**] [**Last Name (Titles) 1479**]
   ICU Care
   Nutrition:
   Comments: ? residuals, TF held for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2167-02-07 12:43:00 Physician Attending Progress Note
Chief Complaint: Respirtory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo woman with h/o AML, s/p induction chemotherpay here with
   respiratory failure
   24 Hour Events:
   Restarted on levoflox for persistent fevers
   Getting HD currently
   History obtained from Medical records, ICU team
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Voriconazole - [**2167-2-7**] 04:00 AM
   Meropenem - [**2167-2-7**] 08:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   lansoprazole, Peridex, RISS, diltiazem, voriconazole, propofol,
   levoflox, meropenem.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Ventilatory support
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2167-2-7**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 103 (86 - 110) bpm
   BP: 165/73(102) {103/56(70) - 168/76(105)} mmHg
   RR: 28 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.9 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,392 mL
                                                                    732 mL
   PO:
             TF:
                                                                    500 mL
                                                                    163 mL
   IVF:
                                                                    546 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    270 mL
   Urine:
                                                                    555 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    837 mL
                                                                    462 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (320 - 421) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.49/35/68/26/3
   Ve: 9 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: No acute distress, Intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   116 K/uL
   81 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   64 mg/dL
   100 mEq/L
   139 mEq/L
   24.9 %
   1.1 K/uL
        [image002.jpg]
                             [**2167-2-5**]  06:29 AM
                             [**2167-2-5**]  01:36 PM
                             [**2167-2-5**]  08:10 PM
                             [**2167-2-5**]  10:43 PM
                             [**2167-2-6**]  02:44 AM
                             [**2167-2-6**]  05:44 AM
                             [**2167-2-6**]  06:31 PM
                             [**2167-2-7**]  05:45 AM
                             [**2167-2-7**]  06:07 AM
                             [**2167-2-7**]  09:14 AM
   WBC
   1.3
   1.1
   Hct
   29.8
   24.9
   Plt
   95
   116
   Cr
   2.8
   3.6
   TCO2
   24
   32
   34
   34
   33
   27
   25
   27
   Glucose
   113
   81
   Other labs: PT / PTT / INR:14.6/30.2/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.3
   mg/dL
   Microbiology: C. Diff: neg from [**2-3**]
   Blood 3/10: NGTD
   Assessment and Plan
   68 yo woman with h/o breast CA, post-polio syndrome, recent dx of AML,
   s/p7+3.  In ICU with respiratory failure/ARDS, fevers, renal failure
   Respirtory Failure: SBT after dialysis run today. Still with
   interstitial infiltrates on CXR. Concerns regarding [**Doctor Last Name **] ( with
   reconstitution of ANC). Will r/o nosocomial influenza with DFA.
   Fever: Unclear of the nature of the fever or of source of respiratory
   failure.  No new focal infiltrate.  restarted on levofloxacin.  On
   voriconazole, meropenem.  Continues to have a substantial vanco level.
   If still febrile on [**2-8**], will repeat CT of sinuses/chest/abdomen
   ARF: Starting to produce urine.  Cont HD per renal.
   Anemia: Hct lower today - recheck post-HD
   AML: follwed by BMT service
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2167-02-08 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dialysis with removal of 2L
   - spiked temp of 101 after dialysis, pan cultured, 102 this am,
   cultures repeated
   - received 1upRBCs
   - tachypneic with RR in 40s, alkalotic with low sats 90% on CPAP,
   switched to 15/10 and RR came down to 14-20, sats came up & ABG
   improved (currently [**11-4**])
   - ordered for CT Head/Chest/Sinuses for ongoing fevers
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Meropenem - [**2167-2-7**] 08:30 AM
   Voriconazole - [**2167-2-7**] 04:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-8**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 104 (88 - 129) bpm
   BP: 139/69(90) {97/54(68) - 168/91(115)} mmHg
   RR: 23 (14 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.9 kg (admission): 76.1 kg
   Height: 59 Inch
           Total In:
                                                                  1,451 mL
                                                                    661 mL
   PO:
           TF:
                                                                    440 mL
                                                                    290 mL
   IVF:
                                                                    655 mL
                                                                    121 mL
   Blood products:
                                                                    176 mL
                                                                    199 mL
   Total out:
                                                                  2,925 mL
                                                                     55 mL
   Urine:
                                                                    425 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                    606 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (245 - 604) mL
   PS : 12 cmH2O
   RR (Spontaneous): 37
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.50/35/80.[**Numeric Identifier 248**]/26/3
   Ve: 12.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   r > l)
   Extremities: Right: 1+, Left: 1+, improved LE edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   9.7 g/dL
   102 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   27.7 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-6**]  06:31 PM
                             [**2167-2-7**]  05:45 AM
                             [**2167-2-7**]  06:07 AM
                             [**2167-2-7**]  09:14 AM
                             [**2167-2-7**]  06:00 PM
                             [**2167-2-7**]  06:03 PM
                             [**2167-2-7**]  06:13 PM
                             [**2167-2-7**]  11:39 PM
                             [**2167-2-8**]  05:26 AM
                             [**2167-2-8**]  05:51 AM
   WBC
   1.1
   0.9
   1.3
   Hct
   24.9
   24.3
   27.7
   Plt
   116
   121
   127
   Cr
   3.6
   1.9
   2.5
   TCO2
   27
   25
   27
   31
   27
   28
   Glucose
   81
   81
   102
   Other labs: PT / PTT / INR:14.6/30.2/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.6
   mg/dL
   Fluid analysis / Other labs: 7.50/ pCO2 38/ 72
   7.47/ pCO2 36 / 117
   7.50/ pCO2 35/ 80
   Imaging:
   CXR:  Diffuse patchy airspace opacities, which appear to have worsened
   since the
   prior study.  Airspace opacities are worse on the left than on the
   right.
   Microbiology: Sputum Cx:    1+    (<1 per 1000X FIELD):   GRAM POSITIVE
   COCCI. IN PAIRS.
   CMV and BCx pending
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.
   - continue Vancomycin, [**Last Name (un) **], Levo, Vori  (vanc level 19 today)
   - steroids started for reactive pneumonitis now tapered off
   - rapid RR contributing to alkalosis, in addition to likely
   contriubtion from contraction alkalosis following HD
   - continue to work towards extubation, addl volume removal via HD
   - CT scan to evaluate worsening of ARDS or development of VAP as
   patient
s vent dependence has increased in the setting of persistent
   fever.
   - will decrease vent settings to PS 8/8/50% to see if can tolerate
   # Fever
  unclear if this is due to new infection vs re-engraftment.
   Sputum GS shows GPC, awaing speciation, otherwise have been NGTD, line
   site looks good.  Pt may need CT to r/o sinusitis vs new pulm process.
   -CT scan today of sinuses/chest.  Will additionally allow liver windows
   to evaluate for hepatic fungal infiltration.
   - cont broad spectrum antibiotics
 vanc, voriconazole, [**Last Name (un) 430**] & levo
   - f/u cultures
   - LENI negative
   # AML:  Day 30 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   - for resp alkalosis
 follow ABGs titrate vent prn decrease RR, inc
   sedation if necessary
    # ARF
Rising Creatine & muddy brown casts in sediment consistent with
   ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   comprimising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.
   - HD yesterday w/ 2 L revoved, 1upRBCs after HD
   - 250mg of vanc dosed during HD yesterday
   - Cr continues to rise after each HD session
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Hct trended down o/n from 29.8 to 24.9,
   will recheck hct after HD and if stable below 25, will transfuse
   1upRBCs
    - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   -CT scan of head today
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-8**] 03:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-08 12:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo woman with h/o breast CA, post-polio syndrome, recent dx of AML,
   s/p7+3.  In ICU with respiratory failure/ARDS, fevers, renal failure
   24 Hour Events:
   HD yesterday --> 2L removed
   Spiked fever to 102.2 post-HD
   PSV increased to 15/10 overnight --> now on [**11-2**]
   1 unit pRBCs transfused
   History obtained from Medical records, ICU
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Voriconazole - [**2167-2-7**] 04:00 PM
   Meropenem - [**2167-2-8**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   lansoprazole, Peridex, diltiazem, lanthunum, RISS, EPO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-8**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.1
C (100.6
   HR: 99 (88 - 129) bpm
   BP: 157/72(98) {97/54(68) - 163/91(115)} mmHg
   RR: 27 (14 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
           Total In:
                                                                  1,451 mL
                                                                  1,233 mL
   PO:
           TF:
                                                                    440 mL
                                                                    486 mL
   IVF:
                                                                    655 mL
                                                                    317 mL
   Blood products:
                                                                    176 mL
                                                                    199 mL
   Total out:
                                                                  2,925 mL
                                                                     85 mL
   Urine:
                                                                    425 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,474 mL
                                                                  1,148 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (245 - 604) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.50/35/80.[**Numeric Identifier 248**]/26/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   127 K/uL
   102 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   27.7 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-6**]  06:31 PM
                             [**2167-2-7**]  05:45 AM
                             [**2167-2-7**]  06:07 AM
                             [**2167-2-7**]  09:14 AM
                             [**2167-2-7**]  06:00 PM
                             [**2167-2-7**]  06:03 PM
                             [**2167-2-7**]  06:13 PM
                             [**2167-2-7**]  11:39 PM
                             [**2167-2-8**]  05:26 AM
                             [**2167-2-8**]  05:51 AM
   WBC
   1.1
   0.9
   1.3
   Hct
   24.9
   24.3
   27.7
   Plt
   116
   121
   127
   Cr
   3.6
   1.9
   2.5
   TCO2
   27
   25
   27
   31
   27
   28
   Glucose
   81
   81
   102
   Other labs: PT / PTT / INR:14.6/30.2/1.3, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:96.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.6
   mg/dL
   Imaging:
   Assessment and Plan
   68 yo woman with h/o breast CA, post-polio syndrome, recent dx of AML,
   s/p7+3.  In ICU with respiratory failure/ARDS, fevers, renal failure
   Respiratory Failure: Requiring increased support today - possible VAP
   but no convincing focal infiltrates on CXR.  Getting chest CT today.
   (Prelim glance: increased bilat pleural effusions, worse on left, LUL
   nodule now cavitary, diffuse patchy opac same or worse) SBT after scan
   for assessment purposes.  Will r/o nosocomial influenza with DFA.
   Fever: Ongoing fever spikes.  CT head, chest, sinuses today.
   Levofloxacin, voriconazole, meropenem.  Vanco dosed with HD yesterday.
   Sputum with GPCs.    Follow-up cx data. Chest CT does not (on first
   glance) reveal a clear source for ongoing fevers. LUL cavitary nodule
   which appears in communication with LUL ant segment bronchus and close
   to anterior pleura. Consider left thoracentesis.
   ARF: Starting to produce urine.  Cont HD per renal.
   Anemia: s/p 1 unit pRBCs yesterday
   AML: follwed by BMT service
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-8**] 03:53 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-02-09 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2167-2-8**] 10:07 PM
 BLOOD CULTURED - At [**2167-2-9**] 05:59 AM
 FEVER - 101.6
F - [**2167-2-8**] 08:00 PM
   -- Patient over 1L positive, fellow did not want to diurese.  Spoke to
   renal who will diurese patient tomorrow.
   -- Patient w/ CT scan of chest/head/sinuses.  Head and sinuses
   unremarkable, lung showing new cavitating lesion at site of former
   nodule.  Plan to call IP for possible [**Female First Name (un) **] tomorrow.
   -- Had decrease to PS [**7-3**], but PaO2 of 60.  Had to increase to PS of
   [**9-4**].
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Meropenem - [**2167-2-8**] 08:00 AM
   Voriconazole - [**2167-2-9**] 04:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.6
   HR: 92 (87 - 108) bpm
   BP: 110/59(75) {103/59(74) - 162/75(102)} mmHg
   RR: 30 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,257 mL
                                                                    519 mL
   PO:
             TF:
                                                                    968 mL
                                                                    281 mL
   IVF:
                                                                    645 mL
                                                                    198 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                    165 mL
                                                                     43 mL
   Urine:
                                                                    165 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,092 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (285 - 448) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.44/38/130/24/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Wheezes : ), coarse
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   132 K/uL
   8.3 g/dL
   90 mg/dL
   3.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   47 mg/dL
   101 mEq/L
   137 mEq/L
   23.5 %
   1.2 K/uL
        [image002.jpg]
                             [**2167-2-7**]  06:03 PM
                             [**2167-2-7**]  06:13 PM
                             [**2167-2-7**]  11:39 PM
                             [**2167-2-8**]  05:26 AM
                             [**2167-2-8**]  05:51 AM
                             [**2167-2-8**]  01:01 PM
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
   WBC
   0.9
   1.3
   1.2
   Hct
   24.3
   27.7
   26.5
   23.5
   Plt
   121
   127
   132
   Cr
   2.5
   3.0
   3.6
   TCO2
   31
   27
   28
   27
   28
   27
   Glucose
   102
   94
   90
   Other labs: PT / PTT / INR:13.8/28.7/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - bronch today; if sample does not yield useful information, can
   consider tapping pleural effusions
   - will check [**Doctor First Name 1205**], RF, [**Doctor First Name 1205**] for vasculitis work-up
   - continue Vancomycin, [**Last Name (un) **], Levo, Vori  (vanc level 19 today)
   - steroids started for reactive pneumonitis now tapered off
   - rapid RR contributing to alkalosis, in addition to likely
   contribution from contraction alkalosis following HD
   - continue to work towards extubation, add
l volume removal via HD
   # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  CT showed cavitating lesion left
   upper lobe.
   - bronch today
   - can consider tapping pleural effusions
   - cont broad spectrum antibiotics
 vanc, voriconazole, [**Last Name (un) 430**] & levo,
   however, in absence of any positive culture data, fevers could be drug
   related, once bronch specimen evaluated, can consider weaning to try to
   eliminate possible culprit
   - f/u cultures
   - LENI negative
   # AML:  Day 31 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   - for resp alkalosis
 follow ABGs titrate vent prn decrease RR, inc
   sedation if necessary
    # ARF
Rising Creatine & muddy brown casts in sediment consistent with
   ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.
   - HD today with 1upRBCs
   - 250mg of vanc if post HD trough low
   - Cr continues to rise after each HD session
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Hct trended down o/n from 29.8 to 24.9,
   will recheck hct after HD and if stable below 25, will transfuse
   1upRBCs
    - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-9**] 02:10 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-09 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2167-2-8**] 10:07 PM
 BLOOD CULTURED - At [**2167-2-9**] 05:59 AM
 FEVER - 101.6
F - [**2167-2-8**] 08:00 PM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2167-2-6**] 01:00 PM
   Voriconazole - [**2167-2-9**] 04:00 AM
   Meropenem - [**2167-2-9**] 08:15 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2167-2-9**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-9**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.8
   HR: 97 (87 - 108) bpm
   BP: 139/70(91) {103/59(74) - 162/75(102)} mmHg
   RR: 29 (21 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,257 mL
                                                                    956 mL
   PO:
             TF:
                                                                    968 mL
                                                                    449 mL
   IVF:
                                                                    645 mL
                                                                    417 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                    165 mL
                                                                     53 mL
   Urine:
                                                                    165 mL
                                                                     53 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,092 mL
                                                                    903 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (285 - 448) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.44/38/130/24/2
   Ve: 9.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   132 K/uL
   90 mg/dL
   3.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   47 mg/dL
   101 mEq/L
   137 mEq/L
   23.5 %
   1.2 K/uL
        [image002.jpg]
                             [**2167-2-7**]  06:03 PM
                             [**2167-2-7**]  06:13 PM
                             [**2167-2-7**]  11:39 PM
                             [**2167-2-8**]  05:26 AM
                             [**2167-2-8**]  05:51 AM
                             [**2167-2-8**]  01:01 PM
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
   WBC
   0.9
   1.3
   1.2
   Hct
   24.3
   27.7
   26.5
   23.5
   Plt
   121
   127
   132
   Cr
   2.5
   3.0
   3.6
   TCO2
   31
   27
   28
   27
   28
   27
   Glucose
   102
   94
   90
   Other labs: PT / PTT / INR:13.8/28.7/1.2, ALT / AST:13/37, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:2.9 g/dL, LDH:508 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.2
   mg/dL
   Fluid analysis / Other labs: vanc level 17
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing, transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards
   1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis, off steroids as of
   [**2-3**]. Has been tolerating PSV but continues to be PEEP dependent. CT
   now shows LUL cavitating nodule.
   LUL nodule - will bronch and send LUL BAL for micro. Pleural effusions
   likely transudative. [**Month (only) 60**] need pleural effusions tapped to r/o empyema.
   2.  ARF: Likely a resolving mixed pre-renal atn picture (muddy brown
   casts on u/a). Was dialysed for elevated Vanco level, now for volume
   overload. Continues to put out urine. Getting HD today. Continue to
   wean vent as tolerated.
   3. ID/FEVER: non-neutropenic now, continues to be febrile, levofloxacin
   added back last week. Continue broad coverage with [**Last Name (un) **]
   ([**1-26**])/Levo/voriconazole ([**1-7**]). Appreciate ID input.
   4. Anemia: improved hct, stable
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-9**] 02:10 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min critical care time minutes
   Patient is critically ill

2167-02-10 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-9**] 12:47 PM
 BRONCHOSCOPY - At [**2167-2-9**] 02:44 PM
 FEVER - 101.8
F - [**2167-2-9**] 05:00 PM
   - New cavitary lesion on chest CT - ddx - bronch'd, BAL results
   pending, vasculitis markers sent, will hold off on tapping pleural
   effusions for now
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-9**] 08:15 AM
   Voriconazole - [**2167-2-9**] 04:00 PM
   Vancomycin - [**2167-2-9**] 09:07 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2167-2-9**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.5
   HR: 102 (91 - 113) bpm
   BP: 101/58(72) {92/54(67) - 154/76(103)} mmHg
   RR: 17 (11 - 46) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,471 mL
                                                                    342 mL
   PO:
             TF:
                                                                    971 mL
                                                                    263 mL
   IVF:
                                                                    875 mL
                                                                     79 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,073 mL
                                                                      0 mL
   Urine:
                                                                     73 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -602 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (324 - 504) mL
   PS : 18 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.44/34/106/21/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base (while on left side), No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   133 K/uL
   9.2 g/dL
   92 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   32 mg/dL
   106 mEq/L
   136 mEq/L
   26.5 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-8**]  05:51 AM
                             [**2167-2-8**]  01:01 PM
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
   WBC
   1.2
   1.3
   Hct
   26.5
   23.5
   30.4
   26.5
   Plt
   132
   133
   Cr
   3.0
   3.6
   2.6
   TCO2
   28
   27
   28
   27
   25
   24
   Glucose
   94
   90
   92
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Microbiology: BAL:
    GRAM STAIN (Final [**2167-2-9**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - bronch today; if sample does not yield useful information, can
   consider tapping pleural effusions
   - will check [**Doctor First Name 1205**], RF, [**Doctor First Name 1205**] for vasculitis work-up
   - continue Vancomycin, [**Last Name (un) **], Levo, Vori  (vanc level 19 today)
   - steroids started for reactive pneumonitis now tapered off
   - rapid RR contributing to alkalosis, in addition to likely
   contribution from contraction alkalosis following HD
   - continue to work towards extubation, add
l volume removal via HD
   # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  CT showed cavitating lesion left
   upper lobe.
   - bronch today
   - can consider tapping pleural effusions
   - cont broad spectrum antibiotics
 vanc, voriconazole, [**Last Name (un) 430**] & levo,
   however, in absence of any positive culture data, fevers could be drug
   related, once bronch specimen evaluated, can consider weaning to try to
   eliminate possible culprit
   - f/u cultures
   - LENI negative
   # AML:  Day 31 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   - for resp alkalosis
 follow ABGs titrate vent prn decrease RR, inc
   sedation if necessary
    # ARF
Rising Creatine & muddy brown casts in sediment consistent with
   ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.
   - HD today with 1upRBCs
   - 250mg of vanc if post HD trough low
   - Cr continues to rise after each HD session
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction, received 2u
   pRBCs on [**1-30**] from hct of 20.  Hct trended down o/n from 29.8 to 24.9,
   will recheck hct after HD and if stable below 25, will transfuse
   1upRBCs
    - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-10**] 01:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-10 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Bronchoscopy yesterday - unremarkable airways. BAL sent for micro and
   cell count/diff.
   Tm 101.8
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-9**] 04:00 PM
   Vancomycin - [**2167-2-9**] 09:07 PM
   Meropenem - [**2167-2-10**] 08:35 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2167-2-9**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-10**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.7
C (101.7
   HR: 97 (91 - 113) bpm
   BP: 102/58(72) {92/54(67) - 154/76(103)} mmHg
   RR: 15 (11 - 46) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,516 mL
                                                                    652 mL
   PO:
             TF:
                                                                    971 mL
                                                                    349 mL
   IVF:
                                                                    919 mL
                                                                    303 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,073 mL
                                                                     10 mL
   Urine:
                                                                     73 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -557 mL
                                                                    642 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 547 (330 - 547) mL
   PS : 18 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: 7.44/34/106/21/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, SAS [**1-27**]
   Labs / Radiology
   9.2 g/dL
   133 K/uL
   92 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   32 mg/dL
   106 mEq/L
   136 mEq/L
   26.5 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-8**]  05:51 AM
                             [**2167-2-8**]  01:01 PM
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
   WBC
   1.2
   1.3
   Hct
   26.5
   23.5
   30.4
   26.5
   Plt
   132
   133
   Cr
   3.0
   3.6
   2.6
   TCO2
   28
   27
   28
   27
   25
   24
   Glucose
   94
   90
   92
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, polio and post-polio syn, recently
   dx
d AML strated on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume ol,
   ARF and progressive b/l pulmonary infiltrates with extensive infection
   w/u unrevealing, transferred  to ICU for progressive hypoxemia,
   intubated for respiratory failure, ards. Failure to wean due to
   tachypnea, O2 requirements.
    1.  Respiratory failure with ARDS, unknown precipitant,all cultures
   negative, possible steroid responsive pneumonitis initially, off
   steroids as of [**2-3**]. Has been tolerating PSV but continues to be PEEP
   dependent. CT now shows LUL cavitating nodule - BAL showed 1+ polys, no
   organisms, rest pending.
   Pulmonary nodule
 concern for active infectious process resulting in
   cavitation. Nodule seen on [**1-27**]
   CT.
                                                    Pleural effusions,
   unclear if empyema vs more likely transudate. Will ask IP to do
   thoracentesis.
   2.  ARF with oliguria: likely a mixed pre-renal atn picture (muddy
   brown casts on u/a). Was dialysed for elevated Vanco level, now for
   volume overload. HD per renal. 3 L off yesterday. Continue to wean vent
   as tolerated.
   3. ID/FEVER: non-neutropenic now, continues to be febrile, levofloxacin
   added back last week. Continue broad coverage with [**Last Name (un) **]
   ([**1-26**])/Levo/voriconazole ([**1-7**]). Appreciate ID input.  Cultures so far
   negative.
   4. Anemia: improved hct, stable
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   ICU Care
   Nutren Pulmonary (Full) - [**2167-2-10**] 01:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2167-02-11 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-11**] 04:17 AM
 FEVER - 101.7
F - [**2167-2-10**] 08:00 AM
   - remained on PEEP 10 & sating well, was not weaned overnight
   - IP not planning to tap pleural effusions, too small
   - Tof 101 this am, cultures sent
   - plan for HD in am
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-9**] 04:00 PM
   Vancomycin - [**2167-2-9**] 09:07 PM
   Meropenem - [**2167-2-10**] 08:35 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-11**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.8
C (100
   HR: 101 (94 - 108) bpm
   BP: 109/62(77) {91/52(65) - 133/71(91)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,718 mL
                                                                    407 mL
   PO:
             TF:
                                                                    940 mL
                                                                    299 mL
   IVF:
                                                                    568 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     20 mL
   Urine:
                                                                     40 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,678 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 547 (537 - 547) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.43/30/123/19/-2
   Ve: 9.6 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   150 K/uL
   9.0 g/dL
   94 mg/dL
   3.7 mg/dL
   19 mEq/L
   5.0 mEq/L
   53 mg/dL
   109 mEq/L
   136 mEq/L
   25.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
                             [**2167-2-10**]  10:20 PM
                             [**2167-2-11**]  04:45 AM
   WBC
   1.2
   1.3
   1.3
   Hct
   26.5
   23.5
   30.4
   26.5
   25.8
   Plt
   132
   133
   150
   Cr
   3.0
   3.6
   2.6
   3.7
   TCO2
   28
   27
   25
   24
   21
   Glucose
   94
   90
   92
   94
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - f/u BAL
   - f/u ANCA for vasculitis work-up, RF negative
   - contact IR to tap pleural effusion as part of diagnostic w/u
   - if unable to obtain diagnostic info, may need to consider section of
   cavitating lesion
   - continue Vancomycin, [**Last Name (un) **], Levo, Vori , Vanc
   - steroids started for reactive pneumonitis now tapered off
   - persistently tachypneic to 50 requiring increase in pressure support
   - continue to work towards extubation, add
l volume removal via HD
   # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  CT showed cavitating lesion left
   upper lobe.
   - f/u BAL
   - will call IR re tapping pleural effusions
   - cont broad spectrum antibiotics
 vanc, voriconazole, [**Last Name (un) 430**] & levo,
   however, in absence of any positive culture data, fevers could be drug
   related, once bronch specimen evaluated, can consider weaning to try to
   eliminate possible culprit
   - f/u cultures
   - LENI negative
   # AML:  Day 32 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   - f/u BMT rec
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   - for resp alkalosis
 follow ABGs titrate vent prn decrease RR, inc
   sedation if necessary
    # ARF
Rising Creatine & muddy brown casts in sediment consistent with
   ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.
   - low urine output this am following removal of 3L fluids yesterday,
   may now be intravascularly dry
   - will discuss with renal this am
   - 250mg of vanc dosed post HD
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-10**] 01:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-10**] 11:23 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2167-02-11 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   IP - effusions too small to tap
   Cultured for fever
   Remained oliguric.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-9**] 04:00 PM
   Vancomycin - [**2167-2-9**] 09:07 PM
   Meropenem - [**2167-2-11**] 07:45 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-11**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (100.9
   HR: 107 (95 - 108) bpm
   BP: 165/80(107) {91/52(65) - 165/80(107)} mmHg
   RR: 30 (21 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,719 mL
                                                                    760 mL
   PO:
             TF:
                                                                    940 mL
                                                                    479 mL
   IVF:
                                                                    568 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     35 mL
   Urine:
                                                                     40 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,679 mL
                                                                    725 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.43/30/123/19/-2
   Ve: 14.5 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   150 K/uL
   94 mg/dL
   3.7 mg/dL
   19 mEq/L
   5.0 mEq/L
   53 mg/dL
   109 mEq/L
   136 mEq/L
   25.8 %
   1.3 K/uL
        [image002.jpg]
                             [**2167-2-8**]  05:00 PM
                             [**2167-2-8**]  05:24 PM
                             [**2167-2-9**]  05:27 AM
                             [**2167-2-9**]  06:08 AM
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
                             [**2167-2-10**]  10:20 PM
                             [**2167-2-11**]  04:45 AM
   WBC
   1.2
   1.3
   1.3
   Hct
   26.5
   23.5
   30.4
   26.5
   25.8
   Plt
   132
   133
   150
   Cr
   3.0
   3.6
   2.6
   3.7
   TCO2
   28
   27
   25
   24
   21
   Glucose
   94
   90
   92
   94
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   1. Respiratory failure with ARDS: day 14 intubation. Unknown
   precipitant,all cultures negative, possible steroid responsive
   pneumonitis initially, off steroids as of [**2-3**]. Has been tolerating PSV
   but continues to be PEEP dependent. CT now shows LUL cavitating nodule
   - BAL showed 1+ polys, no organisms, rest pending.
   Pulmonary nodule
 concern for active infectious process resulting in
   cavitation. Nodule seen on [**1-27**]
   CT.
                                                    Pleural effusions,
   unclear if empyema vs more likely transudate.
   2.  ARF with oliguria: likely a mixed pre-renal atn picture (muddy
   brown casts on u/a). Was dialysed for elevated Vanco level, now for
   oliguric RF. HD per renal. 3 L off yesterday.
   3. ID/FEVER: non-neutropenic now, continues to be febrile, levofloxacin
   added back last week. Continue broad coverage with Vanco/[**Last Name (un) **]
   ([**1-26**])/Levo/voriconazole ([**1-7**]). Appreciate ID input.  Cultures so far
   negative. Possibility of drug fever vs nonresolving VAP.
   4. Anemia: improved hct, stable
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   ICU Care
   Nutren Pulmonary (Full) - [**2167-2-11**] 10:34 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication:  Comments:
   Code status: Full code, Disposition :ICU, Total time spent: 35 minutes
   critical care time

2167-02-12 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-2-11**] 04:52 PM
 FEVER - 102.8
F - [**2167-2-11**] 04:00 PM
   -- able to ween patient from PEEP of 10 to 8 to 5 and tolerated well
   -- Interdisciplinary meeting planned for friday at 2pm
   -- CT scan today to re-evaluate changes to cavitary lesion
   -- underwent HD w/ removal of 2.3 L
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-9**] 04:00 PM
   Vancomycin - [**2167-2-9**] 09:07 PM
   Meropenem - [**2167-2-11**] 07:45 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.9
C (98.4
   HR: 112 (98 - 120) bpm
   BP: 156/67(97) {89/47(61) - 165/80(107)} mmHg
   RR: 38 (24 - 38) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,531 mL
                                                                    547 mL
   PO:
             TF:
                                                                    965 mL
                                                                    303 mL
   IVF:
                                                                    566 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                     15 mL
   Urine:
                                                                     65 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -534 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 93%
   ABG: 7.50/28/80.[**Numeric Identifier 248**]/21/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   9.2 g/dL
   111 mg/dL
   2.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   29 mg/dL
   106 mEq/L
   140 mEq/L
   27.3 %
   1.5 K/uL
        [image002.jpg]
                             [**2167-2-9**]  06:08 AM
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
                             [**2167-2-10**]  10:20 PM
                             [**2167-2-11**]  04:45 AM
                             [**2167-2-11**]  07:24 PM
                             [**2167-2-11**]  10:41 PM
                             [**2167-2-12**]  04:19 AM
   WBC
   1.3
   1.3
   1.5
   Hct
   30.4
   26.5
   25.8
   27.3
   Plt
   133
   150
   146
   Cr
   2.6
   3.7
   2.3
   TCO2
   27
   25
   24
   21
   23
   23
   Glucose
   92
   94
   111
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - f/u BAL
   - f/u repeat chest CT to assess any changes in cavitary lesion
   - [**Doctor First Name 1205**], ANCA and RF negative
   - effusions too small to tap per IR
   - if unable to obtain diagnostic info, may need to consider resection
   of cavitating lesion
   - continue Vancomycin, Levo, Vori, d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   - steroids started for reactive pneumonitis now tapered off
   - continue to work towards extubation aggressively, add
l volume
   removal via HD, switch to pressure support [**8-30**]
   - pt approcahing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
   # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  CT showed cavitating lesion left
   upper lobe.
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 430**] for suspicion of drug fever
   - f/u BAL
   - effusions too small to tap per IR
   - cont broad spectrum antibiotics
 vanc, voriconazole, & levo,
   however, in absence of any positive culture data, fevers could be drug
   related, once bronch specimen evaluated, can consider weaning to try to
   eliminate possible culprit, will start with [**Last Name (un) 430**]
   - f/u cultures
   - LENI negative
   # AML:  Day 34 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - family meeting Friday at 2pm
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   Resolved.
    # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - check post-HD vanc trough, dose with dialysis
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-11**] 09:46 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-12 13:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spiked 102.8 fever
   Weaned Peep 10 to 5. RR increased to 40s.
   CT chest. HD - removed 2.3 L, -500 ml/24 hrs
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-9**] 04:00 PM
   Meropenem - [**2167-2-12**] 08:45 AM
   Vancomycin - [**2167-2-12**] 09:45 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2167-2-12**] 01:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.7
C (99.8
   HR: 102 (98 - 120) bpm
   BP: 145/64(90) {89/47(61) - 161/77(102)} mmHg
   RR: 31 (24 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,531 mL
                                                                  1,362 mL
   PO:
             TF:
                                                                    965 mL
                                                                    485 mL
   IVF:
                                                                    566 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                     43 mL
   Urine:
                                                                     65 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -534 mL
                                                                  1,319 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.49/28/71/21/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, Neurologic: Responds to: Not assessed, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   146 K/uL
   111 mg/dL
   2.3 mg/dL
   21 mEq/L
   3.6 mEq/L
   29 mg/dL
   106 mEq/L
   140 mEq/L
   27.3 %
   1.5 K/uL
        [image002.jpg]
                             [**2167-2-9**]  04:24 PM
                             [**2167-2-9**]  09:27 PM
                             [**2167-2-10**]  04:10 AM
                             [**2167-2-10**]  04:32 AM
                             [**2167-2-10**]  10:20 PM
                             [**2167-2-11**]  04:45 AM
                             [**2167-2-11**]  07:24 PM
                             [**2167-2-11**]  10:41 PM
                             [**2167-2-12**]  04:19 AM
                             [**2167-2-12**]  08:37 AM
   WBC
   1.3
   1.3
   1.5
   Hct
   30.4
   26.5
   25.8
   27.3
   Plt
   133
   150
   146
   Cr
   2.6
   3.7
   2.3
   TCO2
   25
   24
   21
   23
   23
   22
   Glucose
   92
   94
   111
   Other labs: PT / PTT / INR:13.9/28.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:9.9 %,
   Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL, Lactic Acid:0.6 mmol/L,
   Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:1.5
   mg/dL
   Fluid analysis / Other labs: TG 957
   Assessment and Plan
    68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   1. Respiratory failure with ARDS: day 15 intubation. Unknown
   precipitant,all cultures negative, possible steroid responsive
   pneumonitis initially, off steroids as of [**2-3**].
   Put back on PSV. Peep decreased since yesterday.
   CT now shows LUL cavitating nodule - BAL showed 1+ polys, no organisms,
   rest pending.   Repeat CT shows little change if any.
   Peural effusions, too small to tap. Unclear if empyema vs more likely
   transudate.
   2.  ARF with oliguria: likely a mixed pre-renal atn picture (muddy
   brown casts on u/a). Was dialysed for elevated Vanco level, now for
   oliguric RF. HD per renal. 2.3 L off yesterday.
   3. ID/Fevers: non-neutropenic now, continues to be febrile,
   levofloxacin added back last week. Continue broad coverage with
   Vanco/[**Last Name (un) **] ([**1-26**])/Levo/voriconazole ([**1-7**]). Appreciate ID input.
   Cultures so far negative. Possibility of drug fever vs nonresolving VAP
   vs empyema vs pancreatitis (TG 900).
   4. Anemia: improved hct, stable
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   8. Sedation - d/c propofol and start versed/fentanyl
   Prognosis guarded overall.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-12**] 09:47 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Husband updated.
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2167-02-13 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - f/u CT scan showed no interval change in cavitating lesion, read as
   probable pneumatocele
   - propofol d/c'd [**12-27**] triglyceridemia to 900's, amylase/lipase WNL
   - new rash on legs c/w drug rash
   - [**Last Name (un) 430**] d/c'd [**12-27**] to concern for drug fever
   - switch to pressure support [**8-30**], very tachypneic but gas looked
   great, switched to 16/5 and sedation increased to make patient more
   comfortable
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-12**] 08:45 AM
   Vancomycin - [**2167-2-12**] 09:45 AM
   Voriconazole - [**2167-2-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-2-13**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 108 (96 - 117) bpm
   BP: 143/63(89) {98/53(70) - 158/77(102)} mmHg
   RR: 28 (24 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,257 mL
                                                                    739 mL
   PO:
             TF:
                                                                    929 mL
                                                                    319 mL
   IVF:
                                                                    953 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                     64 mL
                                                                     51 mL
   Urine:
                                                                     64 mL
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,193 mL
                                                                    688 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 436 (377 - 463) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.44/30/96.[**Numeric Identifier 244**]/19/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Rhonchorous: improved)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: left upper, outer thigh
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   160 K/uL
   8.2 g/dL
   86 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   53 mg/dL
   100 mEq/L
   134 mEq/L
   23.8 %
   1.6 K/uL
        [image002.jpg]
                             [**2167-2-10**]  10:20 PM
                             [**2167-2-11**]  04:45 AM
                             [**2167-2-11**]  07:24 PM
                             [**2167-2-11**]  10:41 PM
                             [**2167-2-12**]  04:19 AM
                             [**2167-2-12**]  08:37 AM
                             [**2167-2-12**]  11:01 PM
                             [**2167-2-13**]  12:19 AM
                             [**2167-2-13**]  05:35 AM
                             [**2167-2-13**]  05:50 AM
   WBC
   1.3
   1.5
   1.6
   Hct
   25.8
   27.3
   23.8
   Plt
   150
   146
   160
   Cr
   3.7
   2.3
   3.1
   TCO2
   21
   23
   23
   22
   21
   21
   21
   Glucose
   94
   111
   83
   88
   86
   Other labs: PT / PTT / INR:13.5/26.4/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.9 %, Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: 1.  Left upper lobe cavitary nodule that has not changed in
   size and which
   requires further followup examination by one week.  Differential
   diagnosis
   includes a postinfectious pneumatocele, less likely an abscess.
   2.  Stable consolidation, ground-glass opacities and small pleural
   effusion
   with ventral to dorsal gradient favoring ARDS, however, the patchy
   airspace
   disease seen in the ventral portion of the lung may indicate a
   superimposed
   coexistent opportunistic infection like fungal infection.  The
   combination of
   patchy airspace opacities as well as the left upper lobe cavitary
   lesion might
   also suggest some form of invasive/semiinvasive aspergillosis.
   Assessment and Plan
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - f/u BAL
   - f/u repeat chest CT though cavitary lesion c/w pneumatocele,
   infection less likely
   - [**Doctor First Name 1205**], ANCA and RF negative
   - effusions too small to tap per IR
   - if unable to obtain diagnostic info, may need to consider resection
   of cavitating lesion
   - continue Levo, Vori, d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) **], now d/c vanc
   - steroids started for reactive pneumonitis now tapered off
   - continue to work towards extubation aggressively, add
l volume
   removal via HD, switch to pressure support [**8-30**], with goal of
   extubation later today, awaiting husband
s decision n whether or not to
   re-intubate, may dependend on discussion with BMT in family meeting
   today
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
   - family meeting today 2pm
   - will try ativan for tachypnea as pt appears anxious
   # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  CT showed cavitating lesion left
   upper lobe.
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever
   - d/c vanc today with persistent [**Last Name (un) 1740**] c/w drug rash
   - f/u BAL
   - effusions too small to tap per IR
   - f/u cultures
   - LENI negative
   # AML:  Day 54 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - family meeting Friday at 2pm
   - likely will re-marrow for w/u fever of unknown origin
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   Resolved.
    # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - appreciate renal rec
   - cont phos binders
    # Afib
started [**2-2**] following insertion of the HD catheter, likely
   due to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-13**] 12:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-13 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Propofol d/c'd due to hypertriglyceridemia
   Amylase/lipase normal
   Switched to PSV 16/5, 50%.
   Sedation increased for tachypnea
   Remains oliguric. + 2.1 L/24 hrs.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-12**] 08:45 AM
   Vancomycin - [**2167-2-12**] 09:45 AM
   Voriconazole - [**2167-2-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-2-13**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 125 (96 - 125) bpm
   BP: 160/75(102) {98/53(70) - 160/75(102)} mmHg
   RR: 28 (24 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  2,257 mL
                                                                    954 mL
   PO:
             TF:
                                                                    929 mL
                                                                    423 mL
   IVF:
                                                                    953 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                     64 mL
                                                                     51 mL
   Urine:
                                                                     64 mL
                                                                     51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,193 mL
                                                                    903 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 436 (377 - 463) mL
   PS : 16 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.46/28/75/19/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   160 K/uL
   86 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   53 mg/dL
   100 mEq/L
   134 mEq/L
   23.8 %
   1.6 K/uL
        [image002.jpg]
                             [**2167-2-11**]  04:45 AM
                             [**2167-2-11**]  07:24 PM
                             [**2167-2-11**]  10:41 PM
                             [**2167-2-12**]  04:19 AM
                             [**2167-2-12**]  08:37 AM
                             [**2167-2-12**]  11:01 PM
                             [**2167-2-13**]  12:19 AM
                             [**2167-2-13**]  05:35 AM
                             [**2167-2-13**]  05:50 AM
                             [**2167-2-13**]  10:12 AM
   WBC
   1.3
   1.5
   1.6
   Hct
   25.8
   27.3
   23.8
   Plt
   150
   146
   160
   Cr
   3.7
   2.3
   3.1
   TCO2
   23
   23
   22
   21
   21
   21
   21
   Glucose
   94
   111
   83
   88
   86
   Other labs: PT / PTT / INR:13.5/26.4/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:86.8 %,
   Band:0.0 %, Lymph:9.9 %, Mono:1.3 %, Eos:1.7 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: LUL cavitary nodule, ddx included post-infectious
   pneumatocoele, less likely abscess.
   Assessment and Plan
    68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   1. Respiratory failure with ARDS: day 16 intubation.
   Unknown precipitant,all cultures negative, possible steroid responsive
   pneumonitis initially, off steroids as of [**2-3**].
   Put back on PSV. Peep decreased since yesterday. Tolerating PSV except
   for tachypnea. Will wean peep and obtain SBT. Possible extubation
   today.
   CT now shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.
   Peural effusions, too small to tap per IP. Doubt empyema.
   2.  ARF with oliguria: likely a mixed pre-renal atn picture (muddy
   brown casts on u/a). Was dialysed for elevated Vanco level, now for
   oliguric RF. HD per renal. 2.3 L off [**2-11**]. Being dialysed now.
   3. ID/Fevers: non-neutropenic now, but continues to be febrile,
   levofloxacin added back last week. On broad coverage with
   Vanco/Levo/voriconazole ([**1-7**]). Appreciate ID input.  [**Last Name (un) **] d/c'd [**2-13**].
   Cultures so far negative. Possibility of drug fever vs leukemia-induced
   vs nonresolving VAP vs empyema.
   4. Anemia: improved hct, stable
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   8. Sedation - on propofol. Started on versed/fentanyl [**2-12**]
   Prognosis guarded overall.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-13**] 12:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : 35 min critical care time

2167-02-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2167-2-13**] 08:45 AM
   blood cultures X2-aline and PICC
   urine and sputum sent
   - Meropenem d/c'd on [**2-12**] & pt spiked temp of 101 in am [**2-13**]
   - approx 3.5L off via HD, hct bumped approp s/p 1upRBCs
   - weaned to [**3-30**] & ABG showed good oxygenation
   - plan for SBT & possible extubation in am
   - family meeting, little change in plan
   - rash over lower extremities essentially stable
   - hypertensive & tachycardic, started ativan for anxiety with good
   resolution
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-12**] 08:45 AM
   Vancomycin - [**2167-2-12**] 09:45 AM
   Voriconazole - [**2167-2-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-14**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100
   HR: 121 (98 - 127) bpm
   BP: 154/77(106) {108/63(79) - 162/85(112)} mmHg
   RR: 24 (24 - 37) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,778 mL
                                                                     97 mL
   PO:
             TF:
                                                                    676 mL
   IVF:
                                                                    308 mL
                                                                     37 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,971 mL
                                                                     25 mL
   Urine:
                                                                     71 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,193 mL
                                                                     72 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (304 - 436) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 138
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.40/37/109/22/0
   Ve: 11 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, improved
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   148 K/uL
   9.9 g/dL
   75 mg/dL
   2.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   38 mg/dL
   105 mEq/L
   137 mEq/L
   29.2 %
   1.9 K/uL
        [image002.jpg]
                             [**2167-2-12**]  11:01 PM
                             [**2167-2-13**]  12:19 AM
                             [**2167-2-13**]  05:35 AM
                             [**2167-2-13**]  05:50 AM
                             [**2167-2-13**]  10:12 AM
                             [**2167-2-13**]  04:55 PM
                             [**2167-2-13**]  05:04 PM
                             [**2167-2-13**]  10:28 PM
                             [**2167-2-14**]  04:39 AM
                             [**2167-2-14**]  05:13 AM
   WBC
   1.6
   1.9
   Hct
   23.8
   30.2
   29.2
   Plt
   160
   148
   Cr
   3.1
   2.3
   TCO2
   21
   21
   21
   21
   25
   24
   24
   Glucose
   83
   88
   86
   75
   Other labs: PT / PTT / INR:13.7/25.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:72.0 %,
   Band:4.0 %, Lymph:24.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  FINDINGS:  In comparison with the study of [**2-11**], the
   patient has taken a poor
   inspiration.  Diffuse bilateral pulmonary opacifications persist,
   essentially
   unchanged from the previous study.  The radiographic appearance could
   reflect
   widespread infection as well as was ARDS.
   Catheters remain in place.
   Microbiology: URINE CULTURE-FINAL {YEAST}
      GRAM STAIN (Final [**2167-2-13**]):
         [**9-19**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
   BCx Pending x 2
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Pt initially p/w upper lobe PNA, improved on
   Abx. Then, after induction with 7+3 developed bilateral lower lobe
   infiltrates & ARDS, intubated on [**2167-1-27**].  Extensive infectious workup
   has been neg to date, on broad spectrum abx.  [**Month (only) 60**] be [**12-27**] to reactive
   pneumonitis, as it had responded to steroids.  Clinical picture
   complicated by component of volume overload w/ BNP >[**Numeric Identifier 1527**] normal EF,
   but infiltrates not likely [**12-27**] pulm edema alone.  Pt  tolerated PS but
   persistently tachypneic.  Have had difficulty weening from vent due to
   combination of fluid overload and PEEP dependence.   CT scan to
   evaluate worsening of ARDS or development of VAP as patient
s vent
   dependence has increased in the setting of persistent fevers that
   showed cavitating lesion at site of former nodule in left upper lobe.
   Infiltrates improved on the left, worse on the right.  Differential for
   cavitating lesion Infectionus
 TB, staph, klebsiella, anaerobes,
   fungi, amoebiasis; Malig
 bronchial ca v mets; Other
 Wegener
   rheumatoid nodule, pulm infarct, lung abscess, v progressive massive
   fibrosis
   - f/u BAL
   - f/u repeat chest CT though cavitary lesion c/w pneumatocele,
   infection less likely
   - [**Doctor First Name 1205**], ANCA and RF negative
   - effusions too small to tap per IR
   - if unable to obtain diagnostic info, may need to consider resection
   of cavitating lesion
   - continue Levo, Vori, d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) **], now d/c vanc
   - steroids started for reactive pneumonitis now tapered off
   - continue to work towards extubation aggressively, add
l volume
   removal via HD, switch to pressure support [**3-30**], with goal of extubation
   later today
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
   - per family meeting, okay to re-intubate
   - will cont ativan for tachypnea as pt appears anxious
    # Fever
  unclear if this is due to new infection vs re-engraftment v
   drug fever.  Sputum GS shows GPC, awaitng speciation, otherwise have
   been NGTD, line site looks good.  Yeast in urine Cx, but patient on
   voriconazole.  CT showed cavitating lesion left upper lobe.
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever
   - d/c vanc today with persistent rash c/w drug rash
   - f/u BAL
   - effusions too small to tap per IR
   - f/u cultures
   - LENI negative
   - CT of chest shows cavitary lesion unlikely infectious
   # AML:  Day 54 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - likely will re-marrow for w/u fever of unknown origin
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   Resolved.
     # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - appreciate renal rec
   - cont phos binders
   # Afib
started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
    # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-14 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spiked yesterday, cultures sent.
   Meropenem d/c [**2-12**].
   HD with 3.5 L removed.
   Tolerated PSV 5/5 with stable ABG.
   Stable overnight on PSV 10/5. 7.40/37/109 on 50% FiO@
   This AM, following SBT, RR increased. ABG 7.28/45/68/22/-5
                   Patient unable to provide history: Unresponsive
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2167-2-12**] 08:45 AM
   Vancomycin - [**2167-2-12**] 09:45 AM
   Voriconazole - [**2167-2-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-14**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.7
   HR: 121 (98 - 127) bpm
   BP: 154/77(106) {108/63(79) - 162/85(112)} mmHg
   RR: 24 (24 - 37) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,778 mL
                                                                    179 mL
   PO:
             TF:
                                                                    676 mL
   IVF:
                                                                    308 mL
                                                                     59 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,971 mL
                                                                     25 mL
   Urine:
                                                                     71 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,193 mL
                                                                    154 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (304 - 357) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 138
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.28/45/68/22/-5
   Ve: 11 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   tachypnea RR 30s, no stridor, no apparent cuff leak
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, lethargic, opens eyes
   Labs / Radiology
   9.9 g/dL
   148 K/uL
   75 mg/dL
   2.3 mg/dL
   22 mEq/L
   4.5 mEq/L
   38 mg/dL
   105 mEq/L
   137 mEq/L
   29.2 %
   1.9 K/uL
        [image002.jpg]
                             [**2167-2-13**]  12:19 AM
                             [**2167-2-13**]  05:35 AM
                             [**2167-2-13**]  05:50 AM
                             [**2167-2-13**]  10:12 AM
                             [**2167-2-13**]  04:55 PM
                             [**2167-2-13**]  05:04 PM
                             [**2167-2-13**]  10:28 PM
                             [**2167-2-14**]  04:39 AM
                             [**2167-2-14**]  05:13 AM
                             [**2167-2-14**]  08:03 AM
   WBC
   1.6
   1.9
   Hct
   23.8
   30.2
   29.2
   Plt
   160
   148
   Cr
   3.1
   2.3
   TCO2
   21
   21
   21
   25
   24
   24
   22
   Glucose
   83
   88
   86
   75
   Other labs: PT / PTT / INR:13.7/25.3/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:72.0 %,
   Band:4.0 %, Lymph:24.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR reviewed: ETT ok. No new infiltrates
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   1. Respiratory failure with ARDS: day 17 intubation. Tolerated PS 5/5
   very well. Unfortunately got worse after the RSBI (138) with desat and
   tachypnea. Appeared to be vent dyssynchony, ativan 1mg IV given after
   which MAP decreased to low 60s.
   Unknown precipitant,all cultures negative, possible steroid responsive
   pneumonitis initially, off steroids as of [**2-3**].
   CT shows LUL cavitating nodule which is likely pneumatocoele. BAL
   showed 1+ polys, no organisms, rest pending.  Peural effusions, too
   small to tap per IP. Doubt empyema.
   2.  Anuric ARF: likely a mixed pre-renal atn picture (muddy brown casts
   on u/a). Was dialysed for elevated Vanco level, now for oliguric RF. HD
   per renal. 2.3 L off [**2-11**], 3.5L off [**2-13**].
   Would not aggressively remove fluid today given tachycardia,
   hypotension this AM.
   3. ID/Fevers: non-neutropenic now, but continues to be febrile,
   levofloxacin added back last week.
   On broad coverage with Levo/voriconazole ([**1-7**]).
   Appreciate ID input.  Vanco last dose 3/20. [**Last Name (un) **] d/c'd [**2-13**].
   Cultures so far negative. Possibility of drug fever vs leukemia-induced
   vs nonresolving VAP vs empyema.
   4. Anemia: improved hct, stable. Last transfusion yesterday with
   appropriate rise.
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   8. Sedation - minimal sedation, prn ativan. Propofol caused
   hypertrigliceridemia.
   Prognosis guarded overall. Family meeting was held yesterday. Dr [**Last Name (STitle) 1750**]
   and I were present. All questions answered. Plan is to keep full code,
   aim for extubation if tolerated, then rediscuss goals and code status.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 min critical care time minutes
   Patient is critically ill

2167-02-15 11:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained on A/c for most of the day then switched to PSV 15/5 but
   increased RR to 40s.
   This AM, PSV 15/5. Not felt to be anxious but subjectively short of
   breath so switched back to A/c.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-15**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 113 (103 - 126) bpm
   BP: 138/63(86) {89/55(71) - 168/98(111)} mmHg
   RR: 21 (21 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                    836 mL
                                                                    716 mL
   PO:
             TF:
                                                                    348 mL
                                                                    436 mL
   IVF:
                                                                    218 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    561 mL
                                                                    716 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (305 - 350) mL
   PS : 15 cmH2O
   RR (Set): 25
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 175
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.44/37/106/24/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   165 K/uL
   110 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   49 mg/dL
   108 mEq/L
   140 mEq/L
   26.2 %
   2.0 K/uL
        [image002.jpg]
                             [**2167-2-13**]  05:04 PM
                             [**2167-2-13**]  10:28 PM
                             [**2167-2-14**]  04:39 AM
                             [**2167-2-14**]  05:13 AM
                             [**2167-2-14**]  08:03 AM
                             [**2167-2-14**]  09:57 AM
                             [**2167-2-14**]  02:44 PM
                             [**2167-2-14**]  04:30 PM
                             [**2167-2-15**]  04:11 AM
                             [**2167-2-15**]  04:20 AM
   WBC
   1.9
   2.0
   Hct
   29.2
   26.2
   Plt
   148
   165
   Cr
   2.3
   2.1
   2.7
   TCO2
   25
   24
   24
   22
   24
   26
   26
   Glucose
   75
   120
   95
   110
   Other labs: PT / PTT / INR:14.6/25.7/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:72.0 %,
   Band:4.0 %, Lymph:24.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:1.8 g/dL, LDH:374 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   1. Respiratory failure with improving ARDS: day 18 intubation.
   Tolerated PS 5/5 very well until [**2-14**] AM when desaturated and increase
   RR after RSBI. Appeared to be vent dyssynchony with anxiety. Ativan 1mg
   IV TID seems to be helping a little. Will add low dose prn morphine.
   Prev hx: unknown precipitant,all cultures negative, possible steroid
   responsive pneumonitis initially, off steroids as of [**2-3**].
   CT shows LUL cavitating nodule which is likely pneumatocoele. BAL
   showed 1+ polys, no organisms, rest pending.  Pleural effusions, too
   small to tap per IP. Doubt empyema.
   2.  Anuric ARF: likely a mixed pre-renal atn picture (muddy brown casts
   on u/a). Was dialysed for elevated Vanco level, now for oliguric RF. HD
   per renal. 2.3 L off [**2-11**], 3.5L off [**2-13**].
   Would not aggressively remove fluid today given tachycardia,
   hypotension this AM. Likely to be dialysed tomorrow.
   3. ID/Fevers: non-neutropenic now, but continues to be febrile,
   levofloxacin added back last week.
   On Levo/voriconazole ([**1-7**]). Question of drug fever vs leukemia/blasts.
   After discussion [**Last Name (LF) 1763**], [**First Name3 (LF) 178**] d/c voriconazole.
   Repeat urine checking for yeast (+ on [**2-11**] but not on [**2-13**]).
   Appreciate ID input.  Vanco last dose 3/20. [**Last Name (un) **] d/c'd [**2-13**].
   Cultures so far negative. Possibility of drug fever vs leukemia-induced
   vs nonresolving VAP vs empyema.
   4. Anemia: improved hct, stable. Last transfusion yesterday with
   appropriate rise.
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   8. Sedation - minimal sedation, ativan + prn morphine. Propofol caused
   hypertrigliceridemia.
   Prognosis guarded overall. Family meeting was held [**2-13**]. Dr [**Last Name (STitle) 1750**] and
   I were present. All questions answered. Plan is to keep full code, aim
   for extubation, then rediscuss goals and code status.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-15**] 03:18 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2167-02-15 17:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-14**] 03:15 PM
   -- Following RSBI yesterday, patient more tachycardic and tachypneic.
   ABG w/ PaO2 drop from 109 to 68 without any vent setting changes and
   fall in O2sats. Switched to AC.  No overwhelming CXR changes.  Improved
   with ativan.  Changed back over to PS during day 15/5.  Attempted to
   switched to PS 10/5, but became tachypneic into 40s.
   -- d/c'd foley w/ yeast in urine while on voriconazole
   -- deferred HD as was 3.5L negative day before and was unstable in am
   with tachycardia
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-2-15**] 11:35 AM
   Midazolam (Versed) - [**2167-2-15**] 02:20 PM
   Fentanyl - [**2167-2-15**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-15**] 04:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.9
C (100.3
   HR: 120 (106 - 134) bpm
   BP: 119/68(87) {89/55(71) - 161/98(111)} mmHg
   RR: 34 (21 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                    836 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                    348 mL
                                                                    612 mL
   IVF:
                                                                    218 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    561 mL
                                                                  1,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 322 (305 - 350) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 175
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.42/35/71/24/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: left hip, bilat LEs, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   8.8 g/dL
   110 mg/dL
   2.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   49 mg/dL
   108 mEq/L
   140 mEq/L
   26.2 %
   2.0 K/uL
        [image002.jpg]
                             [**2167-2-14**]  04:39 AM
                             [**2167-2-14**]  05:13 AM
                             [**2167-2-14**]  08:03 AM
                             [**2167-2-14**]  09:57 AM
                             [**2167-2-14**]  02:44 PM
                             [**2167-2-14**]  04:30 PM
                             [**2167-2-15**]  04:11 AM
                             [**2167-2-15**]  04:20 AM
                             [**2167-2-15**]  12:26 PM
                             [**2167-2-15**]  01:42 PM
   WBC
   1.9
   2.0
   Hct
   29.2
   26.2
   Plt
   148
   165
   Cr
   2.3
   2.1
   2.7
   TCO2
   24
   22
   24
   26
   26
   23
   23
   Glucose
   75
   120
   95
   110
   Other labs: PT / PTT / INR:14.6/25.7/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:80.0 %,
   Band:7.0 %, Lymph:11.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.7 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   # Respiratory Failure
 Patient developed ARDS following induction
   chemotherapy and has been intubatd since
.  Etiology not particulary
   clear.  Patient has been difficult to ween from vent in the setting of
   developing persistent fevers.  Repeat CT scan showed cavitary lesion,
   but on subsequt study seems more consistet w/ penumatocele.  Some
   difficulty of ween attributed to volume overload in setting of ARF.
   Patient tolaterated weaning on pressure support, however, despite good
   gases, is extremely tachypneic to the 40s.
   - repeat CXR and sunctioning
   - ativan for anxiety
   - will add prn morphine
   - continue Levo, Vori
   - continue to work towards extubation aggressively
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
    # Fever
  unclear if this is due to new infection vs drug fever
   Sputum Yeast in urine Cx, but patient on voriconazole, will d/c foley.
   CT showed cavitating lesion left upper lobe.
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever
   - d/c vanc ([**2-13**]) with persistent rash c/w drug rash
   - f/u BAL
   - effusions too small to tap per IR
   - f/u cultures
   - LENI negative
   - CT of chest shows cavitary lesion unlikely infectious
   - will do peripheral cx as well
   # AML:  Day 40 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - likely will re-marrow for w/u fever of unknown origin
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
pt continues to have
   a respiratory alkalosis [**12-27**] hyperventilation with RR>30.  Etiology
   unclear currently, maintaining pO2 in 70s and working towards
   extubation.  RR rate reduced w/ higher pressure support
   Resolved.
     # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.   Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - appreciate renal rec
   - cont phos binders
   # Afib
started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
    # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-16 09:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-15**] 11:47 AM
 BLOOD CULTURED - At [**2167-2-16**] 05:27 AM
 FEVER - 102.6
F - [**2167-2-15**] 12:00 PM
   - tachypneic to 40s on reduced pressure support settings
   - added prn morphine for tachypnia with little to no effect
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-2-15**] 12:00 PM
   Midazolam (Versed) - [**2167-2-16**] 05:40 AM
   Fentanyl - [**2167-2-16**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-16**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38
C (100.4
   HR: 120 (108 - 134) bpm
   BP: 123/66(86) {115/63(82) - 167/84(113)} mmHg
   RR: 33 (21 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,282 mL
                                                                    480 mL
   PO:
                  TF:
                                                                    732 mL
                                                                    360 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,282 mL
                                                                    480 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (322 - 365) mL
   PS : 15 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 193
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.40/39/101/21/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: NG tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, rousable
   Labs / Radiology
   212 K/uL
   8.8 g/dL
   102 mg/dL
   3.7 mg/dL
   21 mEq/L
   5.3 mEq/L
   72 mg/dL
   108 mEq/L
   143 mEq/L
   25.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2167-2-14**]  02:44 PM
                             [**2167-2-14**]  04:30 PM
                             [**2167-2-15**]  04:11 AM
                             [**2167-2-15**]  04:20 AM
                             [**2167-2-15**]  12:26 PM
                             [**2167-2-15**]  01:42 PM
                             [**2167-2-15**]  06:16 PM
                             [**2167-2-15**]  09:30 PM
                             [**2167-2-16**]  04:59 AM
                             [**2167-2-16**]  05:21 AM
   WBC
   2.0
   2.2
   Hct
   26.2
   25.7
   Plt
   165
   212
   Cr
   2.1
   2.7
   3.7
   TCO2
   26
   26
   23
   23
   25
   23
   25
   Glucose
   95
   110
   102
   Other labs: PT / PTT / INR:14.6/25.7/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:80.0 %,
   Band:7.0 %, Lymph:11.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.7 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   1. Tacychardia: patient tachycardic to 120s this AM. NG suction unable
   to pass. Bronched during rounds, also unable to pass. ET tube changed,
   found large mucous plug.
   2. Respiratory Failure: Patient developed ARDS following induction
   chemotherapy and has been intubatd since
.  Etiology not particulary
   clear.  Patient has been difficult to ween from vent in the setting of
   developing persistent fevers.  Repeat CT scan showed cavitary lesion,
   but on subsequt study seems more consistet w/ penumatocele.  Some
   difficulty of ween attributed to volume overload in setting of ARF.
   Patient tolaterated weaning on pressure support, however, despite good
   gases, is extremely tachypneic to the 40s.
   - daily CXR and frequent suctioning
   - ativan for anxiety
   - will add prn morphine
   - continue Levofloxacin, Voriconazole
   - continue to work towards extubation aggressively
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
    # Fever
 unclear if this is due to new infection vs drug fever
   Sputum Yeast in urine Cx, but patient on voriconazole, will d/c foley.
   CT showed cavitating lesion left upper lobe, fungus vs pneumatocoele
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever,  d/c vanc ([**2-13**]) with
   persistent rash c/w drug rash
   - f/u cultures
   - LENI negative
   - CT of chest shows cavitary lesion unlikely infectious
   - change voriconizole from IV to PO
   - ID consult appreciated, will hold off currently on bone marrow bx
   - Per ID will repeat Chest CT [**2-19**]
   - Will culture all lines when spikes.
   # AML:  Day 40 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - will consider re-marrow for w/u fever of unknown origin
     # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.  Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - continue CVVH for now
   - appreciate renal rec
   - cont phos binders
   - Patient will need HD line changed soon, consider placing tunnelled
   line, but high risk given fever of [**Last Name (un) 1780**] origin.
   # Afib
started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
    # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
 RESOLVED. pt had
   respiratory alkalosis [**12-27**] hyperventilation with RR>30.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:  Famotatine
   VAP:  Chorhexadine rinses and HOB >30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: intubated

2167-02-16 10:58:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-15**] 11:47 AM
 BLOOD CULTURED - At [**2167-2-16**] 05:27 AM
 FEVER - 102.6
F - [**2167-2-15**] 12:00 PM
   Tachypneic when PSV reduced yesterday.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-2-15**] 12:00 PM
   Midazolam (Versed) - [**2167-2-16**] 05:40 AM
   Fentanyl - [**2167-2-16**] 05:40 AM
   Other medications:
   PPI, CHG, SQI, epo with HD, levoflox, ativan tid, diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-16**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38
C (100.4
   HR: 111 (108 - 134) bpm
   BP: 126/68(88) {108/63(79) - 167/84(113)} mmHg
   RR: 31 (22 - 41) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,282 mL
                                                                    480 mL
   PO:
                  TF:
                                                                    732 mL
                                                                    360 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,282 mL
                                                                    480 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (322 - 365) mL
   PS : 15 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 193
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.40/39/101/21/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), heart sounds overall
   distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), paradoxical breathing;
   can't pass suction catheter
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   No(t) Oriented (to): , Movement: No spontaneous movement, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   212 K/uL
   102 mg/dL
   3.7 mg/dL
   21 mEq/L
   5.3 mEq/L
   72 mg/dL
   108 mEq/L
   143 mEq/L
   25.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2167-2-14**]  02:44 PM
                             [**2167-2-14**]  04:30 PM
                             [**2167-2-15**]  04:11 AM
                             [**2167-2-15**]  04:20 AM
                             [**2167-2-15**]  12:26 PM
                             [**2167-2-15**]  01:42 PM
                             [**2167-2-15**]  06:16 PM
                             [**2167-2-15**]  09:30 PM
                             [**2167-2-16**]  04:59 AM
                             [**2167-2-16**]  05:21 AM
   WBC
   2.0
   2.2
   Hct
   26.2
   25.7
   Plt
   165
   212
   Cr
   2.1
   2.7
   3.7
   TCO2
   26
   26
   23
   23
   25
   23
   25
   Glucose
   95
   110
   102
   Other labs: PT / PTT / INR:14.6/25.7/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:80.0 %,
   Band:7.0 %, Lymph:11.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.7 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68 yo F w/ h/o stage II breast Ca, post-polio syn, recently dx
d AML
   started on [**5-28**] [**1-6**], course c/b fevers, LUL pna, volume overload, ARF
   and progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, ards. Failure to wean due to tachypnea, O2
   requirements.
   RESPIRATORY FAILURE
   - intubated ~19 days so far
   - desatted and increased resp fate [**2-14**]
   - now appears to have partial ET tube obstruction
        - will bronch urgently
   - per prior notes:  Prev hx: unknown precipitant,all cultures negative,
   possible steroid responsive pneumonitis initially, off steroids as of
   [**2-3**].  CT shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.  Pleural effusions,
   too small to tap per IP. Doubt empyema.
   ACUTE RENAL FAILURE
   Per prior notes: likely a mixed pre-renal atn picture (muddy brown
   casts on u/a). Was dialysed for elevated Vanco level, now for oliguric
   RF. HD per renal. 2.3 L off [**2-11**], 3.5L off [**2-13**]. On HD today.
   FEVERS
   No clear source; appreciate ID's help.
   3. ID/Fevers: non-neutropenic now, but continues to be febrile,
   levofloxacin added back last week.
   On Levo/voriconazole ([**1-7**]). Question of drug fever vs leukemia/blasts.
   After discussion [**Last Name (LF) 1763**], [**First Name3 (LF) 178**] d/c voriconazole.
   Repeat urine checking for yeast (+ on [**2-11**] but not on [**2-13**]).
   Appreciate ID input.  Vanco last dose 3/20. [**Last Name (un) **] d/c'd [**2-13**].
   Cultures so far negative. Possibility of drug fever vs leukemia-induced
   vs nonresolving VAP vs empyema.
   4. Anemia: improved hct, stable. Last transfusion yesterday with
   appropriate rise.
   5. AML/Chemotherapy: BMT following.
   6. Lines - new R IJ dial catheter [**2-4**], and new left PICC inserted [**2-2**]
   7. Afib
 on dilt
   8. Sedation - minimal sedation, ativan + prn morphine. Propofol caused
   hypertrigliceridemia.
   Prognosis guarded overall. Family meeting was held [**2-13**]. Dr [**Last Name (STitle) 1750**] and
   I were present. All questions answered. Plan is to keep full code, aim
   for extubation, then rediscuss goals and code status.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots(start SQH today)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2167-02-16 15:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-15**] 11:47 AM
 BLOOD CULTURED - At [**2167-2-16**] 05:27 AM
 FEVER - 102.6
F - [**2167-2-15**] 12:00 PM
   - tachypneic to 40s on reduced pressure support settings
   - added prn morphine for tachypnia with little to no effect
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-2-15**] 12:00 PM
   Midazolam (Versed) - [**2167-2-16**] 05:40 AM
   Fentanyl - [**2167-2-16**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-16**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38
C (100.4
   HR: 120 (108 - 134) bpm
   BP: 123/66(86) {115/63(82) - 167/84(113)} mmHg
   RR: 33 (21 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,282 mL
                                                                    480 mL
   PO:
                  TF:
                                                                    732 mL
                                                                    360 mL
   IVF:
                                                                     60 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,282 mL
                                                                    480 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (322 - 365) mL
   PS : 15 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 193
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.40/39/101/21/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: NG tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, rousable
   Labs / Radiology
   212 K/uL
   8.8 g/dL
   102 mg/dL
   3.7 mg/dL
   21 mEq/L
   5.3 mEq/L
   72 mg/dL
   108 mEq/L
   143 mEq/L
   25.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2167-2-14**]  02:44 PM
                             [**2167-2-14**]  04:30 PM
                             [**2167-2-15**]  04:11 AM
                             [**2167-2-15**]  04:20 AM
                             [**2167-2-15**]  12:26 PM
                             [**2167-2-15**]  01:42 PM
                             [**2167-2-15**]  06:16 PM
                             [**2167-2-15**]  09:30 PM
                             [**2167-2-16**]  04:59 AM
                             [**2167-2-16**]  05:21 AM
   WBC
   2.0
   2.2
   Hct
   26.2
   25.7
   Plt
   165
   212
   Cr
   2.1
   2.7
   3.7
   TCO2
   26
   26
   23
   23
   25
   23
   25
   Glucose
   95
   110
   102
   Other labs: PT / PTT / INR:14.6/25.7/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:80.0 %,
   Band:7.0 %, Lymph:11.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.7 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**].
   1. Tacychardia: patient tachycardic to 120s this AM. NG suction unable
   to pass. Bronched during rounds, also unable to pass. ET tube changed,
   found large mucous plug.
   2. Respiratory Failure: Patient developed ARDS following induction
   chemotherapy and has been intubatd since
.  Etiology not particulary
   clear.  Patient has been difficult to ween from vent in the setting of
   developing persistent fevers.  Repeat CT scan showed cavitary lesion,
   but on subsequt study seems more consistet w/ penumatocele.  Some
   difficulty of ween attributed to volume overload in setting of ARF.
   Patient tolaterated weaning on pressure support, however, despite good
   gases, is extremely tachypneic to the 40s.
   - daily CXR and frequent suctioning
   - ativan for anxiety
   - will add prn morphine
   - continue Levofloxacin, Voriconazole
   - continue to work towards extubation aggressively
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
    # Fever
 unclear if this is due to new infection vs drug fever
   Sputum Yeast in urine Cx, but patient on voriconazole, will d/c foley.
   CT showed cavitating lesion left upper lobe, fungus vs pneumatocoele
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever,  d/c vanc ([**2-13**]) with
   persistent rash c/w drug rash
   - f/u cultures
   - LENI negative
   - CT of chest shows cavitary lesion unlikely infectious
   - change voriconizole from IV to PO
   - ID consult appreciated, will hold off currently on bone marrow bx
   - Per ID will repeat Chest CT [**2-19**]
   - Will culture all lines when spikes.
   # AML:  Day 40 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  f/u BMT rec
   - will consider re-marrow for w/u fever of unknown origin
     # ARF
 Rising Creatine & muddy brown casts in sediment consistent
   with ATN.  Creatinine plateau not defined yet, still waiting on
   resolution.  Creatinine continues to rise after each HD session. Pt
   became oliguric and concern that patient with worsened volume overload
   compromising ability to extubate, HD catheter placed and pt has been
   getting dialyzed for supratherapeutic Vanc levels (now resolved) and
   fluid overload.  Pt now oligure/anuric requiring dialysis.  Uncertain
   if ever will regain ability to make urine.
   - continue CVVH for now
   - appreciate renal rec
   - cont phos binders
   - Patient will need HD line changed soon, consider placing tunnelled
   line, but high risk given fever of [**Last Name (un) 1780**] origin.
   # Afib
started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
    # Anemia
 has been transfusion dependant s/p induction,.
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   # Mental Status changes
 MS changes noted on day prior to intubation.
   CT Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   # Mixed Metabolic Alkalosis/Respiratory Alkalosis
 RESOLVED. pt had
   respiratory alkalosis [**12-27**] hyperventilation with RR>30.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer:  Famotatine
   VAP:  Chorhexadine rinses and HOB >30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: intubated
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   Ms. [**Known lastname 1395**] developed worse respiratory distress this morning, with HR
   and RR elevation.  We were unable to successfully pass a suction
   catheter.  I proceeded with bronchoscopy, which showed that her
   endotracheal was mostly occluded by inspissated secretions.  We
   consulted anesthesia, and proceeded to extubate her and then
   reintubate.  Her tube was markedly occluded with secretions.
   Her other major issues today have been ongoing tachycardia and
   recrudescent fever.
   A/P
   68-year-old woman with h/o stage II breast Ca, post-polio syn, recently
   dx
d AML (felt secondary to breast cancer treatment), now with a
   complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, and ARDS. Today, it appeared that she had
   partial endotracheal tube obstruction, and this was confirmed by
   bronchoscopy and we reintubated her.
   1. Respiratory failure with improving ARDS: day 19 intubation.
   Tolerated PS 5/5 very well until [**2-14**] AM when desaturated and increase
   RR after RSBI.  This may have represented partial tube obstruction, but
   this will take a day or two to sort out since she derecruited some
   during the exchange.
   Prev hx (per notes): unknown precipitant,all cultures negative,
   possible steroid responsive pneumonitis initially, off steroids as of
   [**2-3**].  CT shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.  Pleural effusions,
   too small to tap per IP. Doubt empyema.
   2.  Anuric ARF: on HD per renal
   3. ID/Fevers: non-neutropenic now, but continues to be febrile.  No
   clear etiology; cultures so far negative. Possibility of drug fever vs
   leukemia-induced vs nonresolving VAP vs empyema.
   4. Anemia: stable
   5. AML/Chemotherapy: BMT following.
   Case discussed with Dr. [**Last Name (STitle) 1750**].
   Full code.  Will meet with husband tomorrow.
   CC Time: 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2167-2-17**] 12:01 AM ------

2167-02-17 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-2-16**] 11:34 AM
 FEVER - 103.1
F - [**2167-2-16**] 02:00 PM
   - Pt had partial occlusion of ET tube, was reintubated by anesthesia
   revealing thick secretions clogging tube
   - Changed voriconazole from IV to po
   - ONC recs - hold off on bone marrow biopsy for now
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-17**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.7
C (98.1
   HR: 99 (99 - 140) bpm
   BP: 135/61(84) {104/50(61) - 172/93(104)} mmHg
   RR: 21 (21 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,072 mL
                                                                    349 mL
   PO:
                  TF:
                                                                    452 mL
                                                                    299 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                    349 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (417 - 422) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 33 cmH2O
   SpO2: 99%
   ABG: 7.50/34/117/25/4
   Ve: 10.2 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, rousable
   Labs / Radiology
   214 K/uL
   7.5 g/dL
   104 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.5 mEq/L
   41 mg/dL
   108 mEq/L
   144 mEq/L
   21.8 %
   2.4 K/uL
        [image002.jpg]
                             [**2167-2-15**]  12:26 PM
                             [**2167-2-15**]  01:42 PM
                             [**2167-2-15**]  06:16 PM
                             [**2167-2-15**]  09:30 PM
                             [**2167-2-16**]  04:59 AM
                             [**2167-2-16**]  05:21 AM
                             [**2167-2-16**]  05:06 PM
                             [**2167-2-17**]  12:05 AM
                             [**2167-2-17**]  04:03 AM
                             [**2167-2-17**]  04:20 AM
   WBC
   2.2
   2.4
   Hct
   25.7
   21.8
   Plt
   212
   214
   Cr
   3.7
   2.4
   TCO2
   23
   23
   25
   23
   25
   30
   28
   27
   Glucose
   102
   104
   Other labs: PT / PTT / INR:14.5/27.6/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Microbiology: Blood cultures negative to date
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**], still on vent, now on PSV, ET
   tube change [**2-16**] because clogged.
   Respiratory Failure: Patient developed ARDS following induction
   chemotherapy and has been intubatd since
.  Etiology not particulary
   clear.  Patient has been difficult to ween from vent in the setting of
   developing persistent fevers.  Repeat CT scan showed cavitary lesion,
   but on subsequt study seems more consistet w/ penumatocele.  Some
   difficulty of ween attributed to volume overload in setting of ARF.
   Patient tolaterated weaning on pressure support, however, despite good
   gases, is extremely tachypneic to the 40s.  Patient was bronched
   [**2167-2-16**] during rounds, mucous pluggig in ET tube, and ET tube was
   changed.
   - [**2-18**] decrease PSV settings to [**9-2**] (from 15/10) ABG on this
   7.46/33/102/24, pCO2 inproving. PO2 appropriate
   - daily CXR and frequent suctioning
   - ativan for anxiety
   - will add prn morphine
   - continue Voriconazole for cavitary lesion
   - continue to work towards extubation
   - pt approacing critical juncture where decision may need to be made
   about trach and peg, will try very hard to extubate patient, as
   longterm prognosis from heme-onc standpoint very poor
   - consider trach pending family meeting, has been intubated 3weeks
   Fever of Unknown Origen: unclear if this is due to infection vs drug
   fever vs AML related.   Sputum Yeast in urine Cx, but patient on
   voriconazole, will d/c foley.  CT showed cavitating lesion left upper
   lobe, fungus vs pneumatocoele
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever,  d/c vanc ([**2-13**]), d/c
   levofloxacin [**2-17**]
   - f/u cultures
 negative to date
   - CT of chest shows cavitary lesion unlikely infectious
   - cont voriconizole PO
   - ID consult appreciated: will discuss possibilty bone marrow box for
   work up of FUO
   - Per ID will repeat Chest CT [**2-19**]
   - Will culture all lines when spikes.
   - per ID consider changing lines
   - consider Abd CT for abscess or other etiology of fever
   - consider actinomyces or nocardia given cavitary lesion on CT
   AML:  Day 40 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   -  transfusion scales: transfuse if Hct<25 or plt<10
   -  monitor daily ANCs , avoiding G-CSF.
   -  BMT recs appreceated: will hold off on bone marrow bx for now as
   counts are improving and no blasts on diff.
   ARF: Rising Creatine & muddy brown casts in sediment consistent with
   ATN.  Creatinine plateau not defined yet, still waiting on resolution.
   Creatinine continues to rise after each HD session. Pt became oliguric
   and concern that patient with worsened volume overload compromising
   ability to extubate, HD catheter placed and pt has been getting
   dialyzed for supratherapeutic Vanc levels (now resolved) and fluid
   overload.  Pt now oligure/anuric requiring dialysis.  Uncertain if ever
   will regain ability to make urine.
   - continue HD for now, due [**2-18**]
   - appreciate renal rec
   - cont phos binders
   - Patient will need HD line changed soon, consider placing tunnelled
   line, but high risk given fever of [**Last Name (un) 1780**] origin.
   Afib: started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   Anemia: has been transfusion dependant s/p induction, Patient
   transfused 1 unit [**2-17**]
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   Mental Status changes:  MS changes noted on day prior to intubation. CT
   Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   Mixed Metabolic Alkalosis/Respiratory Alkalosis:  RESOLVED. pt had
   respiratory alkalosis [**12-27**] hyperventilation with RR>30.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-17**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-17 11:10:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2167-2-16**] 11:34 AM
 FEVER - 103.1
F - [**2167-2-16**] 02:00 PM
   Bronch --> substantially occluded ET tube --> extubation and
   reintubation by anesthesia
   Discussed with husband and plan update meeting today 3p
   Transfusion begun for anemia
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-15**] 04:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-2-17**] 12:00 AM
   Other medications:
   PPI, SQI, epo, levoflox, ativan, diltiazem, voriconazole, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-17**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38
C (100.4
   HR: 111 (99 - 140) bpm
   BP: 105/59(73) {104/50(61) - 172/93(104)} mmHg
   RR: 21 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
           Total In:
                                                                  1,072 mL
                                                                    862 mL
   PO:
           TF:
                                                                    452 mL
                                                                    431 mL
   IVF:
                                                                    500 mL
                                                                     11 mL
   Blood products:
   190 mL
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                    862 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (417 - 422) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 33 cmH2O
   SpO2: 98%
   ABG: 7.50/34/117/25/4
   Ve: 10.2 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : , No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased, Very limited movement -- toes,
   eyes. Clearly volitional and following commands. Depressed DTRs, absent
   [**Name2 (NI) 1796**].
   Labs / Radiology
   7.5 g/dL
   214 K/uL
   104 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.5 mEq/L
   41 mg/dL
   108 mEq/L
   144 mEq/L
   23.7 %
   2.4 K/uL
        [image002.jpg]
                             [**2167-2-15**]  01:42 PM
                             [**2167-2-15**]  06:16 PM
                             [**2167-2-15**]  09:30 PM
                             [**2167-2-16**]  04:59 AM
                             [**2167-2-16**]  05:21 AM
                             [**2167-2-16**]  05:06 PM
                             [**2167-2-17**]  12:05 AM
                             [**2167-2-17**]  04:03 AM
                             [**2167-2-17**]  04:20 AM
                             [**2167-2-17**]  06:48 AM
   WBC
   2.2
   2.4
   Hct
   25.7
   21.8
   23.7
   Plt
   212
   214
   Cr
   3.7
   2.4
   TCO2
   23
   25
   23
   25
   30
   28
   27
   Glucose
   102
   104
   Other labs: PT / PTT / INR:14.5/27.6/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR shows bilateral opacities, essentially unchanged c/w
   yesterday.  ETT and lines are appropriately positioned.
   Assessment and Plan
   A/P
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, and ARDS.
   Respiratory failure with improving ARDS: day 20 intubation.
   Yesterday, it appeared that she had partial endotracheal tube
   obstruction, and this was confirmed by bronchoscopy and we reintubated
   her.
   Will decrease her PEEP today.
   It appears as if she may have a substantial myopathic or neuropathic
   component to ongoing respiratory failure.
   Prev hx (per notes): unknown precipitant,all cultures negative,
   possible steroid responsive pneumonitis initially, off steroids as of
   [**2-3**].  CT shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.  Pleural effusions,
   too small to tap per IP. Doubt empyema.
   Anuric ARF: on HD per renal
   Will likely need line changed soon.
   Fevers
   Non-neutropenic now, but continues to be febrile.  No clear etiology;
   cultures so far negative. Possibility of drug fever vs leukemia-induced
   vs nonresolving VAP vs empyema.
   Anemia:
   Slow trend down.  Receiving blood today.
   AML
   BMT following.
   Weakness
   Re-examine in afternoon.  If persists, consider consulting neurology
   regarding help in specifying diagnosis (ICU neuro/myopathy vs
   exacerbation of post-polio, etc.), which migh be helpful for prognosis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-17**] 12:00 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family meeting at 3pm
   Code status: Full code
   Disposition : ICU
   Total time spent:  40 min

2167-02-18 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2167-2-17**] 04:00 PM
   PEEP trial [**9-4**] --> [**8-30**]-> tachy, HTN, anxious--> restarted [**9-4**],
   then [**11-4**].
   levo d/c'd
   family meeting: cont w/ trach as planned
   neuro exam, consistent w/ before.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-17**] 08:10 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-2-17**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-18**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-18**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.7
C (101.7
   HR: 133 (104 - 133) bpm
   BP: 146/77(102) {105/59(73) - 168/81(109)} mmHg
   RR: 38 (20 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.8 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,807 mL
                                                                    353 mL
   PO:
             TF:
                                                                    961 mL
                                                                    313 mL
   IVF:
                                                                     71 mL
                                                                     39 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                     60 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,747 mL
                                                                    353 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (315 - 350) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.44/34/86/21/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: NG tube, OG tube, increased secretions
   Cardiovascular: nl s1s2, no g/r/m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, pedal edema
   Skin:  Not assessed
   Neurologic:, not responding to command, opens eyes to sound.
   Labs / Radiology
   296 K/uL
   9.5 g/dL
   99 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   60 mg/dL
   108 mEq/L
   142 mEq/L
   28.4 %
   3.9 K/uL
        [image002.jpg]
                             [**2167-2-17**]  04:03 AM
                             [**2167-2-17**]  04:20 AM
                             [**2167-2-17**]  06:48 AM
                             [**2167-2-17**]  12:07 PM
                             [**2167-2-17**]  02:35 PM
                             [**2167-2-17**]  02:48 PM
                             [**2167-2-17**]  04:44 PM
                             [**2167-2-17**]  11:52 PM
                             [**2167-2-18**]  04:37 AM
                             [**2167-2-18**]  04:55 AM
   WBC
   2.4
   3.9
   Hct
   21.8
   23.7
   28.9
   28.4
   Plt
   214
   296
   Cr
   2.4
   3.1
   TCO2
   27
   24
   25
   23
   25
   24
   Glucose
   104
   99
   Other labs: PT / PTT / INR:14.5/27.6/1.3, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   68 y.o. F with PMHx of Breast CA, polio & newly dx secondary AML s/p
   induction with 7+3.  Post induction course complicated by febrile
   neutropenia, worsening hypoxia & ARDS. Pt transferred to [**Hospital Unit Name 44**],
   intubated & s/p Bronchoscopy on [**2167-1-27**], still on vent, now on PSV, ET
   tube change [**2-16**] because clogged. Rebronched [**2167-2-18**]
   Respiratory Failure: Patient developed ARDS following induction
   chemotherapy and has been intubatd since
.  Etiology not particulary
   clear.  Patient has been difficult to ween from vent in the setting of
   developing persistent fevers.  Repeat CT scan showed cavitary lesion,
   but on subsequent study seems more consistet w/ penumatocele.  Some
   difficulty of ween attributed to volume overload in setting of RF.
   Patient tolaterated weaning on pressure support, however, despite good
   gases, is extremely tachypneic to the 40s.  Patient was bronched
   [**2167-2-16**] during rounds, mucous pluggig in ET tube, and ET tube was
   changed. [**2167-2-18**] rebronched, more copious mucous plugging in ET tube.
   Also likely myopathic component at this point.
   - Patient stable currently on PS 50% 10/10.  gas stable on this
   (7.39/39/100/24), will decrease PEEP to 8.
   - daily CXR and frequent suctioning
   - ativan for anxiety, prn morphine
   - continue Voriconazole for cavitary lesion, will d/c pending CT
   tomorrow
   - continue to work towards extubation
   - Family meeting [**2-17**] -> patient will be trached and pegged.
   - Interventional Pulmonolgy consulted, they will evaluate her
   Fever of Unknown Origin: unclear if this is due to infection vs drug
   fever vs AML related.  Sputum grew yeast as did urine, but patient on
   voriconazole. CT showed cavitating lesion left upper lobe, fungus vs
   pneumatocoele
   - d/[**Initials (NamePattern5) 1739**] [**Last Name (NamePattern5) 430**] ([**2-12**]) for suspicion of drug fever,  d/c vanc ([**2-13**]), d/c
   levofloxacin ([**2-17**])
   - f/u cultures
 negative to date
   - CT of chest shows cavitary lesion unlikely infectious will repeat
   Chest CT [**2-19**]
   - cont voriconizole PO, if repeat lung CT not suggestive of infecious
   process, will D/c.
   - ID consult appreciated: will discuss possibilty bone marrow box for
   work up of FUO
   - Will culture all lines when spikes, Consider resetting all lines.
   - consider actinomyces or nocardia given cavitary lesion on CT
   AML:  Day 40 s/p induction with 7+3. Counts recovering, no longer
   neutropenic
   - per BMT, prognosis poor, on order of months, will not be able to give
   further treatment while intubated
   - transfusion scales: transfuse if Hct<25 or plt<10
   - monitor daily ANCs , avoiding G-CSF.
   - BMT recs appreceated: will hold off on bone marrow bx for now as
   counts are improving and no blasts on diff.
   ARF: Rising Creatine & muddy brown casts in sediment consistent with
   ATN.  Creatinine plateau not defined yet, still waiting on resolution.
   Creatinine continues to rise after each HD session. Pt became oliguric
   and concern that patient with worsened volume overload compromising
   ability to extubate, HD catheter placed and pt has been getting
   dialyzed for supratherapeutic Vanc levels (now resolved) and fluid
   overload.  Pt now oligure/anuric requiring dialysis.  Uncertain if ever
   will regain ability to make urine.
   - continue HD for now,  due today [**2-18**]
   - appreciate renal rec
   - cont phos binders
   - Should get HD tunnelled line later this week.
   Afib: started [**2-2**] following insertion of the HD catheter, likely due
   to atrial irritation.  HR was temporary controlled on dilt gtt, now
   well controlled in sinus on po meds.
   - continue diltiazem
   Anemia: has been transfusion dependant s/p induction, Patient
   transfused 1 unit [**2-17**]
   - transfusion goal to maintain hct >25
   - stool guaiac negative
   - hemolysis labs negative
   Mental Status changes:  MS changes noted on day prior to intubation. CT
   Head neg, however, M4 AML is known for CNS spread that may not be
   appreciable on CT.  Hypoxia & polypharmacy most likely etiology of MS
   changes prior to intubation & unable to properly assess MS [**First Name (Titles) 1646**]
[**Last Name (Titles) 1647**]ted.
   - better evaluate when pt extubated
   Mixed Metabolic Alkalosis/Respiratory Alkalosis:  RESOLVED. pt had
   respiratory alkalosis [**12-27**] hyperventilation with RR>30.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-18**] 12:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  PPO
   VAP:  HOB >30, chlorhexidane
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: intubated.

2167-02-19 11:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-2-18**] 10:02 AM
 BRONCHOSCOPY - At [**2167-2-18**] 02:06 PM
   -- prolonged ETT clean-out yesterday; no pus distally
 FEVER - 102.8
F - [**2167-2-18**] 08:00 AM
   More awake today
   History obtained from Patient
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-17**] 08:10 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-2-18**] 01:00 PM
   Fentanyl - [**2167-2-18**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-19**] 05:55 AM
   Other medications:
   Off antibiotics.  Medications reviewed from [**Month (only) **] on rounds.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-19**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.3
C (99.1
   HR: 109 (103 - 123) bpm
   BP: 136/73(96) {94/59(70) - 163/79(109)} mmHg
   RR: 32 (27 - 35) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.1 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,255 mL
                                                                    529 mL
   PO:
             TF:
                                                                    685 mL
                                                                    323 mL
   IVF:
                                                                    300 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,155 mL
                                                                    529 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (339 - 464) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 19 cmH2O
   SpO2: 93%
   ABG: 7.47/32/63/21/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 126
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , No(t) Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, very limited movement
   Labs / Radiology
   8.7 g/dL
   284 K/uL
   95 mg/dL
   2.6 mg/dL
   21 mEq/L
   5.1 mEq/L
   45 mg/dL
   105 mEq/L
   137 mEq/L
   26.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2167-2-17**]  04:44 PM
                             [**2167-2-17**]  11:52 PM
                             [**2167-2-18**]  04:37 AM
                             [**2167-2-18**]  04:55 AM
                             [**2167-2-18**]  12:27 PM
                             [**2167-2-18**]  05:26 PM
                             [**2167-2-19**]  03:54 AM
                             [**2167-2-19**]  04:15 AM
                             [**2167-2-19**]  09:02 AM
                             [**2167-2-19**]  10:34 AM
   WBC
   3.9
   4.4
   Hct
   28.4
   26.0
   Plt
   296
   284
   Cr
   3.1
   2.6
   TCO2
   23
   25
   24
   24
   23
   24
   25
   24
   Glucose
   99
   95
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:0.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CT head: increased sinus opacification
   CCT: LUL lesion stable. Some nodular component RUL. Official [**Location (un) 308**]:
   "Minimal  increase  of  parenchymal  opacities,  minimal  increase  of
   ground-glass  opacities.    Otherwise,  the  CT  examination  is
   unchanged.    Overall,
   the  findings  are  well  consistent  with  the  clinical  observation
   of  ARDS.
   "
   Microbiology: No (+) micro
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred  to ICU for progressive hypoxemia, intubated
   for respiratory failure, and ARDS.
   Respiratory failure with improving ARDS:
          Anticipate trach/G today
          Would not make aggressive moves on vent now, given planned
   procedure
          Weakness may contribute to difficulty to wean
   Prev hx (per notes): unknown precipitant,all cultures negative,
   possible steroid responsive pneumonitis initially, off steroids as of
   [**2-3**].  CT shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.  Pleural effusions,
   too small to tap per IP. Doubt empyema.
   Anuric ARF: on HD per renal
   Fevers
   Appreciate ID
s help.
   Ask ENT to visit to help evaluate sinuses and mastoids
 do we need to
   culture these via invasive means?
   Per ID, will stop voriconazole.  If she respikes, would consider BAL
   again to look for fungus.
   Anemia:
   Stable with intermittent transfusions
   AML
   BMT following.  No evidence of relapse at present
   ICU Care
   Nutrition:
   Glycemic Control:  adequate
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Discussed issues in detail with patient
   husband.
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2167-02-20 11:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2167-2-19**] 05:37 PM
   > G tube
   Fever may be decreasing.
   Tolerated trach/PEG well.
                                       Patient unable to provide history: trach
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2167-2-17**] 08:10 PM
   Cefazolin - [**2167-2-19**] 04:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2167-2-19**] 06:10 PM
   Fentanyl - [**2167-2-19**] 06:10 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-20**] 06:17 AM
   Lansoprazole (Prevacid) - [**2167-2-20**] 08:06 AM
   Other medications:
   PPI, SQI, epo, ativan TID, SQH, Afrin, diltiazem 120 held
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-20**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 108 (100 - 117) bpm
   BP: 164/82(110) {99/55(72) - 171/85(116)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                    797 mL
                                                                    209 mL
   PO:
             TF:
                                                                    323 mL
                                                                     43 mL
   IVF:
                                                                    325 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                    209 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 450 (384 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 81
   RSBI Deferred: RR >35, Vent Dependant
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.33/39/91.[**Numeric Identifier 96**]/18/-4
   NIF: -24 cmH2O
   Ve: 9.3 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   8.3 g/dL
   309 K/uL
   60 mg/dL
   3.4 mg/dL
   18 mEq/L
   5.1 mEq/L
   60 mg/dL
   107 mEq/L
   136 mEq/L
   24.8 %
   4.2 K/uL
        [image002.jpg]
                             [**2167-2-18**]  04:37 AM
                             [**2167-2-18**]  04:55 AM
                             [**2167-2-18**]  12:27 PM
                             [**2167-2-18**]  05:26 PM
                             [**2167-2-19**]  03:54 AM
                             [**2167-2-19**]  04:15 AM
                             [**2167-2-19**]  09:02 AM
                             [**2167-2-19**]  10:34 AM
                             [**2167-2-20**]  04:19 AM
                             [**2167-2-20**]  04:57 AM
   WBC
   3.9
   4.4
   4.2
   Hct
   28.4
   26.0
   24.8
   Plt
   296
   284
   309
   Cr
   3.1
   2.6
   3.4
   TCO2
   24
   24
   23
   24
   25
   24
   21
   Glucose
   99
   95
   58
   60
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:78.0 %,
   Band:1.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:5.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: trach, lines acceptable.  Bilateral infiltrates probably
   stable.
   Microbiology: No new positive micro
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on
   [**2167-2-19**].
   Respiratory failure with improving ARDS: day 22 intubation.
   It appears as if she may have a substantial myopathic or neuropathic
   component to ongoing respiratory failure.
   She also has continuing significant pulmonary parenchymal disease
   likely recovering ARDS
   Assess RSBI today; suspect that we will need to slowly wean her
   ventilatory support.
   Prev hx (per notes): unknown precipitant,all cultures negative,
   possible steroid responsive pneumonitis initially, off steroids as of
   [**2-3**].  CT shows LUL cavitating nodule which is likely pneumatocoele.
   BAL showed 1+ polys, no organisms, rest pending.  Pleural effusions,
   too small to tap per IP. Doubt empyema.
   Anuric ARF: on HD per renal
   If she continues to be afebrile, move to tunneled line.
   Fevers
          Her fever curve finally appears to be trending down, now off
   all antibiotics.  ?voriconazole drug fever.
          We will continue to follow all cultures
          If she demonstrates further evidence of infection (fever,
   increase in WBC, etc.), I would favor re-bronch with Bal directed
   toward her more nodular CT areas.
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.
   Weakness
   On exam, this is most consistent with a peripheral neuropathy.  Suspect
   that this is related to critical illness, but the differential
   diagnosis is complicated by her history of post-polio syndrome.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-20**] 09:00 AM 20 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2167-1-29**] 03:03 AM
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending Addendum
   5:30pm
   Ms. [**Known lastname 1395**] developed tachycardia to the 180s. This was accompanied by
   hypotension to the low 80s. The rhythm was a regular, narrow complex
   tachycardia.  We successfully cardioverted her with carotid massage.
   Examination of the termination strip is not completely diagnostic, but
   overall suspect that this represents an AVNRT.  ATach is also in DDx.
   Doubt Aflutter given the rate.  Her diltiazem was held until she
   completed hemodialysis, and this may contribute.  We will check
   electrolytes and check a CXR to assess line position.  If line is in
   atrium and tachycardias persist, may need to consider pulling it back a
   few centimeters or replacing.  Issues explained to husband and
   daughter, who were in room
   [**Name (NI) 1863**]: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2167-2-20**] 10:36 PM ------
   CRITICAL CARE STAFF ADDENDUM
   Preliminary read on differential of smear shows 2% blasts.  We will ask
   hematology/BMT to review.  Discussed with family that we would follow
   this and await the final [**Location (un) 308**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2167-2-20**] 10:49 PM ------

2167-02-21 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-2-20**] 11:00 PM
 ARTERIAL LINE - START [**2167-2-20**] 11:35 PM
   SVT-> responded to carotid massage, then again tachy.  20 iv dilt w/
   120 mg po
   spoke w/ renal, no longer need to hold dilt before hd since preference
   is rate control over adequate BP to take off fluids
   Neuro - get MRI brain / c-spine for upper motor weakness.  also, ? LP
   in future for dx of [**Last Name (LF) 1870**], [**First Name3 (LF) **] [**Doctor First Name 1871**], etc.
   ID - remove all lines for temps
   a-line replaced into right rad art
   on phenylephrine for short time period and weaned-> hypotension
   considered [**12-27**] diltiazem dose post HD, after 250 NS bolus attempted
   without improvement, did not want to give fluid back post HD
   vent-> 40% fio2 from 50;
   Dilt decreased to 90 from 120.
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2167-2-19**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-20**] 08:06 AM
   Diltiazem - [**2167-2-20**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-20**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-21**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 117 (101 - 170) bpm
   BP: 145/74(97) {79/50(44) - 168/87(113)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,254 mL
                                                                    362 mL
   PO:
             TF:
                                                                    404 mL
                                                                    302 mL
   IVF:
                                                                    670 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,254 mL
                                                                    363 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 475 (430 - 475) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 81
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.44/39/106/25/1
   NIF: -24 cmH2O
   Ve: 8.4 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   326 K/uL
   7.8 g/dL
   146 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   30 mg/dL
   106 mEq/L
   142 mEq/L
   24.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2167-2-19**]  09:02 AM
                             [**2167-2-19**]  10:34 AM
                             [**2167-2-20**]  04:19 AM
                             [**2167-2-20**]  04:57 AM
                             [**2167-2-20**]  12:28 PM
                             [**2167-2-20**]  03:17 PM
                             [**2167-2-20**]  05:17 PM
                             [**2167-2-21**]  12:15 AM
                             [**2167-2-21**]  05:00 AM
                             [**2167-2-21**]  05:14 AM
   WBC
   4.2
   5.4
   Hct
   24.8
   24.0
   Plt
   309
   326
   Cr
   3.4
   1.4
   2.0
   TCO2
   25
   24
   21
   17
   27
   29
   27
   Glucose
   58
   60
   81
   146
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:6.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.1 mg/dL
   Microbiology: c diff negative x4
   cryptococcal angtn negative
   blood cultures all negative to date
   urine cultures all negative to date
   Assessment and Plan
   68F h/o breast CA, [**Month/Year (2) 1870**] & secondary AML s/p induction (7+3), course
   complicated by post-induction febrile neutropenia, hypoxia [**12-27**] ARDS,
   LUL PNA, volume overload, B pulmonary infiltrates. Intubated day 21
   ([**2167-1-27**]) & s/p bronchoscopy x2 ([**2167-1-27**], 326/08), now on PSV 12/8, now
   with gram positive cocci bacteremia from [**2-19**] blood culture
   Respiratory Failure: Prior etiology likely multifactorial [**12-27**] ARDS s/p
   induction chemotherapy, volume overload,?infection although cxs
   negative (until blood cx [**2-19**]), pneumonitis, mucus plugging, myopathy.
   Now w/ slowly improving respiratory status. s/p tracheostomy [**2167-2-19**]
   - cont to wean from the ventilator, on pressure support today, will not
   be aggressive today considering hypotension last night
   - Supportive care/monitoring: Daily CXR, suctioning
   - HD last [**2-20**]
   ID:
   *Gram Positive Cocci Bacteremia:  from [**2-19**] blood cultures, fever spike
   102.7 midnight [**2-19**]
   - continue vancomycin, got one dose 3/29 AM, now dose at HD
   - ECHO to rule out valvular vegetations
   - HD catheter pulled [**Last Name (un) 1330**] [**2167-2-21**]. 2 peripheral IVs placed and PICC
   pulled as well. Now all lines are new. Arterial Line changed [**2-20**].  Now
   all lines completely reset. Will  need new HD catheter on Monday.
   *Fever of Unknown Origin: has been afebrile since last spike, but had
   been febrile for severaly weeks. Unclear etiology, considering
   infection vs drug fever vs AML. All cultures prior to [**2-19**] have been
   negative, so etiology of original FUO was, most likely related to AML
   or drug fever.  Fever curve potentially improving.  Abx history: D/c
   meropenem ([**2-12**]) for ?drug fever,  d/c
d vanc ([**2-13**]), d/c
   levofloxacin ([**2-17**])
   - All lines reset between [**Date range (1) 1878**].  (HD cath [**Last Name (LF) 1879**], [**First Name3 (LF) **] line replaced,
   PICC removed)
   - Will repeat Chest Ct next week to follow progression of lung
   infiltrates, concern for invasive fungal infection
   - Restarted vancomycin [**2167-2-21**] for gram positive cocci bacteremia
   - ENT swabbed sinuses culture, will f/u; hold abx until gram
   stain/culture positive; Afrin spray TID x3 days
   - f/u beta glucan, galactomannan, cryptococcal antigen negative
   AVNRT: patient developed HR of 180s last night, resolved with
   diltiazem, although she became hypotensive on this and required
   pressors for approx 1 hours. Possibly related to picc in atrium, but
   was discontinuted today, so will follow. Initially, new onset [**2-2**] s/p
   HD catheter insertion likely [**12-27**] atrial irritation, controlled on
   diltiazem PO
   - continue diltiazem 90mg TID PO
   Weakness
   Upper >> lower extremity weakness.  Areflexic.  Likely ICU myopathy /
   ICU demyelination, + deconditioning, vs post [**Month/Day (2) 1870**] syndrome.
- neuro consult appreciated: will order MRI of brain, EMG/NCS and consider spina
l tap for CSF analysis if does not improve
   - PT consult
   Renal Failure [**12-27**] ATN on HD: STABLE.  Oliguric/anuric on HD, uncertain
   prognosis. s/p HD [**2-20**], next due [**2-23**]
   - will get new HD temp line on Monday prior to HD, will consider
   changing to tunneled over line once afebrile and stable.
   - renal recs appreciated
   Mental status changes:  IMPROVED
   Responding to vocal commands well, awake alert.
   Cont to monitor postextubation.  Likely was [**12-27**] polypharmacy.
   AML:  STABLE.  Day 41 s/p induction with 7+3, WBC 4.4, not neutropenic
   - BMT rec: Hold further treatment while intubated, hold bone marrow bx
   (improving counts, no blasts)
   - Transfuse plt<10; monitor ANC, avoid GCSF
   - Anemia: STABLE.  Transfusion dependent s/p induction, guaiac
   negative, hemolysis negative.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-21**] 02:24 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-2-20**] 11:35 PM
   2 peripherals
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-21 11:14:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   - 24 hr events, SVT responded to carotid massage, Rx 20 IV Dilt then
   100 mg po- transient hypotension requiring transient pressor now off
   - Aline replaced and [**2-19**] blood cultures of old Aline + for GPC
   - Neuro wanted a brain MRI
   24 Hour Events:
 ARTERIAL LINE - STOP [**2167-2-20**] 11:00 PM
 ARTERIAL LINE - START [**2167-2-20**] 11:35 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2167-2-19**] 04:00 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2167-2-20**] 05:15 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-20**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-2-21**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 117 (101 - 170) bpm
   BP: 107/59(77) {79/50(44) - 168/87(113)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.7 kg (admission): 76.1 kg
   Height: 59 Inch
             Total In:
                                                                  1,254 mL
                                                                    518 mL
   PO:
             TF:
                                                                    404 mL
                                                                    441 mL
   IVF:
                                                                    670 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,254 mL
                                                                    518 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 410 (350 - 410) mL
   Vt (Spontaneous): 368 (368 - 475) mL
   PS : 12 cmH2O
   RR (Set): 25
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.45/41/89.[**Numeric Identifier 128**]/25/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   326 K/uL
   146 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   30 mg/dL
   106 mEq/L
   142 mEq/L
   24.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2167-2-19**]  10:34 AM
                             [**2167-2-20**]  04:19 AM
                             [**2167-2-20**]  04:57 AM
                             [**2167-2-20**]  12:28 PM
                             [**2167-2-20**]  03:17 PM
                             [**2167-2-20**]  05:17 PM
                             [**2167-2-21**]  12:15 AM
                             [**2167-2-21**]  05:00 AM
                             [**2167-2-21**]  05:14 AM
                             [**2167-2-21**]  09:41 AM
   WBC
   4.2
   5.4
   Hct
   24.8
   24.0
   Plt
   309
   326
   Cr
   3.4
   1.4
   2.0
   TCO2
   24
   21
   17
   27
   29
   27
   29
   Glucose
   58
   60
   81
   146
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:6.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: bilat interstitial infiltrates, can now seen l
   hemidiaphragm
   Microbiology: A line [**2-19**] gram + in prs and clusters
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on
   [**2167-2-19**].
   Respiratory failure with improving ARDS: day 23 intubation.
   It appears as if she may have a substantial myopathic or neuropathic
   component to ongoing respiratory failure.
   She also has continuing significant pulmonary parenchymal disease
   likely recovering ARDS
   Assess RSBI today; suspect that we will need to slowly wean her
   ventilatory support. On PSV 12/8, 50% FIO2
 will try [**9-2**] today and
   follow exam. Follow NIFs.
   Anuric ARF: on HD per renal. Now with + blood cx, discuss with Renal
   whther to pull line give 48 hrs and then resite on Monday for next HD.
   Fevers
          Her fever curve finally appears to be trending down, now off
   all antibiotics.  ?voriconazole drug fever.
          We will continue to follow all cultures
          If she demonstrates further evidence of infection (fever,
   increase in WBC, etc.), I would favor re-bronch with Bal directed
   toward her more nodular CT areas.
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.
   Weakness
   On exam, this is most consistent with a peripheral neuropathy.  Suspect
   that this is related to critical illness, but the differential
   diagnosis is complicated by her history of post-polio syndrome.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-21**] 08:12 AM 40 mL/hour
   Glycemic Control:
   Lines: PICC
 plan to pull, HD catheter
   PICC Line - [**2167-2-2**] 09:30 AM
   Dialysis Catheter - [**2167-2-4**] 03:30 PM
   Arterial Line - [**2167-2-20**] 11:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: chlor hex. Eleavte HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2167-02-22 08:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   GPC from [**2-19**] blood culture
   All lines removed or resited
   Temp still 100.6 4 AM
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2167-2-21**] 03:15 PM
 BLOOD CULTURED - At [**2167-2-21**] 04:17 PM
 PICC LINE - STOP [**2167-2-21**] 04:23 PM
   PICC placed by IV RN. Awaiting CXR confirmation of tip placement.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2167-2-19**] 04:00 PM
   Vancomycin - [**2167-2-21**] 11:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-22**] 06:05 AM
   Other medications:
   Lansoprazole
   Epogen
   Ativan po 1 mg TID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-2-22**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 115 (111 - 119) bpm
   BP: 137/71(95) {102/57(73) - 159/74(103)} mmHg
   RR: 27 (21 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,417 mL
                                                                    353 mL
   PO:
                  TF:
                                                                    963 mL
                                                                    353 mL
   IVF:
                                                                    305 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,417 mL
                                                                    353 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (368 - 411) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 162
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.45/41/89.[**Numeric Identifier 128**]/26/3
   Ve: 10.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Gen: lying in bed, intubated and sedated
   CV: RRR
   Chest: fair air movement no wheezes
   Abd: soft +BS
   Ext: + edema
   Neurologic: Eyes open to voice, seems to answer simple ?, shakes head
   no to pain.
   Labs / Radiology
   7.2 g/dL
   350 K/uL
   117 mg/dL
   2.9 mg/dL
   26 mEq/L
   4.9 mEq/L
   48 mg/dL
   108 mEq/L
   143 mEq/L
   21.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2167-2-20**]  04:19 AM
                             [**2167-2-20**]  04:57 AM
                             [**2167-2-20**]  12:28 PM
                             [**2167-2-20**]  03:17 PM
                             [**2167-2-20**]  05:17 PM
                             [**2167-2-21**]  12:15 AM
                             [**2167-2-21**]  05:00 AM
                             [**2167-2-21**]  05:14 AM
                             [**2167-2-21**]  09:41 AM
                             [**2167-2-22**]  05:09 AM
   WBC
   4.2
   5.4
   6.5
   Hct
   24.8
   24.0
   21.2
   Plt
   [**Telephone/Fax (3) 1890**]
   Cr
   3.4
   1.4
   2.0
   2.9
   TCO2
   21
   17
   27
   29
   27
   29
   Glucose
   58
   60
   81
   146
   117
   Other labs: PT / PTT / INR:12.9/30.1/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:6.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**2-19**] bl cx GPC, follow ups neg to date
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on
   [**2167-2-19**].
   Respiratory failure with improving ARDS: day 23 intubation.
   It appears as if she may have a substantial myopathic or neuropathic
   component to ongoing respiratory failure.
   She also has continuing significant pulmonary parenchymal disease
   likely recovering ARDS
   Will need to slowly wean her ventilatory support. On PSV 12/8, 50% FIO2
 will try [**9-2**] today and follow exam. Follow NIFs.
   Watch CXR as there is a small perhaps early cyst in RLL onn CXR today
   Anuric ARF: on HD per renal. Now with + blood cx, pulled line, will
   replace tomm with IR. Next HD tommorow
   Fevers: new GPC off old Aline culture
          Rx Vanco, needs surveillance cultures, pull HD catheter and
   PICC
          Echo in AM
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.
   Weakness
   On exam, this is most consistent with a peripheral neuropathy.  Suspect
   that this is related to critical illness, but the differential
   diagnosis is complicated by her history of post-polio syndrome. Neuro
   consulted. EMG planned.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-22**] 02:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-2-20**] 11:35 PM
   20 Gauge - [**2167-2-21**] 01:00 PM
   22 Gauge - [**2167-2-21**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40

2167-02-22 09:03:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2167-02-23 10:39:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 hr events
 foley placed to see if she has started to make any urine
   on her own
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-21**] 11:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-23**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2167-2-23**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 108 (105 - 120) bpm
   BP: 135/70(94) {110/62(79) - 150/80(104)} mmHg
   RR: 25 (23 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                    966 mL
                                                                    408 mL
   PO:
                  TF:
                                                                    966 mL
                                                                    298 mL
   IVF:
   Blood products:
   Total out:
                                                                     10 mL
                                                                    100 mL
   Urine:
                                                                     10 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    956 mL
                                                                    308 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (410 - 440) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.45/36/101/24/1
   Ve: 9.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: lying in bed, intubated and sedated
   CV: RRR
   Chest: fair air movement no wheezes
   Abd: soft +BS
   Ext: + edema
   Neurologic: Eyes open to voice, seems to answer simple ?, shakes head
   no to pain.
   Labs / Radiology
   7.3 g/dL
   359 K/uL
   109 mg/dL
   3.8 mg/dL
   24 mEq/L
   5.6 mEq/L
   66 mg/dL
   104 mEq/L
   138 mEq/L
   22.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2167-2-20**]  05:17 PM
                             [**2167-2-21**]  12:15 AM
                             [**2167-2-21**]  05:00 AM
                             [**2167-2-21**]  05:14 AM
                             [**2167-2-21**]  09:41 AM
                             [**2167-2-22**]  05:09 AM
                             [**2167-2-22**]  10:33 AM
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
   WBC
   5.4
   6.5
   6.9
   Hct
   24.0
   21.2
   23.3
   22.1
   Plt
   326
   350
   359
   Cr
   1.4
   2.0
   2.9
   3.8
   TCO2
   29
   27
   29
   26
   26
   Glucose
   81
   146
   117
   100
   99
   109
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:70.0 %,
   Band:3.0 %, Lymph:7.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.0 mg/dL,
   Mg++:3.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on
   [**2167-2-19**].
   Respiratory failure with improving ARDS: day 26 s/p intubation.
   It appears as if she may have a substantial myopathic or neuropathic
   component to ongoing respiratory failure.
   She also has continuing significant pulmonary parenchymal disease
   likely recovering ARDS
   Will need to slowly wean her ventilatory support. On PSV 12/8, 50% FIO2
 will try [**9-2**] today and follow exam. Follow NIFs.
   Anuric ARF: on HD per renal Treated + Aline GPC x 48 hrs - surveillence
   are neg to date, will replace today with IR and HD today.
   Fevers: new GPC off old Aline culture
          Rx Vanco, needs surveillance cultures, pull HD catheter and
   PICC
          Echo in AM
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.
   Weakness
   On exam, this is most consistent with a peripheral neuropathy.  Suspect
   that this is related to critical illness, but the differential
   diagnosis is complicated by her history of post-polio syndrome. Neuro
   consulted. EMG planned. MRI this AM.
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-2-20**] 11:35 PM
   20 Gauge - [**2167-2-21**] 01:00 PM
   22 Gauge - [**2167-2-21**] 02:00 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:  Comments: husband updated over weekend
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2167-02-24 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2167-2-23**] 12:18 PM
 DIALYSIS CATHETER - START [**2167-2-23**] 03:23 PM
 STOOL CULTURE - At [**2167-2-23**] 07:00 PM
   Able to do PSV9/8 several hours yesterday
   HD yesterday
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-23**] 06:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-24**] 05:22 AM
   Lansoprazole (Prevacid) - [**2167-2-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-24**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 110 (98 - 119) bpm
   BP: 164/82(112) {131/69(91) - 176/99(128)} mmHg
   RR: 22 (17 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,354 mL
                                                                    567 mL
   PO:
                  TF:
                                                                    629 mL
                                                                    447 mL
   IVF:
                                                                    150 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,325 mL
                                                                    110 mL
   Urine:
                                                                    325 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -971 mL
                                                                    457 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (350 - 1,076) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 23 cmH2O
   SpO2: 92%
   ABG: 7.48/43/98.[**Numeric Identifier 248**]/27/7
   NIF: -30 cmH2O
   Ve: 7.6 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Gen: lying in bed, intubated and sedated
   CV: RRR
   Chest: fair air movement no wheezes
   Abd: soft +BS
   Ext: + edema
   Neurologic: Eyes open to voice, answering yes /no, moving feet and even
   pressing down with 2+ strength
   Labs / Radiology
   9.1 g/dL
   370 K/uL
   120 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   35 mg/dL
   106 mEq/L
   142 mEq/L
   28.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2167-2-21**]  05:00 AM
                             [**2167-2-21**]  05:14 AM
                             [**2167-2-21**]  09:41 AM
                             [**2167-2-22**]  05:09 AM
                             [**2167-2-22**]  10:33 AM
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
   WBC
   5.4
   6.5
   6.9
   8.7
   Hct
   24.0
   21.2
   23.3
   22.1
   28.1
   Plt
   326
   350
   359
   370
   Cr
   2.0
   2.9
   3.8
   2.0
   TCO2
   27
   29
   26
   26
   33
   Glucose
   146
   117
   100
   99
   109
   120
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:78.0 %,
   Band:13.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL, LDH:361 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: MRI
   echo:
   Microbiology: b glucan neg
   aspergillus neg
   PICC tip GPC
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on
   [**2167-2-19**].
   Respiratory failure with improving ARDS: day 26 s/p intubation.
   Persistent mechanical vent due to a myopathic or neuropathic component
   to ongoing respiratory failure.
   She also has continuing significant pulmonary parenchymal disease
   likely recovering ARDS
   However, some improvement in past 2 days. Now on PSV- will ask for PMV
   so she can speak- and may even trial very short 15 min burst of trach
   mask as tolerated. I think both these efforts would be very helpful for
   her state of mind
   Anuric ARF: on HD with new line placed [**2-23**]
   Fevers: low grade.
          Rx Vanco for GPC off Aline, surveillance cultures, pulled
   catheter and PICC
          Follow up final red on echo
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.
   Weaknessperipheral neuropathy.  Suspect that this is related to
   critical illness, but the differential diagnosis is complicated by her
   history of post-polio syndrome. Neuro consulted. EMG today awaiting
   final read of MRI yesterday
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-23**] 03:44 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2167-2-20**] 11:35 PM
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB, chlor hex
   Comments:
   Communication:  husband, plan for family meeting later in week
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2167-02-25 07:39:00 Physician Resident Progress Note
Chief Complaint: 68F h/o breast CA, post polio syndrome & secondary AML
   s/p induction (7+3), c/b post-induction febrile neutropenia, ARDS [**12-27**]
   chemo, trach'd/PEG'd, on HD [**12-27**] ATN-related oliguric renal failure.
   Now with coag-negative staph bacteremia on vancomycin.
   24 Hour Events:
   - Vent mgt: Tolerated PS [**7-3**], FiO2 40%.  Trach mask trial for ~5
   minutes with sats in low 90s, VSS, but pt said uncomfortable and SOB.
   PS 5/5 attempted this AM, but pt felt SOB, became tachypneic, returned
   to [**7-3**].
   - Echo: No vegetations
   - EMG: Likely ICU myopathy, with underlying generalized, predominantly
   axonal polyneuropathy also likely present
   - Speech consult for PMV (speaking valve)
   - Lost A-line this AM
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-23**] 06:33 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2167-2-25**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 105 (104 - 116) bpm
   BP: 115/77(86) {115/75(86) - 128/77(91)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,180 mL
                                                                    389 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    289 mL
   IVF:
   Blood products:
   Total out:
                                                                    110 mL
                                                                      0 mL
   Urine:
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (338 - 436) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 74
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/43/313/15/3
   NIF: -30 cmH2O
   Ve: 11.2 L/min
   PaO2 / FiO2: 783
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Trach collar
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Mildly coarse breath
   sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology:  LABS ARE BEING REPEATED THIS A.M.
   316 K/uL
   8.7 g/dL
   74 mg/dL
   1.7 mg/dL
   15 mEq/L
   2.7 mEq/L (repleted)
   36 mg/dL
   124 mEq/L
   148 mEq/L
   26.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2167-2-21**]  09:41 AM
                             [**2167-2-22**]  05:09 AM
                             [**2167-2-22**]  10:33 AM
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
                             [**2167-2-24**]  01:21 PM
                             [**2167-2-25**]  04:07 AM
   WBC
   6.5
   6.9
   8.7
   8.6
   Hct
   21.2
   23.3
   22.1
   28.1
   26.2
   Plt
   350
   359
   370
   316
   Cr
   2.9
   3.8
   2.0
   1.7
   TCO2
   29
   26
   26
   33
   29
   Glucose
   117
   100
   99
   109
   120
   74
   Other labs: Ca++:4.8 mg/dL (repleted), Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   Imaging: No CXR logged.
   [**2-24**] echo: LV wall motion normal. LVEF low normal (50-55%). No masses or
   vegetations on the aortic valve. Mitral valve appears structurally
   normal with trivial mitral regurgitation, no mass or vegetation.
   Estimated pulmonary artery systolic pressure is normal. There is no
   pericardial effusion.
   [**2-24**] EMG: Complex, abnormal study c/w generalized, severe myopathy with
   prominent denervating features, as
   can be seen in critical illness myopathy. An underlying, generalized,
   predominantly axonal polyneuropathy is also likely present, no
   supporting evidence for a subacute demyelinating polyneuropathy (as in
   Guillain- [**Location (un) 1935**] syndrome).
   Microbiology: [**Date range (1) 1936**]: Blood cx pending
   [**2-23**]: CDiff negative
   Assessment and Plan
   68F h/o breast CA, post polio syndrome & secondary AML s/p induction
   (7+3), c/b post-induction febrile neutropenia, ARDS [**12-27**] chemo,
   trach'd/PEG'd, on HD [**12-27**] ATN-related oliguric renal failure.  Now with
   coag-negative staph bacteremia on vancomycin.
   Respiratory failure: Originally [**12-27**] ARDS s/p induction chemo, s/p
   tracheostomy [**2167-2-19**].  Currently affected by fluid status, post-polio
   syndrome + ICU myopathy.
   - Vent mgt: Successful trach mask trial today; rest overnight if
   necessary.
   - Fluid mgt per HD schedule
   ID: Coag-negative staph bacteremia.
   - Vanc [**2-21**] x 7 days after date of PICC line d/c ([**2-22**])
   - Echo negative for valvular vegetations; hold on further
   Depression: Bradykinetic.  Pending psych consult.
   Weakness:  BUE>BLE weakness 2/2 ICU myopathy / post polio syndrome.
   - PT, neuro following; have requested daily PT as possible
   Renal failure [**12-27**] ATN on HD: Oliguric on HD
   - s/p temporary HD catheter [**2-23**].  Plan for tunneled HD catheter once
   afebrile.
   - Renal following
   AVNRT:  STABLE.  h/o AVNRT [**12-27**] atrial irritation by catheter,
   controlled on diltiazem 90mg TID PO
   AML:  STABLE.  Day 42 s/p induction with 7+3, WBC 4.4, not neutropenic
   - BMT rec: Hold further treatment while intubated, hold bone marrow bx
   (improving counts, no blasts)
   - Transfuse plt<10; monitor ANC, avoid GCSF
   Anemia: STABLE.  Transfusion dependent s/p induction, guaiac negative,
   hemolysis negative.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-24**] 04:43 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-02-26 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vent: Successful on trach collar, stayed off
   - ID: Check CDiff
   - BMT: No further intervention
   - Renal: Vancomycin 1g IV x1 on HD
   - Pending psych consult: Plan to consult psych for bradykinetic
   depression, ?Ritalin
   S:
   Feeling well
   Denies pain / discomfort
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-23**] 06:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-25**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-26**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.3
   HR: 112 (110 - 127) bpm
   BP: 134/81(93) {124/76(91) - 164/112(111)} mmHg
   RR: 25 (23 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,109 mL
                                                                    311 mL
   PO:
                  TF:
                                                                    869 mL
                                                                    281 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,109 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 347 (0 - 350) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///21/
   Ve: 13 L/min
   Physical Examination
   Gen: in nad, laying in bed w/ glasses on, interactive and speaking
   minimally w/ passy-muir valve in place
   Heent: eomi, perrl.  Mmm
   COR: nl s1s2, tachycardic
   PUL: cta bilaterally
   ABD: soft, NT / ND, PEG tube in place
   NEURO: no movement w/ extremities.  Reports intact sensation to light
   touch.  Awake, alert, answering questions w/ head nodding, and sparse
   speaking w/ valve in place.
   EXTREM: trace peripheral edema
   Labs / Radiology
   373 K/uL
   9.2 g/dL
   83 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   34 mg/dL
   105 mEq/L
   141 mEq/L
   28.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2167-2-22**]  10:33 AM
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
                             [**2167-2-24**]  01:21 PM
                             [**2167-2-25**]  04:07 AM
                             [**2167-2-25**]  07:33 AM
                             [**2167-2-26**]  04:48 AM
   WBC
   6.9
   8.7
   8.6
   8.4
   Hct
   23.3
   22.1
   28.1
   26.2
   26.0
   28.0
   Plt
   359
   370
   316
   424
   373
   Cr
   3.8
   2.0
   1.7
   3.0
   2.1
   TCO2
   26
   26
   33
   29
   Glucose
   100
   99
   109
   120
   74
   113
   83
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:361 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   MICRO
   [1][**2167-2-26**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-PENDING
   INPATIENT
   [2][**2167-2-23**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN ASSAY-FINAL
   INPATIENT
   [3][**2167-2-23**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2167-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2167-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2167-2-21**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE}
   INPATIENT
   [7][**2167-2-21**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [8][**2167-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2167-2-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2167-2-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [11][**2167-2-19**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [12][**2167-2-19**]
   ASPIRATE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [13][**2167-2-19**]
   ASPIRATE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [14][**2167-2-19**]
   SEROLOGY/BLOOD
   CRYPTOCOCCAL ANTIGEN-FINAL
   INPATIENT
   [15][**2167-2-19**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL
   RADS
   NO NEW
   Assessment and Plan
   68F h/o breast CA, post polio syndrome & secondary AML s/p induction
   (7+3), c/b post-induction febrile neutropenia, ARDS [**12-27**] chemo,
   trach'd/PEG'd, on HD [**12-27**] ATN-related oliguric renal failure.  Now with
   coag-negative staph bacteremia on vancomycin.
   # Respiratory failure: Originally [**12-27**] ARDS s/p induction chemo, s/p
   tracheostomy [**2167-2-19**].  Currently affected by fluid status, post-polio
   syndrome + ICU myopathy.
   - Trach mask
 transition to blow by humidified air
   - Fluid mgt per HD schedule, goal even.
   #ID: Coag-negative staph bacteremia.
   - Vanc [**2-21**] x 7 days after date of PICC line d/c ([**2-22**]), last day [**2-28**].
    Follow levels.
   - Echo negative for valvular vegetations; hold on further w/u
   # ? Depression:
   Yesterday was less intereactive, however today smiling and apparently
   more outgoing, receptive to care.
   Will hold off on psych consult currently.
   #Weakness:  BUE>BLE weakness 2/2 ICU myopathy / post polio syndrome.
   -          PT, neuro following; have requested daily PT as possible.
   -          Speech and swallow
 too early for Pos, however will
   re-address daily
   #Renal failure [**12-27**] ATN on HD: Oliguric on HD
   - s/p temporary HD catheter [**2-23**].  Plan for tunneled HD catheter, will
   discuss w/ renal.
   - Renal following
   #AVNRT:  STABLE.  h/o AVNRT, ? [**12-27**] atrial irritation by HD catheter.
   Controlled on diltiazem 90mg TID PO. Will titrate to 90 mg QID for
   improved HR control now that BP improved s/p bacteremia, and sedation
   weaned.
   #AML:  STABLE.  Day 42 s/p induction with 7+3, WBC 4.4, not neutropenic
   - BMT rec: Hold further treatment while intubated, hold bone marrow bx
   (improving counts, no blasts)
   - Transfuse plt<10; monitor ANC, avoid GCSF
    #Anemia: STABLE.  Transfusion dependent s/p induction, guaiac
   negative, hemolysis negative.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-25**] 08:00 PM 40 mL/hour
   Glycemic Control:  ssi; well controlled
   Lines:
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT: heparin TID
   Stress ulcer: lanzoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: floor potentially tomorrow.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);

2167-02-26 11:46:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Trach mask tolerated well
   PMV trial but did not talk
   Patient unable to provide history: not speaking
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-23**] 06:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-25**] 12:00 PM
   Other medications:
   PPI, epo, SQI, SQH, dilt, vanco at HD,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-26**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 115 (112 - 127) bpm
   BP: 167/80(94) {124/76(93) - 167/112(111)} mmHg
   RR: 28 (23 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,109 mL
                                                                    563 mL
   PO:
                  TF:
                                                                    869 mL
                                                                    463 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,109 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 347 (0 - 347) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 13 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, PEG site OK
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: voice, with more interaction than
   yesterday, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   9.2 g/dL
   373 K/uL
   83 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   34 mg/dL
   105 mEq/L
   141 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2167-2-22**]  10:33 AM
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
                             [**2167-2-24**]  01:21 PM
                             [**2167-2-25**]  04:07 AM
                             [**2167-2-25**]  07:33 AM
                             [**2167-2-26**]  04:48 AM
   WBC
   6.9
   8.7
   8.6
   8.4
   8.5
   Hct
   23.3
   22.1
   28.1
   26.2
   26.0
   28.0
   Plt
   359
   370
   316
   424
   373
   Cr
   3.8
   2.0
   1.7
   3.0
   2.1
   TCO2
   26
   26
   33
   29
   Glucose
   100
   99
   109
   120
   74
   113
   83
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:81.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:361 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on [**2167-2-19**]
   and has been weaning slowly since.
   Respiratory failure with improving ARDS:
   Tolerated trach collar since yesterday afternoon (!)
   She appears to have a mix of myo/neuropathy and pulmonary parenchymal
   disease that likely represents recovering ARDS.
   Try PMV again today
   Would maintain in critical care setting for another day, since she is
   at higher-than-usual risk of tiring and needing additional mechanical
   ventilation because of her prolonged ventilation and existing weakness
   Anuric ARF: on HD with new line placed [**2-23**]
   Fevers: low grade, likely related to possible PICC line infection with
   CNS.  TTE reassuring.
          Vanco x 14d or as per ID
          Surveillance cultures; if (+)
 TEE
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.  Last blasts seen peripherally on [**2-20**],
   but none since.
   Weakness: peripheral neuropathy and myopathy, likely attributable to
   critical illness and post-polio syndrome
   Depression(?):
   Ask psychiatry to consult.  ?role for pharmacologic therapies such as
   Ritalin.
   Begin screening for vent rehab
 potentially ready in next few days.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2167-2-25**] 08:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Discussed with husband and daughter.
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40 min

2167-02-27 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PM valve, speaking
   speech / swallow: too early, will re-eval upcoming days
   changed to 90 QID for HR control. ? why is tachy, sinus?
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2167-2-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2167-2-27**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-27**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 115 (113 - 129) bpm
   BP: 140/77(90) {131/67(84) - 167/90(101)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,061 mL
                                                                      5 mL
   PO:
                  TF:
                                                                    961 mL
                                                                      5 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   403 K/uL
   8.7 g/dL
   100 mg/dL
   3.1 mg/dL
   24 mEq/L
   4.4 mEq/L
   53 mg/dL
   108 mEq/L
   143 mEq/L
   27.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
                             [**2167-2-24**]  01:21 PM
                             [**2167-2-25**]  04:07 AM
                             [**2167-2-25**]  07:33 AM
                             [**2167-2-26**]  04:48 AM
                             [**2167-2-27**]  04:45 AM
   WBC
   6.9
   8.7
   8.6
   8.4
   8.5
   9.2
   Hct
   22.1
   28.1
   26.2
   26.0
   28.0
   27.2
   Plt
   359
   370
   316
   [**Telephone/Fax (3) 1967**]
   Cr
   3.8
   2.0
   1.7
   3.0
   2.1
   3.1
   TCO2
   26
   26
   33
   29
   Glucose
   100
   99
   109
   120
   74
   113
   83
   100
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:81.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:361 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   68F h/o breast CA, post polio syndrome & secondary AML s/p induction
   (7+3), c/b post-induction febrile neutropenia, ARDS [**12-27**] chemo,
   trach'd/PEG'd, on HD [**12-27**] ATN-related oliguric renal failure.  Now with
   coag-negative staph bacteremia on vancomycin.
   Respiratory failure: Originally [**12-27**] ARDS s/p induction chemo, s/p
   tracheostomy [**2167-2-19**].  Currently affected by fluid status, post-polio
   syndrome + ICU myopathy.
   - Trach mask --> transition to blow by humidified air.  Will wean
   oxygen as toleraTED
   - Fluid mgt per HD schedule, goal even.
   - PSV valve
   ID: Coag-negative staph bacteremia.
   - Vanc [**2-21**] x 7 days after date of PICC line d/c ([**2-22**]), last day is
   tomorrow ([**2-28**]).  Follow levels.
   - Echo negative for valvular vegetations; hold on further w/u
   Depression:
   Doing better today, and even better when husband here. [**Name2 (NI) **] reassess
   Weakness:  BUE>BLE weakness 2/2 ICU myopathy / post polio syndrome.
   Doing much better today, 3+ strength in 3 extremities, (not in rt arm)
   -          PT, neuro following; have requested daily PT as possible.
   -          Speech and swallow
 too early for Pos, however will
   re-address daily
   Renal failure [**12-27**] ATN on HD: Oliguric on HD
   - s/p temporary HD catheter [**2-23**].  Plan for tunneled HD catheter, will
   discuss w/ renal.
   - Renal following
   AVNRT:  STABLE.  h/o AVNRT, ? [**12-27**] atrial irritation by HD catheter.
   Controlled on diltiazem 90mg TID PO. Will titrate to 90 mg QID for
   improved HR control now that BP improved s/p bacteremia, and sedation
   weaned.
   AML:  STABLE.  Day 42 s/p induction with 7+3, WBC 4.4, not neutropenic
   - BMT rec: Hold further treatment while intubated, hold bone marrow bx
   (improving counts, no blasts)
   - Transfuse plt<10; monitor ANC, avoid GCSF
    Anemia: STABLE.  Transfusion dependent s/p induction, guaiac negative,
   hemolysis negative.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  to floor today, has been off trach mask for 2 days.
   ------ Protected Section ------
   Physical Exam:
   Gen: nad, interactive though speaking minimally w/ passy-muir valve in
   place
   Heent: eomi, perrl.  Mmm
   COR: nl s1s2, tachycardic
   PUL: cta bilaterally
   ABD: soft, NT / ND, PEG tube in place
   NEURO: with 3+ strength in b/l LE and left UE, 2+ in rt UE.
   EXTREM: trace peripheral edema
   ------ Protected Section Addendum Entered By:[**Name (NI) 1884**] [**Name8 (MD) 1834**], MD
   on:[**2167-2-27**] 23:44 ------

2167-02-27 11:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure (recovering)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PMV with some speech
   Psych consult
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-2-27**] 05:34 AM
   Other medications:
   PPI, CHG, SQI, epo, SQH, vanco @ HD, dilt 90 q 6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-27**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 114 (112 - 129) bpm
   BP: 144/77(94) {131/67(84) - 149/90(101)} mmHg
   RR: 22 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 76.1 kg
   Height: 59 Inch
                  Total In:
                                                                  1,061 mL
                                                                     85 mL
   PO:
                  TF:
                                                                    961 mL
                                                                      5 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 45%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: frail
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Decreased, Some increased strength in upper extremities
   Labs / Radiology
   8.7 g/dL
   403 K/uL
   100 mg/dL
   3.1 mg/dL
   24 mEq/L
   4.4 mEq/L
   53 mg/dL
   108 mEq/L
   143 mEq/L
   27.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2167-2-22**]  10:58 AM
                             [**2167-2-22**]  11:29 PM
                             [**2167-2-23**]  05:04 AM
                             [**2167-2-24**]  01:32 AM
                             [**2167-2-24**]  04:25 AM
                             [**2167-2-24**]  01:21 PM
                             [**2167-2-25**]  04:07 AM
                             [**2167-2-25**]  07:33 AM
                             [**2167-2-26**]  04:48 AM
                             [**2167-2-27**]  04:45 AM
   WBC
   6.9
   8.7
   8.6
   8.4
   8.5
   9.2
   Hct
   22.1
   28.1
   26.2
   26.0
   28.0
   27.2
   Plt
   359
   370
   316
   [**Telephone/Fax (3) 1967**]
   Cr
   3.8
   2.0
   1.7
   3.0
   2.1
   3.1
   TCO2
   26
   26
   33
   29
   Glucose
   100
   99
   109
   120
   74
   113
   83
   100
   Other labs: PT / PTT / INR:12.9/24.9/1.1, ALT / AST:[**8-20**], Alk Phos / T
   Bili:166/0.5, Amylase / Lipase:61/48, Differential-Neuts:81.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:940 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:361 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Imaging: No new
   Microbiology: C diff negative; otherwise no new micro
   Assessment and Plan
   68-year-old woman with h/o stage II breast Ca, post-polio syndrome,
   recently dx
d AML (felt secondary to breast cancer treatment), now with
   a complicated course with fevers, LUL PNA, volume overload, ARF and
   progressive b/l pulmonary infiltrates with extensive infection w/u
   unrevealing, transferred to ICU for ARDS.  She underwent T/G on [**2167-2-19**]
   and has been slowly improving since.
   Respiratory failure with improving ARDS:
   Tolerated trach collar for two days
   She appears to have a mix of myo/neuropathy and pulmonary parenchymal
   disease that likely represents recovering ARDS.  Her weakness is slowly
   but definitely improving.
   Try PMV again today
   Anuric ARF: on HD with new line placed [**2-23**]
   Fevers: low grade, likely related to possible PICC line infection with
   CNS.  TTE reassuring.
          Vanco x 14d or as per ID
          Surveillance cultures; if (+)
 TEE
   Anemia:
   Slow trend down.  Transfuse to keep > 21.
   AML
   BMT following.  No evidence of active disease, although exceedingly
   high likelihood for relapse.  Last blasts seen peripherally on [**2-20**],
   but none since.
   Weakness: peripheral neuropathy and myopathy, likely attributable to
   critical illness and post-polio syndrome
   Depression(?):
   Ask psychiatry to consult.  ?role for pharmacologic therapies such as
   Ritalin.
   Begin screening for vent rehab
 potentially ready in next few days.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-2-21**] 01:00 PM
   Dialysis Catheter - [**2167-2-23**] 03:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: